2134-05-22 07:17:00 Physician Resident Progress Note
TITLE: SUB-INTERN PROGRESS NOTE
   24 Hour Events:
   - Ultrasound-guided paracentesis (1.4L removed); peritoneal fluid
   consistent with SBP; ceftriaxone 1g IV daily x5 days, albumin 1.5g/kg
   - SAAG = serum albumin - peritoneal fluid albumin = 3.4-1.1 = 2.3,
   consistent with portal hypertension; total protein ascites 1.7 vs.
   serum 6.5
   - TTE with AS, valve area 0.9cm2; mild LVH with presernved EF;
   PCWP>18mmHg; 2+ MR; mild pulmonary artery systolic hypertension; no
   pericardial effusion
   - UA with blood, mod leuk est, 35 WBC; Foley removed
   - RUQ duplex u/s:  Normal Doppler patency and flow of the hepatic
   veins, portal vein
   - Fe urea nitrogen 27.5%, urine sodium 20; prerenal, does not exclude
   hepatorenal
   - Right shoulder pain x1 week; written for Tylenol, 2g maximum
   Allergies:
   Amoxicillin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Iodine; Iodine Containing
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2134-5-21**] 08:12 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-22**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (98.9
   HR: 51 (44 - 65) bpm
   BP: 113/46(63) {92/21(45) - 125/81(89)} mmHg
   RR: 21 (16 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 61 Inch
                  Total In:
                                                                  1,389 mL
                                                                    165 mL
   PO:
                                                                    240 mL
                  TF:
   IVF:
                                                                     94 mL
   Blood products:
                                                                    235 mL
                                                                    165 mL
   Total out:
                                                                  2,062 mL
                                                                      0 mL
   Urine:
                                                                    347 mL
   NG:
   Stool:
   Drains:
                                                                  1,400 mL
   Balance:
                                                                   -673 mL
                                                                    165 mL
   Respiratory support
   O2 Delivery Device: ROOM AIR
   SpO2: 96%
   Physical Examination
   GENERAL:  Resting comfortably with head of bed elevated 30 degrees.
   Oriented x3.
   SKIN:  Not jaundiced. Mild erythema at nasal bridge, cheeks. No palmar
   erythema. No spider angiomata. No caput.
   HEENT:  NCAT. Sclera anicteric. EOMI. Conjunctiva pale.
   NECK:  Supple. No appreciable JVD (exam limited [**2-1**] body habitus)
   CARDIAC:  RRR, normal S1, quiet S2; III/VI holosystolic murmur loudest
   at LUSB
   LUNGS:  Diffuse expiratory wheezes; no crackles, rhonchi appreciated
   ABDOMEN:  Obese; visible hernia below right breast, periumbilical;
   soft, nontender. Dull to percussion, unable to appreciate fluid wave.
   EXTREMITIES:  No lower extremity edema. Radial, DP pulses 2+.
   Neuro:  No asterixis; CNII-XII intact; EOMI; upper and lower extremity
   strength 5/5 and equal bilaterally.
   Labs / Radiology
   114 K/uL
   8.8 g/dL
   133 mg/dL
   3.5 mg/dL
   16 mEq/L
   4.7 mEq/L
   70 mg/dL
   107 mEq/L
   135 mEq/L
   25.9 %
   9.4 K/uL
        [image002.jpg]
                             [**2134-5-21**]  02:05 PM
                             [**2134-5-22**]  03:26 AM
   WBC
   19.0
   9.4
   Hct
   32.6
   25.9
   Plt
   172
   114
   Cr
   3.3
   3.5
   Glucose
   160
   133
   Other labs: PT / PTT / INR:18.7/33.3/1.7, ALT / AST:[**12-11**], Alk Phos / T
   Bili:54/0.7, Differential-Neuts:91.2 %, Lymph:6.5 %, Mono:2.2 %,
   Eos:0.1 %, Albumin:3.7 g/dL, LDH:141 IU/L, Ca++:8.2 mg/dL, Mg++:2.1
   mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   77F with CAD s/p triple CABG, cirrhosis, DMII, HTN, CRI transferred
   from OSH with new finding of severe AS, bradycardia, hypotension,
   leukocytosis, and ARF on CRI, in the setting of increasing shortness of
   breath and abdominal girth.
   # SBP / ASCITES / CIRRHOSIS.
        The patient
s increasing abdominal girth is due to increasing
   peritoneal ascites. Her shortness of breath was probably caused by the
   accumulation of ascites in two ways: (a) via a restrictive process
   where the pressure of the fluid against her lungs and chest wall
   increases the work of breathing; and (b) via the spontaneous bacterial
   peritonitis (SBP) that is present in the ascites, which increases her
   white count, and her non-gap acidosis which causes increased CO2
   production, causes tachypnea to blow off excess CO2, resulting in
   discomfort of breathing.
        In order to evaluate the patient
s ascites, an ultrasound-guided
   paracentesis was performed yesterday. The scan showed ~5L of peritoneal
   fluid, of which approximately 1.4L was removed and showed WBC of >2900
   with 92% poly
s (absolute ~2600 polys) and ascitic fluid total protein
   (AFTP) 1.7. The high number of polys (>250) with low AFTP (<2.5)
   suggests SBP. Measurement of the AFTP assists in differentiating SBP
   from secondary bacterial peritonitis, because lowest protein
   concentration correlates with the highest risk of developing SBP. It is
   thought that the low protein concentration correlates with low
   concentrations of opsonins, which decreases the response of innate
   immunity in the peritoneum and thus predisposes to infection (see
   [**Last Name (un) 7710**], Gastrooenterology [**2110**]; and [**Last Name (un) 7710**], Hepatology [**2112**]). We know
   that most cases of SBP are due to gut bacteria (E. coli, Klebsiella)
   and that sometimes even streptococcus and infrequently staphylococcus
   can be the culprit, so treatment with somewhat broad-spectrum
   antibiotics is warranted at least initially. Therefore, our patient was
   started on ceftriaxone 1g IV daily x5 days (day 1=[**2134-5-21**]).
   Furthermore, patients with cirrhosis and SBP frequently have impaired
   renal function, which often results in increased morbidity and
   mortality. By administering IV albumin (which expands plasma volume and
   increases blood flow to the kidneys), one reduces morality rates at
   three months from 41% to 22% (see Sort et [**Doctor Last Name **], NEJM [**2123**]). Therefore,
   our patient was also given albumin 1.5g/kg yesterday and will receive
   an additional 1.0g/kg on day 3 ([**2134-5-23**]). In terms of long-term
   prophylaxis, the patient will require a weekly dose of 750 mg
   ciprofloxacin for the rest of her life, which will decrease the
   incidence of recurrent SBP from 22% to 3.6% (see Rolachon et [**Doctor Last Name **],
   Hepatology [**2119**]).
        The etiology of her ascites is portal hypertension as evidenced by
   her high gradient SAAG (serum albumin - peritoneal fluid albumin =
   3.4-1.1 = 2.3, where high gradient is >1.1, which has 97% accuracy for
   predicting portal hypertension [see [**Last Name (un) 7710**] et [**Doctor Last Name **], Annals of Internal
   Medicine [**2116**]]). Importantly, high vs. low gradient SAAG is not the
   same as transudative/exudative ascites, which refers specifically to
   AFTP concentration (not albumin). In general, top of the differential
   diagnosis for portal hypertension includes cirrhosis, CHF, and
   alcoholic hepatitis. In our patient, cirrhosis is the most likely
   etiology because the vast majority of patients with SBP have portal
   hypertension secondary to cirrhosis. Furthermore, CHF is an unlikely
   cause (even in the setting of her aortic stenosis) because her EF is
   normal at ~60% and she has low AFTP (CHF is associated with high AFTP).
   Lastly, alcoholic hepatitis is unlikely because she denies a history of
   extensive alcohol abuse.
        The etiology of her cirrhosis, on the other hand, is much more
   elusive. The two most common causes in the USA are alcohol and
   Hepatitis C. Again, a lack of history of alcohol abuse and elicit drug
   abuse make these less likely etiologies. Another possibility is
   nonalcoholic steatohepatitis, but only a biopsy can offer a more
   definitive diagnosis. Given her Cr = 3.5, Tbili = 0.7, INR = 1.7, her
   calculated MELD score is 23, which is associated with ~90% survival at
   3 months (see Kamath et [**Doctor Last Name **], Hepatology [**2125**]).
   -          Continue on ceftriaxone 1 g qd for 5 days (day 1 = [**2134-5-21**])
   -          Albumin 1.0g/kg on [**2134-5-23**]
   -          Will consider Cipro 750 mg qweek after ceftriaxone is
   discontinued
   -          Appreciate recommendation from Dr. [**First Name (STitle) 2578**] (hepatology)
   -          Low salt diet, fluid restriction
   # AORTIC STENOSIS.  The patient has what we believe to be new-onset
   aortic stenosis, with our TTE showing aortic valve area of 0.9cm^2,
   peak gradient ~80 and mean gradient ~50. Given her current infection
   with SBP and lack of severe symptoms related to AS, aggressive
   intervention should be delayed until her infection is cleared.
   Afterwards, she may be evaluated for valvuloplasty (a temporary
   solution) or aortic valve replacement (a more permanent solution). The
   usual indications for AVR surgery include dyspnea on exertion (5 year
   survival from time of diagnosis), angina with exertion (3 year
   survival), or syncope with exertion (1 year survival), or severe LV
   dysfunction from AVR. Given that the running hypothesis is that her
   dyspnea over the past couple of days is due to SBP and the resultant
   tachypnea, she does not have any of these indications for surgery.
   # BRADYCARDIA.  The patient becomes bradycardic during the night to the
   low 40s. This was consistent with what happened at the outside
   hospital, where EKGs suggest junctional rhythm given the lack of P
   waves. This is most likely due to carvedilol
toxicity.
 Given that the
   patient has cirrhosis, she has decreased hepatic metabolism of
   carvedilol, which effectively enhances the doses she receives. Since
   carvedilol is a beta-blocker, she is probably experiencing
   supra-therapeutic effects of the drug that are causing her to become
   bradycardic. We have discontinued her carvedilol and hypothesize that
   her bradycardia should resolve soon. In the future she will need to be
   on a smaller dose, if at all. Given that she also has chronic renal
   failure, switching to a drug that is renally metabolized will probably
   not be a feasible alternative.
   -          hold carvedilol given cirrhosis/ascites
   -          EP consulted for evaluation for pacemaker placement
   -          Hold beta-blocker, calcium-channel blocker
   -          Atropine at bedside
   -          Monitor on telemetry
   # ACUTE ON CHRONIC RENAL FAILURE.  The patient most likely has acute
   (Cr 3.5) on chronic renal failure (baseline Cr 1.7) due to ATN that
   occurred during her episodes of supra-therapeutic drug action causing
   hypotension. Differential also includes ATN secondary to prerenal
   etiology given poor cardiac output secondary to aortic stenosis. [**Month (only) 51**]
   also be secondary to medications - recently started on HCTZ. We will
   send for urine-lytes/osmolarity/Na to further assess.
        The most feared etiology would be hepatorenal syndrome
   (development of acute renal failure in a patient who has advanced liver
   disease due to cirrhosis) because prognosis for these patients is poor,
   with a median survival of 3.3 months (see Alessandria et [**Doctor Last Name **], Hepatology
   [**2129**]). ARF in these patients occurs due to splanchnic vasodilatation
   and increases in nitric oxide circulation, which eventually reduces GFR
   and damages the kidneys. Diagnostic criteria for hepatorenal syndrome
   include a rise in creatinine above 1.5, absence of other causes for
   renal disease (including shock, bacterial infection, SBP, nephrotoxic
   durg use, post-renal obstruction), urine red cell excretion of less
   than 50 cells per HPF, and lack of improvement in renal function after
   volume expansion with IV albumin for at least two days. Given that she
   has a good story for other causes of ARF (i.e. SBP and some component
   of hypotension), the fact that her renal function did not improve with
   IV albumin is not as suggestive of hepatorenal syndrome, because she
   likely has ATN which will take at least a few days to recover.
   Therefore, we will trend her creatinine and we do not expect to see a
   fall until at least 3-5 days (approximately [**Date range (1) 7721**]).
   -          Continue trending creatinine daily
   -          IV albumin tomorrow
   -          Nephrology consult
   -          Urine lytes, UA
   -          Close monitoring of urine output
   -          Hold diuretics
   # ANEMIA.  The patient had a drop in hematocrit from 32 to 25 today.
   This is worrying because it could suggest a GI bleed. She was put on a
   PPI and a type and screen was sent. We will guaiac her stools to check
   for GI bleed.
   -          guaiac stool
   # HYPOTENSION.  The patient
s hypotension has now resolved. She is no
   longer on dopamine. She may have been dehydrated and/or overmedicated.
   Although septic shock was initially suspected given her leukocytosis,
   her WBC has now dropped to 19 and she has no fever. Furthermore, her
   liver disease may play a role in dropping her blood pressure in the
   context of decreased production of albumin.
   -          Hold anti-hypertensives
   -          On ceftriaxone now
   #. CORONARIES:  CAD s/p CABG. Anatomy as listed previously. No chest
   pain currently or prior to OSH admission, although this is not
   necessarily reassuring in this female, diabetic patient. By report,
   cardiac biomarkers were negative at outside hospital.
   - Continue aspirin 325mg PO daily
   - Hold beta-blocker given recent bradycardia, hypotension
   - Continue simvastatin 20mg PO daily
   .
   #. PUMP:  Per signout, patient was thought to be fluid overloaded at
   OSH, BNP 741 with anasarca, net fluid balance +300ml yesterday, +500ml
   today prior to transfer. TTE there showed preserved EF 65-70% but new
   finding of severe AS with valve area of 0.7. Patient with hypotension
   requiring initation of dopamine gtt.
   - Hold beta-blocker given recent bradycardia, hypotension.
   - Hold lasix
   #. Diabetes melliitus, type II:
   - Continue Humalog sliding scale per home regimen
   ICU Care
   FEN:  Diabetic, heart healthy, low-salt diet, kidney-friendly (low
   protein), and liver healthy diet; fluid restriction 1.5L; replete lytes
   as needed
   ACCESS:  PIV x2
   PROPHYLAXIS:  Heparin SC TID; pneumoboots; home PPI; bowel regimen
   CONTACT:  [**Name (NI) 1125**] ([**Name2 (NI) 2685**], HCP), ([**Telephone/Fax (1) 7698**]
   CODE:  FULL CODE. Patient wishes to discuss this with family before
   making any other decisions.
   DISPO: CCU for now
   16:36
   ------ Protected Section ------
   Agree with findings and plan as outline in excellent MS4 note by
   Dryzmalski.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 4058**], MD
   on:[**2134-5-23**] 08:06 ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **] from [**2134-5-21**] and [**Doctor Last Name 4058**]
   [**2134-5-22**].
   I would add the following remarks:
   Medical Decision Making
   She has not had significant bradycardia here and etiology of transient
   bradycardia may be some degree of contribution from her infection.  I
   suspect that she will not need a pacemaker but will obtain EP input.
   Hold dopamine.   Consult renal service regarding management of anuric
   renal failure.  Her Aortic stenosis does not seem to be a major
   hemodynamic contributor.  Treat for spontaneous bacterial peritonitis.
   Date of service [**2134-5-22**]  Time spent with patient 40 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2134-5-23**] 09:56 ------

2134-05-22 07:17:00 Physician Resident Progress Note
TITLE: SUB-INTERN PROGRESS NOTE
   24 Hour Events:
   - Ultrasound-guided paracentesis (1.4L removed); peritoneal fluid
   consistent with SBP; ceftriaxone 1g IV daily x5 days, albumin 1.5g/kg
   - SAAG = serum albumin - peritoneal fluid albumin = 3.4-1.1 = 2.3,
   consistent with transudate; total protein ascites 1.7 vs. serum 6.5
   - TTE with AS, valve area 0.9cm2; mild LVH with presernved EF;
   PCWP>18mmHg; 2+ MR; mild pulmonary artery systolic hypertension; no
   pericardial effusion
   - UA with blood, mod leuk est, 35 WBC; Foley removed
   - RUQ duplex u/s:  Normal Doppler patency and flow of the hepatic
   veins, portal vein
   - Fe urea nitrogen 27.5%, urine sodium 20; prerenal, does not exclude
   hepatorenal
   - Right shoulder pain x1 week; written for Tylenol, 2g maximum
   Allergies:
   Amoxicillin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Iodine; Iodine Containing
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2134-5-21**] 08:12 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-22**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (98.9
   HR: 51 (44 - 65) bpm
   BP: 113/46(63) {92/21(45) - 125/81(89)} mmHg
   RR: 21 (16 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 61 Inch
                  Total In:
                                                                  1,389 mL
                                                                    165 mL
   PO:
                                                                    240 mL
                  TF:
   IVF:
                                                                     94 mL
   Blood products:
                                                                    235 mL
                                                                    165 mL
   Total out:
                                                                  2,062 mL
                                                                      0 mL
   Urine:
                                                                    347 mL
   NG:
   Stool:
   Drains:
                                                                  1,400 mL
   Balance:
                                                                   -673 mL
                                                                    165 mL
   Respiratory support
   O2 Delivery Device: ROOM AIR
   SpO2: 96%
   Physical Examination
   GENERAL:  Resting comfortably with head of bed elevated 30 degrees.
   Oriented x3.
   SKIN:  Not jaundiced. Mild erythema at nasal bridge, cheeks. No palmar
   erythema. No spider angiomata. No caput.
   HEENT:  NCAT. Sclera anicteric. EOMI. Conjunctiva pale.
   NECK:  Supple. No appreciable JVD (exam limited [**2-1**] body habitus)
   CARDIAC:  RRR, normal S1, quiet S2; III/VI holosystolic murmur loudest
   at LUSB
   LUNGS:  Diffuse expiratory wheezes; no crackles, rhonchi appreciated
   ABDOMEN:  Obese; visible hernia below right breast, periumbilical;
   soft, nontender. Dull to percussion, unable to appreciate fluid wave.
   EXTREMITIES:  No lower extremity edema. Radial, DP pulses 2+.
   Neuro:  No asterixis; CNII-XII intact; EOMI; upper and lower extremity
   strength 5/5 and equal bilaterally.
   Labs / Radiology
   114 K/uL
   8.8 g/dL
   133 mg/dL
   3.5 mg/dL
   16 mEq/L
   4.7 mEq/L
   70 mg/dL
   107 mEq/L
   135 mEq/L
   25.9 %
   9.4 K/uL
        [image002.jpg]
                             [**2134-5-21**]  02:05 PM
                             [**2134-5-22**]  03:26 AM
   WBC
   19.0
   9.4
   Hct
   32.6
   25.9
   Plt
   172
   114
   Cr
   3.3
   3.5
   Glucose
   160
   133
   Other labs: PT / PTT / INR:18.7/33.3/1.7, ALT / AST:[**12-11**], Alk Phos / T
   Bili:54/0.7, Differential-Neuts:91.2 %, Lymph:6.5 %, Mono:2.2 %,
   Eos:0.1 %, Albumin:3.7 g/dL, LDH:141 IU/L, Ca++:8.2 mg/dL, Mg++:2.1
   mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   77F with CAD s/p triple CABG, cirrhosis, DMII, HTN, CRI transferred
   from OSH with new finding of severe AS, bradycardia, hypotension,
   leukocytosis, and ARF on CRI, in the setting of increasing shortness of
   breath and abdominal girth.
   # SBP / ASCITES / CIRRHOSIS.
        The patient
s increasing abdominal girth is due to increasing
   peritoneal ascites. Her shortness of breath was probably caused by the
   accumulation of ascites in two ways: (a) via a restrictive process
   where the pressure of the fluid against her lungs and chest wall
   increases the work of breathing; and (b) via the spontaneous bacterial
   peritonitis (SBP) that is present in the ascites, which increases her
   white count, causes anion-gap metabolic acidosis due to increased CO2
   production, causes tachypnea to blow off excess CO2, resulting in
   discomfort of breathing.
        In order to evaluate the patient
s ascites, an ultrasound-guided
   paracentesis was performed yesterday. The scan showed ~5L of peritoneal
   fluid, of which approximately 1.4L was removed and showed WBC of >2900
   with 92% poly
s (absolute ~2600 polys) and ascitic fluid total protein
   (AFTP) 1.7. The high number of polys (>250) with low AFTP (<2.5)
   suggests SBP. Measurement of the AFTP assists in differentiating SBP
   from secondary bacterial peritonitis, because lowest protein
   concentration correlates with the highest risk of developing SBP. It is
   thought that the low protein concentration correlates with low
   concentrations of opsonins, which decreases the response of innate
   immunity in the peritoneum and thus predisposes to infection (see
   [**Last Name (un) 7710**], Gastrooenterology [**2110**]; and [**Last Name (un) 7710**], Hepatology [**2112**]). We know
   that most cases of SBP are due to gut bacteria (E. coli, Klebsiella)
   and that sometimes even streptococcus and infrequently staphylococcus
   can be the culprit, so treatment with somewhat broad-spectrum
   antibiotics is warranted at least initially. Therefore, our patient was
   started on ceftriaxone 1g IV daily x5 days (day 1=[**2134-5-21**]).
   Furthermore, patients with cirrhosis and SBP frequently have impaired
   renal function, which often results in increased morbidity and
   mortality. By administering IV albumin (which expands plasma volume and
   increases blood flow to the kidneys), one reduces morality rates at
   three months from 41% to 22% (see Sort et [**Doctor Last Name **], NEJM [**2123**]). Therefore,
   our patient was also given albumin 1.5g/kg yesterday and will receive
   an additional 1.0g/kg on day 3 ([**2134-5-23**]). In terms of long-term
   prophylaxis, the patient will require a weekly dose of 750 mg
   ciprofloxacin for the rest of her life, which will decrease the
   incidence of recurrent SBP from 22% to 3.6% (see Rolachon et [**Doctor Last Name **],
   Hepatology [**2119**]).
        The etiology of her ascites is portal hypertension as evidenced by
   her high gradient SAAG (serum albumin - peritoneal fluid albumin =
   3.4-1.1 = 2.3, where high gradient is >1.1, which has 97% accuracy for
   predicting portal hypertension [see [**Last Name (un) 7710**] et [**Doctor Last Name **], Annals of Internal
   Medicine [**2116**]]). Importantly, high vs. low gradient SAAG is not the
   same as transudative/exudative ascites, which refers specifically to
   AFTP concentration (not albumin). In general, top of the differential
   diagnosis for portal hypertension includes cirrhosis, CHF, and
   alcoholic hepatitis. In our patient, cirrhosis is the most likely
   etiology because the vast majority of patients with SBP have portal
   hypertension secondary to cirrhosis. Furthermore, CHF is an unlikely
   cause (even in the setting of her aortic stenosis) because her EF is
   normal at ~60% and she has low AFTP (CHF is associated with high AFTP).
   Lastly, alcoholic hepatitis is unlikely because she denies a history of
   extensive alcohol abuse.
        The etiology of her cirrhosis, on the other hand, is much more
   elusive. The two most common causes in the USA are alcohol and
   Hepatitis C. Again, a lack of history of alcohol abuse and elicit drug
   abuse make these less likely etiologies. Another possibility is
   nonalcoholic steatohepatitis, but only a biopsy can offer a more
   definitive diagnosis. Given her Cr = 3.5, Tbili = 0.7, INR = 1.7, her
   calculated MELD score is 23, which is associated with ~90% survival at
   3 months (see Kamath et [**Doctor Last Name **], Hepatology [**2125**]).
   -          Continue on ceftriaxone 1 g qd for 5 days (day 1 = [**2134-5-21**])
   -          Albumin 1.0g/kg on [**2134-5-23**]
   -          Will consider Cipro 750 mg qweek after ceftriaxone is
   discontinued
   -          Appreciate recommendation from Dr. [**First Name (STitle) 2578**] (hepatology)
   -          Low salt diet, fluid restriction
   # AORTIC STENOSIS.  The patient has what we believe to be new-onset
   aortic stenosis, with our TTE showing aortic valve area of 0.9cm^2,
   peak gradient ~80 and mean gradient ~50. Given her current infection
   with SBP and lack of severe symptoms related to AS, aggressive
   intervention should be delayed until her infection is cleared.
   Afterwards, she may be evaluated for valvuloplasty (a temporary
   solution) or aortic valve replacement (a more permanent solution). The
   usual indications for AVR surgery include dyspnea on exertion (5 year
   survival from time of diagnosis), angina with exertion (3 year
   survival), or syncope with exertion (1 year survival), or severe LV
   dysfunction from AVR. Given that the running hypothesis is that her
   dyspnea over the past couple of days is due to SBP and the resultant
   tachypnea, she does not have any of these indications for surgery.
   Furthermore, her CHILDS-[**Last Name (un) 7720**] classification (which is used in
   patients with cirrhosis to assess peri-operative risk for mortality) is
 given her ascites and serum albumin of 3.4, which puts her at 31%
   risk for dying if she were to have surgery (see Garrison et [**Doctor Last Name **], Annals
   of Surgery [**2108**]). Therefore, at this time the cons of surgery are
   unlikely to out-weight the pros of a new aortic valve.
   # BRADYCARDIA.  The patient becomes bradycardic during the night to the
   low 40s. We did not get an EKG so we cannot assess fully the rhythm,
   but the outside hospital EKGs suggest junctional rhythm given the lack
   of P waves. This is most likely due to carvedilol
toxicity.
 Given
   that the patient has cirrhosis, she has decreased hepatic metabolism of
   carvedilol, which effectively enhances the doses she receives. Since
   carvedilol is a beta-blocker, she is probably experiencing
   supra-therapeutic effects of the drug that are causing her to become
   bradycardic. We have discontinued her carvedilol and hypothesize that
   her bradycardia should resolve soon. In the future she will need to be
   on a smaller dose, if at all. Given that she also has chronic renal
   failure, switching to a drug that is renally metabolized will probably
   not be a feasible alternative.
   -          hold carvedilol given cirrhosis/ascites
   -          EP consulted for evaluation for pacemaker placement
   -          Hold beta-blocker, calcium-channel blocker
   -          Atropine at bedside
   -          Monitor on telemetry
   # ACUTE ON CHRONIC RENAL FAILURE.  The patient most likely has acute
   (Cr 3.5) on chronic renal failure (baseline Cr 1.7) due to ATN that
   occurred during her episodes of supra-therapeutic drug action causing
   hypotension. Differential also includes ATN secondary to prerenal
   etiology given poor cardiac output secondary to aortic stenosis. [**Month (only) 51**]
   also be secondary to medications - recently started on HCTZ. We will
   send for urine-lytes/osmolarity/Na to further assess.
        The most feared etiology would be hepatorenal syndrome
   (development of acute renal failure in a patient who has advanced liver
   disease due to cirrhosis) because prognosis for these patients is poor,
   with a median survival of 3.3 months (see Alessandria et [**Doctor Last Name **], Hepatology
   [**2129**]). ARF in these patients occurs due to splanchnic vasodilatation
   and increases in nitric oxide circulation, which eventually reduces GFR
   and damages the kidneys. Diagnostic criteria for hepatorenal syndrome
   include a rise in creatinine above 1.5, absence of other causes for
   renal disease (including shock, bacterial infection, SBP, nephrotoxic
   durg use, post-renal obstruction), urine red cell excretion of less
   than 50 cells per HPF, and lack of improvement in renal function after
   volume expansion with IV albumin for at least two days. Given that she
   has a good story for other causes of ARF (i.e. SBP and some component
   of hypotension), the fact that her renal function did not improve with
   IV albumin is not as suggestive of hepatorenal syndrome, because she
   likely has ATN which will take at least a few days to recover.
   Therefore, we will trend her creatinine and we do not expect to see a
   fall until at least 3-5 days (approximately [**Date range (1) 7721**]).
   -          Continue trending creatinine daily
   -          IV albumin tomorrow
   -          Nephrology consult
   -          Urine lytes, UA
   -          Close monitoring of urine output
   -          Hold diuretics
   # ANEMIA.  The patient had a drop in hematocrit from 32 to 25 today.
   This is worrying because it could suggest a GI bleed. She was put on a
   PPI and a type and screen was sent. We will guaiac her stools to check
   for GI bleed.
   -          guaiac stool
   # HYPOTENSION.  The patient
s hypotension has now resolved. She is no
   longer on dopamine. She may have been dehydrated and/or overmedicated.
   Although septic shock was initially suspected given her leukocytosis,
   her WBC has now dropped to 19 and she has no fever. Furthermore, her
   liver disease may play a role in dropping her blood pressure in the
   context of decreased production of albumin.
   -          Hold anti-hypertensives
   -          Will consider abx if has positive infectious work-up
   #. CORONARIES:  CAD s/p CABG. Anatomy as listed previously. No chest
   pain currently or prior to OSH admission, although this is not
   necessarily reassuring in this female, diabetic patient. By report,
   cardiac biomarkers were negative at outside hospital.
   - Continue aspirin 325mg PO daily
   - Hold beta-blocker given recent bradycardia, hypotension
   - Continue simvastatin 20mg PO daily
   .
   #. PUMP:  Per signout, patient was thought to be fluid overloaded at
   OSH, BNP 741 with anasarca, net fluid balance +300ml yesterday, +500ml
   today prior to transfer. TTE there showed preserved EF 65-70% but new
   finding of severe AS with valve area of 0.7. Patient with hypotension
   requiring initation of dopamine gtt.
   - Hold beta-blocker given recent bradycardia, hypotension. Hold
   hypotension given recent hypotension; unclear if patient needs to be on
   ACE inhibitor as she is not known to have heart failure.
   - Will restart furosemide as renal function improves
   #. Leukocytosis:  No clear source of infection. Differential diagnosis
   includes aspiration pneumonia, SBP, UTI. Was given levofloxacin IV at
   OSH given suspicion for aspiration pneumonia.
   - CXR
   - UA
   - Urine culture, blood cultures
   - Diagnostic paracentesis
   .
   #. Diabetes melliitus, type II:
   - Continue Humalog sliding scale per home regimen
   ICU Care
   FEN:  Diabetic, heart healthy, low-salt diet, kidney-friendly (low
   protein), and liver healthy diet; fluid restriction 1.5L; replete lytes
   as needed
   ACCESS:  PIV x2
   PROPHYLAXIS:  Heparin SC TID; pneumoboots; home PPI; bowel regimen
   CONTACT:  [**Name (NI) 1125**] ([**Name2 (NI) 2685**], HCP), ([**Telephone/Fax (1) 7698**]
   CODE:  FULL CODE. Patient wishes to discuss this with family before
   making any other decisions.
   DISPO: CCU for now

2134-05-22 07:17:00 Physician Resident Progress Note
TITLE: SUB-INTERN PROGRESS NOTE
   24 Hour Events:
   - Ultrasound-guided paracentesis (1.4L removed); peritoneal fluid
   consistent with SBP; ceftriaxone 1g IV daily x5 days, albumin 1.5g/kg
   - SAAG = serum albumin - peritoneal fluid albumin = 3.4-1.1 = 2.3,
   consistent with transudate; total protein ascites 1.7 vs. serum 6.5
   - TTE with AS, valve area 0.9cm2; mild LVH with presernved EF;
   PCWP>18mmHg; 2+ MR; mild pulmonary artery systolic hypertension; no
   pericardial effusion
   - UA with blood, mod leuk est, 35 WBC; Foley removed
   - RUQ duplex u/s:  Normal Doppler patency and flow of the hepatic
   veins, portal vein
   - Fe urea nitrogen 27.5%, urine sodium 20; prerenal, does not exclude
   hepatorenal
   - Right shoulder pain x1 week; written for Tylenol, 2g maximum
   Allergies:
   Amoxicillin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Iodine; Iodine Containing
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2134-5-21**] 08:12 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-22**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (98.9
   HR: 51 (44 - 65) bpm
   BP: 113/46(63) {92/21(45) - 125/81(89)} mmHg
   RR: 21 (16 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 61 Inch
                  Total In:
                                                                  1,389 mL
                                                                    165 mL
   PO:
                                                                    240 mL
                  TF:
   IVF:
                                                                     94 mL
   Blood products:
                                                                    235 mL
                                                                    165 mL
   Total out:
                                                                  2,062 mL
                                                                      0 mL
   Urine:
                                                                    347 mL
   NG:
   Stool:
   Drains:
                                                                  1,400 mL
   Balance:
                                                                   -673 mL
                                                                    165 mL
   Respiratory support
   O2 Delivery Device: ROOM AIR
   SpO2: 96%
   Physical Examination
   GENERAL:  Resting comfortably with head of bed elevated 30 degrees.
   Oriented x3.
   SKIN:  Not jaundiced. Mild erythema at nasal bridge, cheeks. No palmar
   erythema. No spider angiomata. No caput.
   HEENT:  NCAT. Sclera anicteric. EOMI. Conjunctiva pale.
   NECK:  Supple. No appreciable JVD (exam limited [**2-1**] body habitus)
   CARDIAC:  RRR, normal S1, quiet S2; III/VI holosystolic murmur loudest
   at LUSB
   LUNGS:  Diffuse expiratory wheezes; no crackles, rhonchi appreciated
   ABDOMEN:  Obese; visible hernia below right breast, periumbilical;
   soft, nontender. Dull to percussion, unable to appreciate fluid wave.
   EXTREMITIES:  No lower extremity edema. Radial, DP pulses 2+.
   Neuro:  No asterixis; CNII-XII intact; EOMI; upper and lower extremity
   strength 5/5 and equal bilaterally.
   Labs / Radiology
   114 K/uL
   8.8 g/dL
   133 mg/dL
   3.5 mg/dL
   16 mEq/L
   4.7 mEq/L
   70 mg/dL
   107 mEq/L
   135 mEq/L
   25.9 %
   9.4 K/uL
        [image002.jpg]
                             [**2134-5-21**]  02:05 PM
                             [**2134-5-22**]  03:26 AM
   WBC
   19.0
   9.4
   Hct
   32.6
   25.9
   Plt
   172
   114
   Cr
   3.3
   3.5
   Glucose
   160
   133
   Other labs: PT / PTT / INR:18.7/33.3/1.7, ALT / AST:[**12-11**], Alk Phos / T
   Bili:54/0.7, Differential-Neuts:91.2 %, Lymph:6.5 %, Mono:2.2 %,
   Eos:0.1 %, Albumin:3.7 g/dL, LDH:141 IU/L, Ca++:8.2 mg/dL, Mg++:2.1
   mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   77F with CAD s/p triple CABG, cirrhosis, DMII, HTN, CRI transferred
   from OSH with new finding of severe AS, bradycardia, hypotension,
   leukocytosis, and ARF on CRI, in the setting of increasing shortness of
   breath and abdominal girth.
   # SBP / ASCITES / CIRRHOSIS.
        The patient
s increasing abdominal girth is due to increasing
   peritoneal ascites. Her shortness of breath was probably caused by the
   accumulation of ascites in two ways: (a) via a restrictive process
   where the pressure of the fluid against her lungs and chest wall
   increases the work of breathing; and (b) via the spontaneous bacterial
   peritonitis (SBP) that is present in the ascites, which increases her
   white count, causes anion-gap metabolic acidosis due to increased CO2
   production, causes tachypnea to blow off excess CO2, resulting in
   discomfort of breathing.
        In order to evaluate the patient
s ascites, an ultrasound-guided
   paracentesis was performed yesterday. The scan showed ~5L of peritoneal
   fluid, of which approximately 1.4L was removed and showed WBC of >2900
   with 92% poly
s (absolute ~2600 polys) and ascitic fluid total protein
   (AFTP) 1.7. The high number of polys (>250) with low AFTP (<2.5)
   suggests SBP. Measurement of the AFTP assists in differentiating SBP
   from secondary bacterial peritonitis, because lowest protein
   concentration correlates with the highest risk of developing SBP. It is
   thought that the low protein concentration correlates with low
   concentrations of opsonins, which decreases the response of innate
   immunity in the peritoneum and thus predisposes to infection (see
   [**Last Name (un) 7710**], Gastrooenterology [**2110**]; and [**Last Name (un) 7710**], Hepatology [**2112**]). We know
   that most cases of SBP are due to gut bacteria (E. coli, Klebsiella)
   and that sometimes even streptococcus and infrequently staphylococcus
   can be the culprit, so treatment with somewhat broad-spectrum
   antibiotics is warranted at least initially. Therefore, our patient was
   started on ceftriaxone 1g IV daily x5 days (day 1=[**2134-5-21**]).
   Furthermore, patients with cirrhosis and SBP frequently have impaired
   renal function, which often results in increased morbidity and
   mortality. By administering IV albumin (which expands plasma volume and
   increases blood flow to the kidneys), one reduces morality rates at
   three months from 41% to 22% (see Sort et [**Doctor Last Name **], NEJM [**2123**]). Therefore,
   our patient was also given albumin 1.5g/kg yesterday and will receive
   an additional 1.0g/kg on day 3 ([**2134-5-23**]). In terms of long-term
   prophylaxis, the patient will require a weekly dose of 750 mg
   ciprofloxacin for the rest of her life, which will decrease the
   incidence of recurrent SBP from 22% to 3.6% (see Rolachon et [**Doctor Last Name **],
   Hepatology [**2119**]).
        The etiology of her ascites is portal hypertension as evidenced by
   her high gradient SAAG (serum albumin - peritoneal fluid albumin =
   3.4-1.1 = 2.3, where high gradient is >1.1, which has 97% accuracy for
   predicting portal hypertension [see [**Last Name (un) 7710**] et [**Doctor Last Name **], Annals of Internal
   Medicine [**2116**]]). Importantly, high vs. low gradient SAAG is not the
   same as transudative/exudative ascites, which refers specifically to
   AFTP concentration (not albumin). In general, top of the differential
   diagnosis for portal hypertension includes cirrhosis, CHF, and
   alcoholic hepatitis. In our patient, cirrhosis is the most likely
   etiology because the vast majority of patients with SBP have portal
   hypertension secondary to cirrhosis. Furthermore, CHF is an unlikely
   cause (even in the setting of her aortic stenosis) because her EF is
   normal at ~60% and she has low AFTP (CHF is associated with high AFTP).
   Lastly, alcoholic hepatitis is unlikely because she denies a history of
   extensive alcohol abuse.
        The etiology of her cirrhosis, on the other hand, is much more
   elusive. The two most common causes in the USA are alcohol and
   Hepatitis C. Again, a lack of history of alcohol abuse and elicit drug
   abuse make these less likely etiologies. Another possibility is
   nonalcoholic steatohepatitis, but only a biopsy can offer a more
   definitive diagnosis. Given her Cr = 3.5, Tbili = 0.7, INR = 1.7, her
   calculated MELD score is 23, which is associated with ~90% survival at
   3 months (see Kamath et [**Doctor Last Name **], Hepatology [**2125**]).
   -          Continue on ceftriaxone 1 g qd for 5 days (day 1 = [**2134-5-21**])
   -          Albumin 1.0g/kg on [**2134-5-23**]
   -          Will consider Cipro 750 mg qweek after ceftriaxone is
   discontinued
   # AORTIC STENOSIS.  The patient has what we believe to be new-onset
   aortic stenosis, with our TTE showing aortic valve area of 0.9cm^2,
   peak gradient ~80 and mean gradient ~50. Given her current infection
   with SBP and lack of severe symptoms related to AS, aggressive
   intervention should be delayed until her infection is cleared.
   Afterwards, she may be evaluated for valvuloplasty (a temporary
   solution) or aortic valve replacement (a more permanent solution). The
   usual indications for AVR surgery include dyspnea on exertion (5 year
   survival from time of diagnosis), angina with exertion (3 year
   survival), or syncope with exertion (1 year survival), or severe LV
   dysfunction from AVR. Given that the running hypothesis is that her
   dyspnea over the past couple of days is due to SBP and the resultant
   tachypnea, she does not have any of these indications for surgery.
   Furthermore, her CHILDS-[**Last Name (un) 7720**] classification (which is used in
   patients with cirrhosis to assess peri-operative risk for mortality) is
 given her ascites and serum albumin of 3.4, which puts her at 31%
   risk for dying if she were to have surgery (see Garrison et [**Doctor Last Name **], Annals
   of Surgery [**2108**]). Therefore, at this time the cons of surgery are
   unlikely to out-weight the pros of a new aortic valve.
   # BRADYCARDIA.  The patient becomes bradycardic during the night to the
   low 40s. We did not get an EKG so we cannot assess fully the rhythm,
   but the outside hospital EKGs suggest junctional rhythm given the lack
   of P waves. This is most likely due to carvedilol
toxicity.
 Given
   that the patient has cirrhosis, she has decreased hepatic metabolism of
   carvedilol, which effectively enhances the doses she receives. Since
   carvedilol is a beta-blocker, she is probably experiencing
   supra-therapeutic effects of the drug that are causing her to become
   bradycardic. We have discontinued her carvedilol and hypothesize that
   her bradycardia should resolve soon. In the future she will need to be
   on a smaller dose, if at all. Given that she also has chronic renal
   failure, switching to a drug that is renally metabolized will probably
   not be a feasible alternative.
   -          hold carvedilol given cirrhosis/ascites
   # ACUTE ON CHRONIC RENAL FAILURE.  The patient most likely has acute on
   chronic renal failure due to ATN from hypotension during her episodes
   of supra-therapeutic drug action. We
   #. CORONARIES:  CAD s/p CABG. Anatomy as listed above. No chest pain
   currently or prior to OSH admission, although this is not necessarily
   reassuring in this female, diabetic patient. By report, cardiac
   biomarkers were negative at outside hospital.
   - Continue aspirin 325mg PO daily
   - Hold beta-blocker given recent bradycardia, hypotension
   - Continue simvastatin 20mg PO daily
   .
   #. PUMP:  Per signout, patient was thought to be fluid overloaded at
   OSH, BNP 741 with anasarca, net fluid balance +300ml yesterday, +500ml
   today prior to transfer. TTE there showed preserved EF 65-70% but new
   finding of severe AS with valve area of 0.7. Patient with hypotension
   requiring initation of dopamine gtt.
   - TTE to evaluate for diastolic dysfunction, severity of AS
   - Hold beta-blocker given recent bradycardia, hypotension. Hold
   hypotension given recent hypotension; unclear if patient needs to be on
   ACE inhibitor as she is not known to have heart failure.
   - Will restart furosemide as renal function improves
   .
   #. Aortic stenosis:  Reported as severe at OSH with valve area 0.7,
   peak gradient 100mgHg. Interestingly, patient has had TTE in past
   (records unavailable at this time) without mention of aortic stenosis.
   Aortic stenosis likely contributes to this patient's dyspnea.
   - TTE to evaluate valve function
   - If severe, consider intervention. Valvuloplasty would be a temporary
   solution. AVR is more permanent, but given cirrhosis, risk of surgery
   may be high.
   .
   # RHYTHM:  Bradycardic to mid-30s at OSH. EKG with junctional rhythm.
   Could this have been in context of decreased clearance of beta-blocker?
   Currently in NSR with rate in 60s. No evidence of AV block. No ischemic
   changes seen in RCA territory to suggest sinus node dysfunction.
   - EP consulted for evaluation for pacemaker placement
   - Hold beta-blocker, calcium-channel blocker
   - Atropine at bedside
   - Monitor on telemetry
   .
   #. Hypotension:  Noted with onset of bradycardia. Transferred on
   dopamine at 5mcg/kg/min. Patient with hypertension at baseline. Appears
   to be cardiogenic in origin given bradycardia; it is unclear whether
   attempt was made to wean patient off of dopamine once bradycardia
   resolved. Given leukocytosis, sepsis is also on differential.
   - Continue to wean dopamine
   - Hold antihypertensives
   - Will cater antibiotics (if needed) based on infectious work-up below
   .
   # h/o liver cirrhosis:  Underlying etiology unknown. Followed by Dr.
   [**First Name (STitle) 2578**] at [**Hospital1 19**]. Previously attributed to steatohepatitis. Complicated by
   portal hypertension, ascites. MELD 24, CHILDS B.
   - Abdominal ultrasound with doppler
   - Ultrasound-guided paracentesis (diagnostic)
   - Liver recs (Dr. [**First Name (STitle) 2578**]
   - Low salt diet, fluid restriction
   .
   #. Leukocytosis:  No clear source of infection. Differential diagnosis
   includes aspiration pneumonia, SBP, UTI. Was given levofloxacin IV at
   OSH given suspicion for aspiration pneumonia.
   - CXR
   - UA
   - Urine culture, blood cultures
   - Diagnostic paracentesis
   .
   #. Acute on chronic renal failure:  Baseline 1.7. Creatinine now 3.3.
   Differential includes ATN secondary to respond hypotensive episode
   (although patient was with renal failure prior to episode yesterday),
   prerenal etiology given poor cardiac output secondary to aortic
   stenosis. [**Month (only) 51**] also be secondary to medications - recently started on
   HCTZ.
   - Urine lytes, UA
   - Close monitoring of urine output
   - Hold diuretics
   .
   #. Diabetes melliitus, type II:
   - Continue Humalog sliding scale per home regimen
   ICU Care
   FEN:  Diabetic, heart healthy, low-salt diet; fluid restriction 1.5L;
   replete lytes as needed
   ACCESS:  PIV x2
   PROPHYLAXIS:  Heparin SC TID; pneumoboots; home PPI; bowel regimen
   CONTACT:  [**Name (NI) 1125**] ([**Name2 (NI) 2685**], HCP), ([**Telephone/Fax (1) 7698**]
   CODE:  FULL CODE. Discussions regarding code status are ongoing.
   DISPO: CCU for now
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DIABETES MELLITUS (DM), TYPE II
 AORTIC STENOSIS
 ASCITES
 KNOWLEDGE DEFICIT
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-5-21**] 09:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2134-05-22 07:17:00 Physician Resident Progress Note
TITLE: SUB-INTERN PROGRESS NOTE
   24 Hour Events:
   - Ultrasound-guided paracentesis (1.4L removed); peritoneal fluid
   consistent with SBP; ceftriaxone 1g IV daily x5 days, albumin 1.5g/kg
   - SAAG = serum albumin - peritoneal fluid albumin = 3.4-1.1 = 2.3,
   consistent with transudate; total protein ascites 1.7 vs. serum 6.5
   - TTE with AS, valve area 0.9cm2; mild LVH with presernved EF;
   PCWP>18mmHg; 2+ MR; mild pulmonary artery systolic hypertension; no
   pericardial effusion
   - UA with blood, mod leuk est, 35 WBC; Foley removed
   - RUQ duplex u/s:  Normal Doppler patency and flow of the hepatic
   veins, portal vein
   - Fe urea nitrogen 27.5%, urine sodium 20; prerenal, does not exclude
   hepatorenal
   - Right shoulder pain x1 week; written for Tylenol, 2g maximum
   Allergies:
   Amoxicillin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Iodine; Iodine Containing
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2134-5-21**] 08:12 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-22**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (98.9
   HR: 51 (44 - 65) bpm
   BP: 113/46(63) {92/21(45) - 125/81(89)} mmHg
   RR: 21 (16 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 61 Inch
                  Total In:
                                                                  1,389 mL
                                                                    165 mL
   PO:
                                                                    240 mL
                  TF:
   IVF:
                                                                     94 mL
   Blood products:
                                                                    235 mL
                                                                    165 mL
   Total out:
                                                                  2,062 mL
                                                                      0 mL
   Urine:
                                                                    347 mL
   NG:
   Stool:
   Drains:
                                                                  1,400 mL
   Balance:
                                                                   -673 mL
                                                                    165 mL
   Respiratory support
   O2 Delivery Device: ROOM AIR
   SpO2: 96%
   Physical Examination
   GENERAL:  Resting comfortably with head of bed elevated 30 degrees.
   Oriented x3.
   SKIN:  Not jaundiced. Mild erythema at nasal bridge, cheeks. No palmar
   erythema. No spider angiomata. No caput.
   HEENT:  NCAT. Sclera anicteric. EOMI. Conjunctiva pale.
   NECK:  Supple. No appreciable JVD (exam limited [**2-1**] body habitus)
   CARDIAC:  RRR, normal S1, quiet S2; III/VI holosystolic murmur loudest
   at LUSB
   LUNGS:  Diffuse expiratory wheezes; no crackles, rhonchi appreciated
   ABDOMEN:  Obese; visible hernia below right breast, periumbilical;
   soft, nontender. Dull to percussion, unable to appreciate fluid wave.
   EXTREMITIES:  No lower extremity edema. Radial, DP pulses 2+.
   Neuro:  No asterixis; CNII-XII intact; EOMI; upper and lower extremity
   strength 5/5 and equal bilaterally.
   Labs / Radiology
   114 K/uL
   8.8 g/dL
   133 mg/dL
   3.5 mg/dL
   16 mEq/L
   4.7 mEq/L
   70 mg/dL
   107 mEq/L
   135 mEq/L
   25.9 %
   9.4 K/uL
        [image002.jpg]
                             [**2134-5-21**]  02:05 PM
                             [**2134-5-22**]  03:26 AM
   WBC
   19.0
   9.4
   Hct
   32.6
   25.9
   Plt
   172
   114
   Cr
   3.3
   3.5
   Glucose
   160
   133
   Other labs: PT / PTT / INR:18.7/33.3/1.7, ALT / AST:[**12-11**], Alk Phos / T
   Bili:54/0.7, Differential-Neuts:91.2 %, Lymph:6.5 %, Mono:2.2 %,
   Eos:0.1 %, Albumin:3.7 g/dL, LDH:141 IU/L, Ca++:8.2 mg/dL, Mg++:2.1
   mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   77F with CAD s/p triple CABG, cirrhosis, DMII, HTN, CRI transferred
   from OSH with new finding of severe AS, bradycardia, hypotension,
   leukocytosis, and ARF on CRI, in the setting of increasing shortness of
   breath and abdominal girth.
   # SBP / ASCITES / CIRRHOSIS.
        The patient
s increasing abdominal girth is due to increasing
   peritoneal ascites. Her shortness of breath was probably caused by the
   accumulation of ascites in two ways: (a) via a restrictive process
   where the pressure of the fluid against her lungs and chest wall
   increases the work of breathing; and (b) via the spontaneous bacterial
   peritonitis (SBP) that is present in the ascites, which increases her
   white count, causes anion-gap metabolic acidosis due to increased CO2
   production, causes tachypnea to blow off excess CO2, resulting in
   discomfort of breathing.
        In order to evaluate the patient
s ascites, an ultrasound-guided
   paracentesis was performed yesterday. The scan showed ~5L of peritoneal
   fluid, of which approximately 1.4L was removed and showed WBC of >2900
   with 92% poly
s (absolute ~2600 polys) and ascitic fluid total protein
   (AFTP) 1.7. The high number of polys (>250) with low AFTP (<2.5)
   suggests SBP. Measurement of the AFTP assists in differentiating SBP
   from secondary bacterial peritonitis, because lowest protein
   concentration correlates with the highest risk of developing SBP. It is
   thought that the low protein concentration correlates with low
   concentrations of opsonins, which decreases the response of innate
   immunity in the peritoneum and thus predisposes to infection (see
   [**Last Name (un) 7710**], Gastrooenterology [**2110**]; and [**Last Name (un) 7710**], Hepatology [**2112**]). We know
   that most cases of SBP are due to gut bacteria (E. coli, Klebsiella)
   and that sometimes even streptococcus and infrequently staphylococcus
   can be the culprit, so treatment with somewhat broad-spectrum
   antibiotics is warranted at least initially. Therefore, our patient was
   started on ceftriaxone 1g IV daily x5 days (day 1=[**2134-5-21**]).
   Furthermore, patients with cirrhosis and SBP frequently have impaired
   renal function, which often results in increased morbidity and
   mortality. By administering IV albumin (which expands plasma volume and
   increases blood flow to the kidneys), one reduces morality rates at
   three months from 41% to 22% (see Sort et [**Doctor Last Name **], NEJM [**2123**]). Therefore,
   our patient was also given albumin 1.5g/kg yesterday and will receive
   an additional 1.0g/kg on day 3 ([**2134-5-23**]). In terms of long-term
   prophylaxis, the patient will require a weekly dose of 750 mg
   ciprofloxacin for the rest of her life, which will decrease the
   incidence of recurrent SBP from 22% to 3.6% (see Rolachon et [**Doctor Last Name **],
   Hepatology [**2119**]).
        The etiology of her ascites is portal hypertension as evidenced by
   her high gradient SAAG (serum albumin - peritoneal fluid albumin =
   3.4-1.1 = 2.3, where high gradient is >1.1, which has 97% accuracy for
   predicting portal hypertension [see [**Last Name (un) 7710**] et [**Doctor Last Name **], Annals of Internal
   Medicine [**2116**]]). Importantly, high vs. low gradient SAAG is not the
   same as transudative/exudative ascites, which refers specifically to
   AFTP concentration (not albumin). In general, top of the differential
   diagnosis for portal hypertension includes cirrhosis, CHF, and
   alcoholic hepatitis. In our patient, cirrhosis is the most likely
   etiology because the vast majority of patients with SBP have portal
   hypertension secondary to cirrhosis. Furthermore, CHF is an unlikely
   cause (even in the setting of her aortic stenosis) because her EF is
   normal at ~60% and she has low AFTP (CHF is associated with high AFTP).
   Lastly, alcoholic hepatitis is unlikely because she denies a history of
   extensive alcohol abuse.
        The etiology of her cirrhosis, on the other hand, is much more
   elusive. The two most common causes in the USA are alcohol and
   Hepatitis C. Again, a lack of history of alcohol abuse and elicit drug
   abuse make these less likely etiologies. Another possibility is
   nonalcoholic steatohepatitis, but only a biopsy can offer a more
   definitive diagnosis. Given her Cr = 3.5, Tbili = 0.7, INR = 1.7, her
   calculated MELD score is 23, which is associated with ~90% survival at
   3 months (see Kamath et [**Doctor Last Name **], Hepatology [**2125**]).
   -          Continue on ceftriaxone 1 g qd for 5 days (day 1 = [**2134-5-21**])
   -          Albumin 1.0g/kg on [**2134-5-23**]
   -          Cipro 750 mg qweek starting after ceftriaxone is
   discontinued
   # AORTIC STENOSIS.  The patient has what we believe to be new-onset
   aortic stenosis, with our TTE showing aortic valve area of 0.9cm^2,
   peak gradient ~80 and mean gradient ~50. Given her current infection
   with SBP and lack of severe symptoms related to AS, aggressive
   intervention should be delayed until her infection is cleared.
   Afterwards, she may be evaluated for valvuloplasty (a temporary
   solution) or aortic valve replacement (a more permanent solution). The
   usual indications for AVR surgery include dyspnea on exertion (5 year
   survival from time of diagnosis), angina with exertion (3 year
   survival), or syncope with exertion (1 year survival), or severe LV
   dysfunction from AVR. Given that the running hypothesis is that her
   dyspnea over the past couple of days is due to SBP and the resultant
   tachypnea, she does not have any of these indications for surgery.
   Furthermore, her CHILDS-[**Last Name (un) 7720**] classification (which is used in
   patients with cirrhosis to assess peri-operative risk for mortality) is
 given her ascites and serum albumin of 3.4, which puts her at 31%
   risk for dying if she were to have surgery (see Garrison et [**Doctor Last Name **], Annals
   of Surgery [**2108**]). Therefore, at this time the cons of surgery are
   unlikely to out-weight the pros of a new aortic valve.
   #. CORONARIES:  CAD s/p CABG. Anatomy as listed above. No chest pain
   currently or prior to OSH admission, although this is not necessarily
   reassuring in this female, diabetic patient. By report, cardiac
   biomarkers were negative at outside hospital.
   - Continue aspirin 325mg PO daily
   - Hold beta-blocker given recent bradycardia, hypotension
   - Continue simvastatin 20mg PO daily
   .
   #. PUMP:  Per signout, patient was thought to be fluid overloaded at
   OSH, BNP 741 with anasarca, net fluid balance +300ml yesterday, +500ml
   today prior to transfer. TTE there showed preserved EF 65-70% but new
   finding of severe AS with valve area of 0.7. Patient with hypotension
   requiring initation of dopamine gtt.
   - TTE to evaluate for diastolic dysfunction, severity of AS
   - Hold beta-blocker given recent bradycardia, hypotension. Hold
   hypotension given recent hypotension; unclear if patient needs to be on
   ACE inhibitor as she is not known to have heart failure.
   - Will restart furosemide as renal function improves
   .
   #. Aortic stenosis:  Reported as severe at OSH with valve area 0.7,
   peak gradient 100mgHg. Interestingly, patient has had TTE in past
   (records unavailable at this time) without mention of aortic stenosis.
   Aortic stenosis likely contributes to this patient's dyspnea.
   - TTE to evaluate valve function
   - If severe, consider intervention. Valvuloplasty would be a temporary
   solution. AVR is more permanent, but given cirrhosis, risk of surgery
   may be high.
   .
   # RHYTHM:  Bradycardic to mid-30s at OSH. EKG with junctional rhythm.
   Could this have been in context of decreased clearance of beta-blocker?
   Currently in NSR with rate in 60s. No evidence of AV block. No ischemic
   changes seen in RCA territory to suggest sinus node dysfunction.
   - EP consulted for evaluation for pacemaker placement
   - Hold beta-blocker, calcium-channel blocker
   - Atropine at bedside
   - Monitor on telemetry
   .
   #. Hypotension:  Noted with onset of bradycardia. Transferred on
   dopamine at 5mcg/kg/min. Patient with hypertension at baseline. Appears
   to be cardiogenic in origin given bradycardia; it is unclear whether
   attempt was made to wean patient off of dopamine once bradycardia
   resolved. Given leukocytosis, sepsis is also on differential.
   - Continue to wean dopamine
   - Hold antihypertensives
   - Will cater antibiotics (if needed) based on infectious work-up below
   .
   # h/o liver cirrhosis:  Underlying etiology unknown. Followed by Dr.
   [**First Name (STitle) 2578**] at [**Hospital1 19**]. Previously attributed to steatohepatitis. Complicated by
   portal hypertension, ascites. MELD 24, CHILDS B.
   - Abdominal ultrasound with doppler
   - Ultrasound-guided paracentesis (diagnostic)
   - Liver recs (Dr. [**First Name (STitle) 2578**]
   - Low salt diet, fluid restriction
   .
   #. Leukocytosis:  No clear source of infection. Differential diagnosis
   includes aspiration pneumonia, SBP, UTI. Was given levofloxacin IV at
   OSH given suspicion for aspiration pneumonia.
   - CXR
   - UA
   - Urine culture, blood cultures
   - Diagnostic paracentesis
   .
   #. Acute on chronic renal failure:  Baseline 1.7. Creatinine now 3.3.
   Differential includes ATN secondary to respond hypotensive episode
   (although patient was with renal failure prior to episode yesterday),
   prerenal etiology given poor cardiac output secondary to aortic
   stenosis. [**Month (only) 51**] also be secondary to medications - recently started on
   HCTZ.
   - Urine lytes, UA
   - Close monitoring of urine output
   - Hold diuretics
   .
   #. Diabetes melliitus, type II:
   - Continue Humalog sliding scale per home regimen
   ICU Care
   FEN:  Diabetic, heart healthy, low-salt diet; fluid restriction 1.5L;
   replete lytes as needed
   ACCESS:  PIV x2
   PROPHYLAXIS:  Heparin SC TID; pneumoboots; home PPI; bowel regimen
   CONTACT:  [**Name (NI) 1125**] ([**Name2 (NI) 2685**], HCP), ([**Telephone/Fax (1) 7698**]
   CODE:  FULL CODE. Discussions regarding code status are ongoing.
   DISPO: CCU for now
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DIABETES MELLITUS (DM), TYPE II
 AORTIC STENOSIS
 ASCITES
 KNOWLEDGE DEFICIT
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-5-21**] 09:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2134-05-22 07:17:00 Physician Resident Progress Note
TITLE: SUB-INTERN PROGRESS NOTE
   24 Hour Events:
   - Ultrasound-guided paracentesis (1.4L removed); peritoneal fluid
   consistent with SBP; ceftriaxone 1g IV daily x5 days, albumin 1.5g/kg
   - SAAG = serum albumin - peritoneal fluid albumin = 3.4-1.1 = 2.3,
   consistent with transudate; total protein ascites 1.7 vs. serum 6.5
   - TTE with AS, valve area 0.9cm2; mild LVH with presernved EF;
   PCWP>18mmHg; 2+ MR; mild pulmonary artery systolic hypertension; no
   pericardial effusion
   - UA with blood, mod leuk est, 35 WBC; Foley removed
   - RUQ duplex u/s:  Normal Doppler patency and flow of the hepatic
   veins, portal vein
   - Fe urea nitrogen 27.5%, urine sodium 20; prerenal, does not exclude
   hepatorenal
   - Right shoulder pain x1 week; written for Tylenol, 2g maximum
   Allergies:
   Amoxicillin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Iodine; Iodine Containing
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2134-5-21**] 08:12 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-22**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (98.9
   HR: 51 (44 - 65) bpm
   BP: 113/46(63) {92/21(45) - 125/81(89)} mmHg
   RR: 21 (16 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 61 Inch
                  Total In:
                                                                  1,389 mL
                                                                    165 mL
   PO:
                                                                    240 mL
                  TF:
   IVF:
                                                                     94 mL
   Blood products:
                                                                    235 mL
                                                                    165 mL
   Total out:
                                                                  2,062 mL
                                                                      0 mL
   Urine:
                                                                    347 mL
   NG:
   Stool:
   Drains:
                                                                  1,400 mL
   Balance:
                                                                   -673 mL
                                                                    165 mL
   Respiratory support
   O2 Delivery Device: ROOM AIR
   SpO2: 96%
   Physical Examination
   GENERAL:  Resting comfortably with head of bed elevated 30 degrees.
   Oriented x3.
   SKIN:  Not jaundiced. Mild erythema at nasal bridge, cheeks. No palmar
   erythema. No spider angiomata. No caput.
   HEENT:  NCAT. Sclera anicteric. EOMI. Conjunctiva pale.
   NECK:  Supple. No appreciable JVD (exam limited [**2-1**] body habitus)
   CARDIAC:  RRR, normal S1, quiet S2; III/VI holosystolic murmur loudest
   at LUSB
   LUNGS:  Diffuse expiratory wheezes; no crackles, rhonchi appreciated
   ABDOMEN:  Obese; visible hernia below right breast, periumbilical;
   soft, nontender. Dull to percussion, unable to appreciate fluid wave.
   EXTREMITIES:  No lower extremity edema. Radial, DP pulses 2+.
   Neuro:  No asterixis; CNII-XII intact; EOMI; upper and lower extremity
   strength 5/5 and equal bilaterally.
   Labs / Radiology
   114 K/uL
   8.8 g/dL
   133 mg/dL
   3.5 mg/dL
   16 mEq/L
   4.7 mEq/L
   70 mg/dL
   107 mEq/L
   135 mEq/L
   25.9 %
   9.4 K/uL
        [image002.jpg]
                             [**2134-5-21**]  02:05 PM
                             [**2134-5-22**]  03:26 AM
   WBC
   19.0
   9.4
   Hct
   32.6
   25.9
   Plt
   172
   114
   Cr
   3.3
   3.5
   Glucose
   160
   133
   Other labs: PT / PTT / INR:18.7/33.3/1.7, ALT / AST:[**12-11**], Alk Phos / T
   Bili:54/0.7, Differential-Neuts:91.2 %, Lymph:6.5 %, Mono:2.2 %,
   Eos:0.1 %, Albumin:3.7 g/dL, LDH:141 IU/L, Ca++:8.2 mg/dL, Mg++:2.1
   mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   77F with CAD s/p triple CABG, cirrhosis, DMII, HTN, CRI transferred
   from OSH with new finding of severe AS, bradycardia, hypotension,
   leukocytosis, and ARF on CRI, in the setting of increasing shortness of
   breath and abdominal girth.
   # ASCITES. The patient
s increasing abdominal girth is due to
   increasing peritoneal ascites. Her shortness of breath was probably
   related to the ascites in two ways: (a) via a restrictive process where
   it is harder for her to inhale due to the pressure against her lungs
   and chest wall; and (b) via SBP, which increases her white count,
   causing anion-gap metabolic acidosis due to increased CO2 production,
   causing tachypnea to blow off excess CO2, causing discomfort of
   breathing.
   Yesterday
s ultrasound-guided paracentesis showed ~5L of ascites.
   Approximately 1.4L of peritoneal fluid was removed and showed WBC of
   >2900 with 92% poly
s, which suggests peritonitis.
   Measurement of the ascetic fluid total protein concentration assists in
   differentiating SBP from secondary bacterial peritonitis, where lowest
   protein concentration correlates with a highest risk of developing SBP
   because of low concentrations of opsonins.
   most consistent with spontaneous bacterial peritonitis (SBP).
   The patient was started on ceftriaxone 1g IV daily x5 days (day
   1=[**2134-5-21**]) and albumin 1.5g/kg. She will need albumin 1.0g/kg on day 3
   ([**2134-5-23**]). Afterwards, she will need to regular cipro for the rest of
   her life to prevent recurrence.
   The etiology of her ascites is portal hypertension as evidenced by her
   high gradient SAAG (serum albumin - peritoneal fluid albumin = 3.4-1.1
   = 2.3, where high gradient is >1.1, which has 97% accuracy for
   predicting portal hypertension [see [**Last Name (un) 7710**] et [**Doctor Last Name **]. in Annals of Internal
   Medicine [**2116**]]). In general, top of the differential diagnosis for
   portal hypertension includes cirrhosis, CHF, and alcoholic hepatitis.
   Because the vast majority of patients with SBP have portal hypertension
   secondary to cirrhosis, it is most likely that cirrhosis is the cause
   in our patient.
    AFTP of most spontaneously infected ascites is usually low,
   The vast majority of patients with SBP have portal hypertension
   secondary to cirrhosis. Patients with a serum-ascites albumin gradient
   below 1.1 g/dL (ie, without portal hypertension) rarely develop SBP.
   Measurement of the ascitic fluid total protein concentration assists in
   separating SBP from secondary bacterial peritonitis ([1]see
   "Distinction of spontaneous from secondary bacterial peritonitis"
   below). It correlates inversely with the risk of developing SBP
   [[2]15]. Patients with the most dilute ascites (ie, protein
   concentration less than 1 gm/dL) have the lowest concentration of
   opsonins in the ascitic fluid and are at the highest risk for SBP (
   Low-protein-concentration ascitic fluid is predisposed to spontaneous
   bacterial peritonitis.
   [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) 7710**] BA
   SO
   Gastroenterology [**2110**] [**Month (only) **];91(6):1343-6.
   TI
   Patients with deficient ascitic fluid opsonic activity are predisposed
   to spontaneous bacterial peritonitis.
   [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) 7710**] BA
   SO
   Hepatology [**2112**] [**Month (only) 51**]-[**Month (only) **];8(3):632-5.
   )
   Please note that high vs. low gradient SAAG is not the same as
   transudative/exudative ascites, which refers specifically to ascetic
   fluid total protein concentration, not just the albumin.
   consistent with transudate; total protein ascites 1.7 vs. serum 6.5
   77F with CAD s/p triple CABG, cirrhosis, DMII, HTN, CRI transferred
   from OSH with new finding of severe AS and recent episodes of
   bradycardia, hypotension. History also significant for leukocytosis,
   acute on chronic renal failure.
   .
   #. CORONARIES:  CAD s/p CABG. Anatomy as listed above. No chest pain
   currently or prior to OSH admission, although this is not necessarily
   reassuring in this female, diabetic patient. By report, cardiac
   biomarkers were negative at outside hospital.
   - Continue aspirin 325mg PO daily
   - Hold beta-blocker given recent bradycardia, hypotension
   - Continue simvastatin 20mg PO daily
   .
   #. PUMP:  Per signout, patient was thought to be fluid overloaded at
   OSH, BNP 741 with anasarca, net fluid balance +300ml yesterday, +500ml
   today prior to transfer. TTE there showed preserved EF 65-70% but new
   finding of severe AS with valve area of 0.7. Patient with hypotension
   requiring initation of dopamine gtt.
   - TTE to evaluate for diastolic dysfunction, severity of AS
   - Hold beta-blocker given recent bradycardia, hypotension. Hold
   hypotension given recent hypotension; unclear if patient needs to be on
   ACE inhibitor as she is not known to have heart failure.
   - Will restart furosemide as renal function improves
   .
   #. Aortic stenosis:  Reported as severe at OSH with valve area 0.7,
   peak gradient 100mgHg. Interestingly, patient has had TTE in past
   (records unavailable at this time) without mention of aortic stenosis.
   Aortic stenosis likely contributes to this patient's dyspnea.
   - TTE to evaluate valve function
   - If severe, consider intervention. Valvuloplasty would be a temporary
   solution. AVR is more permanent, but given cirrhosis, risk of surgery
   may be high.
   .
   # RHYTHM:  Bradycardic to mid-30s at OSH. EKG with junctional rhythm.
   Could this have been in context of decreased clearance of beta-blocker?
   Currently in NSR with rate in 60s. No evidence of AV block. No ischemic
   changes seen in RCA territory to suggest sinus node dysfunction.
   - EP consulted for evaluation for pacemaker placement
   - Hold beta-blocker, calcium-channel blocker
   - Atropine at bedside
   - Monitor on telemetry
   .
   #. Hypotension:  Noted with onset of bradycardia. Transferred on
   dopamine at 5mcg/kg/min. Patient with hypertension at baseline. Appears
   to be cardiogenic in origin given bradycardia; it is unclear whether
   attempt was made to wean patient off of dopamine once bradycardia
   resolved. Given leukocytosis, sepsis is also on differential.
   - Continue to wean dopamine
   - Hold antihypertensives
   - Will cater antibiotics (if needed) based on infectious work-up below
   .
   # h/o liver cirrhosis:  Underlying etiology unknown. Followed by Dr.
   [**First Name (STitle) 2578**] at [**Hospital1 19**]. Previously attributed to steatohepatitis. Complicated by
   portal hypertension, ascites. MELD 24, CHILDS B.
   - Abdominal ultrasound with doppler
   - Ultrasound-guided paracentesis (diagnostic)
   - Liver recs (Dr. [**First Name (STitle) 2578**]
   - Low salt diet, fluid restriction
   .
   #. Leukocytosis:  No clear source of infection. Differential diagnosis
   includes aspiration pneumonia, SBP, UTI. Was given levofloxacin IV at
   OSH given suspicion for aspiration pneumonia.
   - CXR
   - UA
   - Urine culture, blood cultures
   - Diagnostic paracentesis
   .
   #. Acute on chronic renal failure:  Baseline 1.7. Creatinine now 3.3.
   Differential includes ATN secondary to respond hypotensive episode
   (although patient was with renal failure prior to episode yesterday),
   prerenal etiology given poor cardiac output secondary to aortic
   stenosis. [**Month (only) 51**] also be secondary to medications - recently started on
   HCTZ.
   - Urine lytes, UA
   - Close monitoring of urine output
   - Hold diuretics
   .
   #. Diabetes melliitus, type II:
   - Continue Humalog sliding scale per home regimen
   ICU Care
   FEN:  Diabetic, heart healthy, low-salt diet; fluid restriction 1.5L;
   replete lytes as needed
   ACCESS:  PIV x2
   PROPHYLAXIS:  Heparin SC TID; pneumoboots; home PPI; bowel regimen
   CONTACT:  [**Name (NI) 1125**] ([**Name2 (NI) 2685**], HCP), ([**Telephone/Fax (1) 7698**]
   CODE:  FULL CODE. Discussions regarding code status are ongoing.
   DISPO: CCU for now
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DIABETES MELLITUS (DM), TYPE II
 AORTIC STENOSIS
 ASCITES
 KNOWLEDGE DEFICIT
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-5-21**] 09:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
References
   1. [**URL 7713**]
   2. [**URL 7713**]

2134-05-22 07:17:00 Physician Resident Progress Note
TITLE: SUB-INTERN PROGRESS NOTE
   24 Hour Events:
   - Ultrasound-guided paracentesis (1.4L removed); peritoneal fluid
   consistent with SBP; ceftriaxone 1g IV daily x5 days, albumin 1.5g/kg
   - SAAG = serum albumin - peritoneal fluid albumin = 3.4-1.1 = 2.3,
   consistent with transudate; total protein ascites 1.7 vs. serum 6.5
   - TTE with AS, valve area 0.9cm2; mild LVH with presernved EF;
   PCWP>18mmHg; 2+ MR; mild pulmonary artery systolic hypertension; no
   pericardial effusion
   - UA with blood, mod leuk est, 35 WBC; Foley removed
   - RUQ duplex u/s:  Normal Doppler patency and flow of the hepatic
   veins, portal vein
   - Fe urea nitrogen 27.5%, urine sodium 20; prerenal, does not exclude
   hepatorenal
   - Right shoulder pain x1 week; written for Tylenol, 2g maximum
   Allergies:
   Amoxicillin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Iodine; Iodine Containing
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2134-5-21**] 08:12 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-22**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (98.9
   HR: 51 (44 - 65) bpm
   BP: 113/46(63) {92/21(45) - 125/81(89)} mmHg
   RR: 21 (16 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 61 Inch
                  Total In:
                                                                  1,389 mL
                                                                    165 mL
   PO:
                                                                    240 mL
                  TF:
   IVF:
                                                                     94 mL
   Blood products:
                                                                    235 mL
                                                                    165 mL
   Total out:
                                                                  2,062 mL
                                                                      0 mL
   Urine:
                                                                    347 mL
   NG:
   Stool:
   Drains:
                                                                  1,400 mL
   Balance:
                                                                   -673 mL
                                                                    165 mL
   Respiratory support
   O2 Delivery Device: ROOM AIR
   SpO2: 96%
   Physical Examination
   GENERAL:  Resting comfortably with head of bed elevated 30 degrees.
   Oriented x3.
   SKIN:  Not jaundiced. Mild erythema at nasal bridge, cheeks. No palmar
   erythema. No spider angiomata. No caput.
   HEENT:  NCAT. Sclera anicteric. EOMI. Conjunctiva pale.
   NECK:  Supple. No appreciable JVD (exam limited [**2-1**] body habitus)
   CARDIAC:  RRR, normal S1, quiet S2; III/VI holosystolic murmur loudest
   at LUSB
   LUNGS:  Diffuse expiratory wheezes; no crackles, rhonchi appreciated
   ABDOMEN:  Obese; visible hernia below right breast, periumbilical;
   soft, nontender. Dull to percussion, unable to appreciate fluid wave.
   EXTREMITIES:  No lower extremity edema. Radial, DP pulses 2+.
   Neuro:  No asterixis; CNII-XII intact; EOMI; upper and lower extremity
   strength 5/5 and equal bilaterally.
   Labs / Radiology
   114 K/uL
   8.8 g/dL
   133 mg/dL
   3.5 mg/dL
   16 mEq/L
   4.7 mEq/L
   70 mg/dL
   107 mEq/L
   135 mEq/L
   25.9 %
   9.4 K/uL
        [image002.jpg]
                             [**2134-5-21**]  02:05 PM
                             [**2134-5-22**]  03:26 AM
   WBC
   19.0
   9.4
   Hct
   32.6
   25.9
   Plt
   172
   114
   Cr
   3.3
   3.5
   Glucose
   160
   133
   Other labs: PT / PTT / INR:18.7/33.3/1.7, ALT / AST:[**12-11**], Alk Phos / T
   Bili:54/0.7, Differential-Neuts:91.2 %, Lymph:6.5 %, Mono:2.2 %,
   Eos:0.1 %, Albumin:3.7 g/dL, LDH:141 IU/L, Ca++:8.2 mg/dL, Mg++:2.1
   mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   77F with CAD s/p triple CABG, cirrhosis, DMII, HTN, CRI transferred
   from OSH with new finding of severe AS, bradycardia, hypotension,
   leukocytosis, and ARF on CRI, in the setting of increasing shortness of
   breath and abdominal girth.
   # ASCITES. The patient
s increasing abdominal girth is due to
   increasing peritoneal ascites. Her shortness of breath was probably
   related to the ascites in two ways: (a) via a restrictive process where
   it is harder for her to inhale due to the pressure against her lungs
   and chest wall; and (b) via SBP, which increases her white count,
   causing anion-gap metabolic acidosis due to increased CO2 production,
   causing tachypnea to blow off excess CO2, causing discomfort of
   breathing.
   Yesterday
s ultrasound-guided paracentesis showed ~5L of ascites.
   Approximately 1.4L of peritoneal fluid was removed and showed WBC of
   >2900 with 92% poly
s, most consistent with spontaneous bacterial
   peritonitis (SBP). The patient was started on ceftriaxone 1g IV daily
   x5 days (day 1=[**2134-5-21**]) and albumin 1.5g/kg. She will need albumin
   1.0g/kg on day 3 ([**2134-5-23**]). Afterwards, she will need to regular cipro
   for the rest of her life to prevent recurrence.
   The etiology of her ascites is portal hypertension as evidenced by her
   high gradient SAAG (serum albumin - peritoneal fluid albumin = 3.4-1.1
   = 2.3, where high gradient is >1.1, which has 97% accuracy for
   predicting portal hypertension [see [**Last Name (un) 7710**] et [**Doctor Last Name **]. in Annals of Internal
   Medicine [**2116**]]). Top of the differential diagnosis for portal
   hypertension includes cirrhosis, CHF, and alcoholic hepatitis. Because
   our patient has SBP,
    AFTP of most spontaneously infected ascites is usually low,
   The vast majority of patients with SBP have portal hypertension
   secondary to cirrhosis. Patients with a serum-ascites albumin gradient
   below 1.1 g/dL (ie, without portal hypertension) rarely develop SBP.
   Measurement of the ascitic fluid total protein concentration assists in
   separating SBP from secondary bacterial peritonitis ([1]see
   "Distinction of spontaneous from secondary bacterial peritonitis"
   below). It correlates inversely with the risk of developing SBP
   [[2]15]. Patients with the most dilute ascites (ie, protein
   concentration less than 1 gm/dL) have the lowest concentration of
   opsonins in the ascitic fluid and are at the highest risk for SBP (
   Low-protein-concentration ascitic fluid is predisposed to spontaneous
   bacterial peritonitis.
   [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) 7710**] BA
   SO
   Gastroenterology [**2110**] [**Month (only) **];91(6):1343-6.
   TI
   Patients with deficient ascitic fluid opsonic activity are predisposed
   to spontaneous bacterial peritonitis.
   [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) 7710**] BA
   SO
   Hepatology [**2112**] [**Month (only) 51**]-[**Month (only) **];8(3):632-5.
   )
   Please note that high vs. low gradient SAAG is not the same as
   transudative/exudative ascites, which refers specifically to ascetic
   fluid total protein concentration, not just the albumin.
   consistent with transudate; total protein ascites 1.7 vs. serum 6.5
   77F with CAD s/p triple CABG, cirrhosis, DMII, HTN, CRI transferred
   from OSH with new finding of severe AS and recent episodes of
   bradycardia, hypotension. History also significant for leukocytosis,
   acute on chronic renal failure.
   .
   #. CORONARIES:  CAD s/p CABG. Anatomy as listed above. No chest pain
   currently or prior to OSH admission, although this is not necessarily
   reassuring in this female, diabetic patient. By report, cardiac
   biomarkers were negative at outside hospital.
   - Continue aspirin 325mg PO daily
   - Hold beta-blocker given recent bradycardia, hypotension
   - Continue simvastatin 20mg PO daily
   .
   #. PUMP:  Per signout, patient was thought to be fluid overloaded at
   OSH, BNP 741 with anasarca, net fluid balance +300ml yesterday, +500ml
   today prior to transfer. TTE there showed preserved EF 65-70% but new
   finding of severe AS with valve area of 0.7. Patient with hypotension
   requiring initation of dopamine gtt.
   - TTE to evaluate for diastolic dysfunction, severity of AS
   - Hold beta-blocker given recent bradycardia, hypotension. Hold
   hypotension given recent hypotension; unclear if patient needs to be on
   ACE inhibitor as she is not known to have heart failure.
   - Will restart furosemide as renal function improves
   .
   #. Aortic stenosis:  Reported as severe at OSH with valve area 0.7,
   peak gradient 100mgHg. Interestingly, patient has had TTE in past
   (records unavailable at this time) without mention of aortic stenosis.
   Aortic stenosis likely contributes to this patient's dyspnea.
   - TTE to evaluate valve function
   - If severe, consider intervention. Valvuloplasty would be a temporary
   solution. AVR is more permanent, but given cirrhosis, risk of surgery
   may be high.
   .
   # RHYTHM:  Bradycardic to mid-30s at OSH. EKG with junctional rhythm.
   Could this have been in context of decreased clearance of beta-blocker?
   Currently in NSR with rate in 60s. No evidence of AV block. No ischemic
   changes seen in RCA territory to suggest sinus node dysfunction.
   - EP consulted for evaluation for pacemaker placement
   - Hold beta-blocker, calcium-channel blocker
   - Atropine at bedside
   - Monitor on telemetry
   .
   #. Hypotension:  Noted with onset of bradycardia. Transferred on
   dopamine at 5mcg/kg/min. Patient with hypertension at baseline. Appears
   to be cardiogenic in origin given bradycardia; it is unclear whether
   attempt was made to wean patient off of dopamine once bradycardia
   resolved. Given leukocytosis, sepsis is also on differential.
   - Continue to wean dopamine
   - Hold antihypertensives
   - Will cater antibiotics (if needed) based on infectious work-up below
   .
   # h/o liver cirrhosis:  Underlying etiology unknown. Followed by Dr.
   [**First Name (STitle) 2578**] at [**Hospital1 19**]. Previously attributed to steatohepatitis. Complicated by
   portal hypertension, ascites. MELD 24, CHILDS B.
   - Abdominal ultrasound with doppler
   - Ultrasound-guided paracentesis (diagnostic)
   - Liver recs (Dr. [**First Name (STitle) 2578**]
   - Low salt diet, fluid restriction
   .
   #. Leukocytosis:  No clear source of infection. Differential diagnosis
   includes aspiration pneumonia, SBP, UTI. Was given levofloxacin IV at
   OSH given suspicion for aspiration pneumonia.
   - CXR
   - UA
   - Urine culture, blood cultures
   - Diagnostic paracentesis
   .
   #. Acute on chronic renal failure:  Baseline 1.7. Creatinine now 3.3.
   Differential includes ATN secondary to respond hypotensive episode
   (although patient was with renal failure prior to episode yesterday),
   prerenal etiology given poor cardiac output secondary to aortic
   stenosis. [**Month (only) 51**] also be secondary to medications - recently started on
   HCTZ.
   - Urine lytes, UA
   - Close monitoring of urine output
   - Hold diuretics
   .
   #. Diabetes melliitus, type II:
   - Continue Humalog sliding scale per home regimen
   ICU Care
   FEN:  Diabetic, heart healthy, low-salt diet; fluid restriction 1.5L;
   replete lytes as needed
   ACCESS:  PIV x2
   PROPHYLAXIS:  Heparin SC TID; pneumoboots; home PPI; bowel regimen
   CONTACT:  [**Name (NI) 1125**] ([**Name2 (NI) 2685**], HCP), ([**Telephone/Fax (1) 7698**]
   CODE:  FULL CODE. Discussions regarding code status are ongoing.
   DISPO: CCU for now
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DIABETES MELLITUS (DM), TYPE II
 AORTIC STENOSIS
 ASCITES
 KNOWLEDGE DEFICIT
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-5-21**] 09:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
References
   1. [**URL 7713**]
   2. [**URL 7713**]

2134-05-22 07:17:00 Physician Resident Progress Note
TITLE: SUB-INTERN PROGRESS NOTE
   24 Hour Events:
   - Ultrasound-guided paracentesis (1.4L removed); peritoneal fluid
   consistent with SBP; ceftriaxone 1g IV daily x5 days, albumin 1.5g/kg
   - SAAG = serum albumin - peritoneal fluid albumin = 3.4-1.1 = 2.3,
   consistent with transudate; total protein ascites 1.7 vs. serum 6.5
   - TTE with AS, valve area 0.9cm2; mild LVH with presernved EF;
   PCWP>18mmHg; 2+ MR; mild pulmonary artery systolic hypertension; no
   pericardial effusion
   - UA with blood, mod leuk est, 35 WBC; Foley removed
   - RUQ duplex u/s:  Normal Doppler patency and flow of the hepatic
   veins, portal vein
   - Fe urea nitrogen 27.5%, urine sodium 20; prerenal, does not exclude
   hepatorenal
   - Right shoulder pain x1 week; written for Tylenol, 2g maximum
   Allergies:
   Amoxicillin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Iodine; Iodine Containing
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2134-5-21**] 08:12 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-22**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (98.9
   HR: 51 (44 - 65) bpm
   BP: 113/46(63) {92/21(45) - 125/81(89)} mmHg
   RR: 21 (16 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 61 Inch
                  Total In:
                                                                  1,389 mL
                                                                    165 mL
   PO:
                                                                    240 mL
                  TF:
   IVF:
                                                                     94 mL
   Blood products:
                                                                    235 mL
                                                                    165 mL
   Total out:
                                                                  2,062 mL
                                                                      0 mL
   Urine:
                                                                    347 mL
   NG:
   Stool:
   Drains:
                                                                  1,400 mL
   Balance:
                                                                   -673 mL
                                                                    165 mL
   Respiratory support
   O2 Delivery Device: ROOM AIR
   SpO2: 96%
   Physical Examination
   GENERAL:  Resting comfortably with head of bed elevated 30 degrees.
   Oriented x3.
   SKIN:  Not jaundiced. Mild erythema at nasal bridge, cheeks. No palmar
   erythema. No spider angiomata. No caput.
   HEENT:  NCAT. Sclera anicteric. EOMI. Conjunctiva pale.
   NECK:  Supple. No appreciable JVD (exam limited [**2-1**] body habitus)
   CARDIAC:  RRR, normal S1, quiet S2; III/VI holosystolic murmur loudest
   at LUSB
   LUNGS:  Diffuse expiratory wheezes; no crackles, rhonchi appreciated
   ABDOMEN:  Obese; visible hernia below right breast, periumbilical;
   soft, nontender. Dull to percussion, unable to appreciate fluid wave.
   EXTREMITIES:  No lower extremity edema. Radial, DP pulses 2+.
   Neuro:  No asterixis; CNII-XII intact; EOMI; upper and lower extremity
   strength 5/5 and equal bilaterally.
   Labs / Radiology
   114 K/uL
   8.8 g/dL
   133 mg/dL
   3.5 mg/dL
   16 mEq/L
   4.7 mEq/L
   70 mg/dL
   107 mEq/L
   135 mEq/L
   25.9 %
   9.4 K/uL
        [image002.jpg]
                             [**2134-5-21**]  02:05 PM
                             [**2134-5-22**]  03:26 AM
   WBC
   19.0
   9.4
   Hct
   32.6
   25.9
   Plt
   172
   114
   Cr
   3.3
   3.5
   Glucose
   160
   133
   Other labs: PT / PTT / INR:18.7/33.3/1.7, ALT / AST:[**12-11**], Alk Phos / T
   Bili:54/0.7, Differential-Neuts:91.2 %, Lymph:6.5 %, Mono:2.2 %,
   Eos:0.1 %, Albumin:3.7 g/dL, LDH:141 IU/L, Ca++:8.2 mg/dL, Mg++:2.1
   mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   77F with CAD s/p triple CABG, cirrhosis, DMII, HTN, CRI transferred
   from OSH with new finding of severe AS, bradycardia, hypotension,
   leukocytosis, and ARF on CRI, in the setting of increasing shortness of
   breath and abdominal girth.
   # ASCITES. The patient
s increasing abdominal girth was due to ascites.
   Her shortness of breath was probably related to the ascites in two
   ways: (a) via a restrictive process where it is harder for her to
   inhale due to the pressure against her lungs and chest wall; and (b)
   via SBP, which increases her white count, causing anion-gap metabolic
   acidosis due to increased CO2 production, causing tachypnea to blow off
   excess CO2, causing discomfort of breathing.
   Yesterday
s ultrasound-guided paracentesis showed ~5L of ascites.
   Approximately 1.4L of peritoneal fluid was removed and showed WBC of
   >2900 with 92% poly
s, most consistent with spontaneous bacterial
   peritonitis (SBP). The patient was started on ceftriaxone 1g IV daily
   x5 days (day 1=[**2134-5-21**]) and albumin 1.5g/kg. She will need albumin
   1.0g/kg on day 3 ([**2134-5-23**]). Afterwards, she will need to regular cipro
   for the rest of her life to prevent recurrence.
   The patient
s SAAG = serum albumin - peritoneal fluid albumin = 3.4-1.1
   = 2.3 (high gradient SAAG is >1.1), which has 97% accuracy for
   predicting portal hypertension (see [**Last Name (un) 7710**] et [**Doctor Last Name **]. in Annals of Internal
   Medicine [**2116**]). Top of the differential diagnosis for portal
   hypertension includes cirrhosis, CHF, and alcoholic hepatitis. Because
   our patient has SBP,
    AFTP of most spontaneously infected ascites is usually low,
   The vast majority of patients with SBP have portal hypertension
   secondary to cirrhosis. Patients with a serum-ascites albumin gradient
   below 1.1 g/dL (ie, without portal hypertension) rarely develop SBP.
   Measurement of the ascitic fluid total protein concentration assists in
   separating SBP from secondary bacterial peritonitis ([1]see
   "Distinction of spontaneous from secondary bacterial peritonitis"
   below). It correlates inversely with the risk of developing SBP
   [[2]15]. Patients with the most dilute ascites (ie, protein
   concentration less than 1 gm/dL) have the lowest concentration of
   opsonins in the ascitic fluid and are at the highest risk for SBP (
   Low-protein-concentration ascitic fluid is predisposed to spontaneous
   bacterial peritonitis.
   [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) 7710**] BA
   SO
   Gastroenterology [**2110**] [**Month (only) **];91(6):1343-6.
   TI
   Patients with deficient ascitic fluid opsonic activity are predisposed
   to spontaneous bacterial peritonitis.
   [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) 7710**] BA
   SO
   Hepatology [**2112**] [**Month (only) 51**]-[**Month (only) **];8(3):632-5.
   )
   Please note that high vs. low gradient SAAG is not the same as
   transudative/exudative ascites, which refers specifically to ascetic
   fluid total protein concentration, not just the albumin.
   consistent with transudate; total protein ascites 1.7 vs. serum 6.5
   77F with CAD s/p triple CABG, cirrhosis, DMII, HTN, CRI transferred
   from OSH with new finding of severe AS and recent episodes of
   bradycardia, hypotension. History also significant for leukocytosis,
   acute on chronic renal failure.
   .
   #. CORONARIES:  CAD s/p CABG. Anatomy as listed above. No chest pain
   currently or prior to OSH admission, although this is not necessarily
   reassuring in this female, diabetic patient. By report, cardiac
   biomarkers were negative at outside hospital.
   - Continue aspirin 325mg PO daily
   - Hold beta-blocker given recent bradycardia, hypotension
   - Continue simvastatin 20mg PO daily
   .
   #. PUMP:  Per signout, patient was thought to be fluid overloaded at
   OSH, BNP 741 with anasarca, net fluid balance +300ml yesterday, +500ml
   today prior to transfer. TTE there showed preserved EF 65-70% but new
   finding of severe AS with valve area of 0.7. Patient with hypotension
   requiring initation of dopamine gtt.
   - TTE to evaluate for diastolic dysfunction, severity of AS
   - Hold beta-blocker given recent bradycardia, hypotension. Hold
   hypotension given recent hypotension; unclear if patient needs to be on
   ACE inhibitor as she is not known to have heart failure.
   - Will restart furosemide as renal function improves
   .
   #. Aortic stenosis:  Reported as severe at OSH with valve area 0.7,
   peak gradient 100mgHg. Interestingly, patient has had TTE in past
   (records unavailable at this time) without mention of aortic stenosis.
   Aortic stenosis likely contributes to this patient's dyspnea.
   - TTE to evaluate valve function
   - If severe, consider intervention. Valvuloplasty would be a temporary
   solution. AVR is more permanent, but given cirrhosis, risk of surgery
   may be high.
   .
   # RHYTHM:  Bradycardic to mid-30s at OSH. EKG with junctional rhythm.
   Could this have been in context of decreased clearance of beta-blocker?
   Currently in NSR with rate in 60s. No evidence of AV block. No ischemic
   changes seen in RCA territory to suggest sinus node dysfunction.
   - EP consulted for evaluation for pacemaker placement
   - Hold beta-blocker, calcium-channel blocker
   - Atropine at bedside
   - Monitor on telemetry
   .
   #. Hypotension:  Noted with onset of bradycardia. Transferred on
   dopamine at 5mcg/kg/min. Patient with hypertension at baseline. Appears
   to be cardiogenic in origin given bradycardia; it is unclear whether
   attempt was made to wean patient off of dopamine once bradycardia
   resolved. Given leukocytosis, sepsis is also on differential.
   - Continue to wean dopamine
   - Hold antihypertensives
   - Will cater antibiotics (if needed) based on infectious work-up below
   .
   # h/o liver cirrhosis:  Underlying etiology unknown. Followed by Dr.
   [**First Name (STitle) 2578**] at [**Hospital1 19**]. Previously attributed to steatohepatitis. Complicated by
   portal hypertension, ascites. MELD 24, CHILDS B.
   - Abdominal ultrasound with doppler
   - Ultrasound-guided paracentesis (diagnostic)
   - Liver recs (Dr. [**First Name (STitle) 2578**]
   - Low salt diet, fluid restriction
   .
   #. Leukocytosis:  No clear source of infection. Differential diagnosis
   includes aspiration pneumonia, SBP, UTI. Was given levofloxacin IV at
   OSH given suspicion for aspiration pneumonia.
   - CXR
   - UA
   - Urine culture, blood cultures
   - Diagnostic paracentesis
   .
   #. Acute on chronic renal failure:  Baseline 1.7. Creatinine now 3.3.
   Differential includes ATN secondary to respond hypotensive episode
   (although patient was with renal failure prior to episode yesterday),
   prerenal etiology given poor cardiac output secondary to aortic
   stenosis. [**Month (only) 51**] also be secondary to medications - recently started on
   HCTZ.
   - Urine lytes, UA
   - Close monitoring of urine output
   - Hold diuretics
   .
   #. Diabetes melliitus, type II:
   - Continue Humalog sliding scale per home regimen
   ICU Care
   FEN:  Diabetic, heart healthy, low-salt diet; fluid restriction 1.5L;
   replete lytes as needed
   ACCESS:  PIV x2
   PROPHYLAXIS:  Heparin SC TID; pneumoboots; home PPI; bowel regimen
   CONTACT:  [**Name (NI) 1125**] ([**Name2 (NI) 2685**], HCP), ([**Telephone/Fax (1) 7698**]
   CODE:  FULL CODE. Discussions regarding code status are ongoing.
   DISPO: CCU for now
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DIABETES MELLITUS (DM), TYPE II
 AORTIC STENOSIS
 ASCITES
 KNOWLEDGE DEFICIT
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-5-21**] 09:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
References
   1. [**URL 7711**]
   2. [**URL 7712**]

2134-05-22 07:17:00 Physician Resident Progress Note
TITLE: SUB-INTERN PROGRESS NOTE
   24 Hour Events:
   - Ultrasound-guided paracentesis (1.4L removed); peritoneal fluid
   consistent with SBP; ceftriaxone 1g IV daily x5 days, albumin 1.5g/kg
   - SAAG = serum albumin - peritoneal fluid albumin = 3.4-1.1 = 2.3,
   consistent with portal hypertension; total protein ascites 1.7 vs.
   serum 6.5
   - TTE with AS, valve area 0.9cm2; mild LVH with presernved EF;
   PCWP>18mmHg; 2+ MR; mild pulmonary artery systolic hypertension; no
   pericardial effusion
   - UA with blood, mod leuk est, 35 WBC; Foley removed
   - RUQ duplex u/s:  Normal Doppler patency and flow of the hepatic
   veins, portal vein
   - Fe urea nitrogen 27.5%, urine sodium 20; prerenal, does not exclude
   hepatorenal
   - Right shoulder pain x1 week; written for Tylenol, 2g maximum
   Allergies:
   Amoxicillin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Iodine; Iodine Containing
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2134-5-21**] 08:12 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-22**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (98.9
   HR: 51 (44 - 65) bpm
   BP: 113/46(63) {92/21(45) - 125/81(89)} mmHg
   RR: 21 (16 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 61 Inch
                  Total In:
                                                                  1,389 mL
                                                                    165 mL
   PO:
                                                                    240 mL
                  TF:
   IVF:
                                                                     94 mL
   Blood products:
                                                                    235 mL
                                                                    165 mL
   Total out:
                                                                  2,062 mL
                                                                      0 mL
   Urine:
                                                                    347 mL
   NG:
   Stool:
   Drains:
                                                                  1,400 mL
   Balance:
                                                                   -673 mL
                                                                    165 mL
   Respiratory support
   O2 Delivery Device: ROOM AIR
   SpO2: 96%
   Physical Examination
   GENERAL:  Resting comfortably with head of bed elevated 30 degrees.
   Oriented x3.
   SKIN:  Not jaundiced. Mild erythema at nasal bridge, cheeks. No palmar
   erythema. No spider angiomata. No caput.
   HEENT:  NCAT. Sclera anicteric. EOMI. Conjunctiva pale.
   NECK:  Supple. No appreciable JVD (exam limited [**2-1**] body habitus)
   CARDIAC:  RRR, normal S1, quiet S2; III/VI holosystolic murmur loudest
   at LUSB
   LUNGS:  Diffuse expiratory wheezes; no crackles, rhonchi appreciated
   ABDOMEN:  Obese; visible hernia below right breast, periumbilical;
   soft, nontender. Dull to percussion, unable to appreciate fluid wave.
   EXTREMITIES:  No lower extremity edema. Radial, DP pulses 2+.
   Neuro:  No asterixis; CNII-XII intact; EOMI; upper and lower extremity
   strength 5/5 and equal bilaterally.
   Labs / Radiology
   114 K/uL
   8.8 g/dL
   133 mg/dL
   3.5 mg/dL
   16 mEq/L
   4.7 mEq/L
   70 mg/dL
   107 mEq/L
   135 mEq/L
   25.9 %
   9.4 K/uL
        [image002.jpg]
                             [**2134-5-21**]  02:05 PM
                             [**2134-5-22**]  03:26 AM
   WBC
   19.0
   9.4
   Hct
   32.6
   25.9
   Plt
   172
   114
   Cr
   3.3
   3.5
   Glucose
   160
   133
   Other labs: PT / PTT / INR:18.7/33.3/1.7, ALT / AST:[**12-11**], Alk Phos / T
   Bili:54/0.7, Differential-Neuts:91.2 %, Lymph:6.5 %, Mono:2.2 %,
   Eos:0.1 %, Albumin:3.7 g/dL, LDH:141 IU/L, Ca++:8.2 mg/dL, Mg++:2.1
   mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   77F with CAD s/p triple CABG, cirrhosis, DMII, HTN, CRI transferred
   from OSH with new finding of severe AS, bradycardia, hypotension,
   leukocytosis, and ARF on CRI, in the setting of increasing shortness of
   breath and abdominal girth.
   # SBP / ASCITES / CIRRHOSIS.
        The patient
s increasing abdominal girth is due to increasing
   peritoneal ascites. Her shortness of breath was probably caused by the
   accumulation of ascites in two ways: (a) via a restrictive process
   where the pressure of the fluid against her lungs and chest wall
   increases the work of breathing; and (b) via the spontaneous bacterial
   peritonitis (SBP) that is present in the ascites, which increases her
   white count, and her non-gap acidosis which causes increased CO2
   production, causes tachypnea to blow off excess CO2, resulting in
   discomfort of breathing.
        In order to evaluate the patient
s ascites, an ultrasound-guided
   paracentesis was performed yesterday. The scan showed ~5L of peritoneal
   fluid, of which approximately 1.4L was removed and showed WBC of >2900
   with 92% poly
s (absolute ~2600 polys) and ascitic fluid total protein
   (AFTP) 1.7. The high number of polys (>250) with low AFTP (<2.5)
   suggests SBP. Measurement of the AFTP assists in differentiating SBP
   from secondary bacterial peritonitis, because lowest protein
   concentration correlates with the highest risk of developing SBP. It is
   thought that the low protein concentration correlates with low
   concentrations of opsonins, which decreases the response of innate
   immunity in the peritoneum and thus predisposes to infection (see
   [**Last Name (un) 7710**], Gastrooenterology [**2110**]; and [**Last Name (un) 7710**], Hepatology [**2112**]). We know
   that most cases of SBP are due to gut bacteria (E. coli, Klebsiella)
   and that sometimes even streptococcus and infrequently staphylococcus
   can be the culprit, so treatment with somewhat broad-spectrum
   antibiotics is warranted at least initially. Therefore, our patient was
   started on ceftriaxone 1g IV daily x5 days (day 1=[**2134-5-21**]).
   Furthermore, patients with cirrhosis and SBP frequently have impaired
   renal function, which often results in increased morbidity and
   mortality. By administering IV albumin (which expands plasma volume and
   increases blood flow to the kidneys), one reduces morality rates at
   three months from 41% to 22% (see Sort et [**Doctor Last Name **], NEJM [**2123**]). Therefore,
   our patient was also given albumin 1.5g/kg yesterday and will receive
   an additional 1.0g/kg on day 3 ([**2134-5-23**]). In terms of long-term
   prophylaxis, the patient will require a weekly dose of 750 mg
   ciprofloxacin for the rest of her life, which will decrease the
   incidence of recurrent SBP from 22% to 3.6% (see Rolachon et [**Doctor Last Name **],
   Hepatology [**2119**]).
        The etiology of her ascites is portal hypertension as evidenced by
   her high gradient SAAG (serum albumin - peritoneal fluid albumin =
   3.4-1.1 = 2.3, where high gradient is >1.1, which has 97% accuracy for
   predicting portal hypertension [see [**Last Name (un) 7710**] et [**Doctor Last Name **], Annals of Internal
   Medicine [**2116**]]). Importantly, high vs. low gradient SAAG is not the
   same as transudative/exudative ascites, which refers specifically to
   AFTP concentration (not albumin). In general, top of the differential
   diagnosis for portal hypertension includes cirrhosis, CHF, and
   alcoholic hepatitis. In our patient, cirrhosis is the most likely
   etiology because the vast majority of patients with SBP have portal
   hypertension secondary to cirrhosis. Furthermore, CHF is an unlikely
   cause (even in the setting of her aortic stenosis) because her EF is
   normal at ~60% and she has low AFTP (CHF is associated with high AFTP).
   Lastly, alcoholic hepatitis is unlikely because she denies a history of
   extensive alcohol abuse.
        The etiology of her cirrhosis, on the other hand, is much more
   elusive. The two most common causes in the USA are alcohol and
   Hepatitis C. Again, a lack of history of alcohol abuse and elicit drug
   abuse make these less likely etiologies. Another possibility is
   nonalcoholic steatohepatitis, but only a biopsy can offer a more
   definitive diagnosis. Given her Cr = 3.5, Tbili = 0.7, INR = 1.7, her
   calculated MELD score is 23, which is associated with ~90% survival at
   3 months (see Kamath et [**Doctor Last Name **], Hepatology [**2125**]).
   -          Continue on ceftriaxone 1 g qd for 5 days (day 1 = [**2134-5-21**])
   -          Albumin 1.0g/kg on [**2134-5-23**]
   -          Will consider Cipro 750 mg qweek after ceftriaxone is
   discontinued
   -          Appreciate recommendation from Dr. [**First Name (STitle) 2578**] (hepatology)
   -          Low salt diet, fluid restriction
   # AORTIC STENOSIS.  The patient has what we believe to be new-onset
   aortic stenosis, with our TTE showing aortic valve area of 0.9cm^2,
   peak gradient ~80 and mean gradient ~50. Given her current infection
   with SBP and lack of severe symptoms related to AS, aggressive
   intervention should be delayed until her infection is cleared.
   Afterwards, she may be evaluated for valvuloplasty (a temporary
   solution) or aortic valve replacement (a more permanent solution). The
   usual indications for AVR surgery include dyspnea on exertion (5 year
   survival from time of diagnosis), angina with exertion (3 year
   survival), or syncope with exertion (1 year survival), or severe LV
   dysfunction from AVR. Given that the running hypothesis is that her
   dyspnea over the past couple of days is due to SBP and the resultant
   tachypnea, she does not have any of these indications for surgery.
   # BRADYCARDIA.  The patient becomes bradycardic during the night to the
   low 40s. This was consistent with what happened at the outside
   hospital, where EKGs suggest junctional rhythm given the lack of P
   waves. This is most likely due to carvedilol
toxicity.
 Given that the
   patient has cirrhosis, she has decreased hepatic metabolism of
   carvedilol, which effectively enhances the doses she receives. Since
   carvedilol is a beta-blocker, she is probably experiencing
   supra-therapeutic effects of the drug that are causing her to become
   bradycardic. We have discontinued her carvedilol and hypothesize that
   her bradycardia should resolve soon. In the future she will need to be
   on a smaller dose, if at all. Given that she also has chronic renal
   failure, switching to a drug that is renally metabolized will probably
   not be a feasible alternative.
   -          hold carvedilol given cirrhosis/ascites
   -          EP consulted for evaluation for pacemaker placement
   -          Hold beta-blocker, calcium-channel blocker
   -          Atropine at bedside
   -          Monitor on telemetry
   # ACUTE ON CHRONIC RENAL FAILURE.  The patient most likely has acute
   (Cr 3.5) on chronic renal failure (baseline Cr 1.7) due to ATN that
   occurred during her episodes of supra-therapeutic drug action causing
   hypotension. Differential also includes ATN secondary to prerenal
   etiology given poor cardiac output secondary to aortic stenosis. [**Month (only) 51**]
   also be secondary to medications - recently started on HCTZ. We will
   send for urine-lytes/osmolarity/Na to further assess.
        The most feared etiology would be hepatorenal syndrome
   (development of acute renal failure in a patient who has advanced liver
   disease due to cirrhosis) because prognosis for these patients is poor,
   with a median survival of 3.3 months (see Alessandria et [**Doctor Last Name **], Hepatology
   [**2129**]). ARF in these patients occurs due to splanchnic vasodilatation
   and increases in nitric oxide circulation, which eventually reduces GFR
   and damages the kidneys. Diagnostic criteria for hepatorenal syndrome
   include a rise in creatinine above 1.5, absence of other causes for
   renal disease (including shock, bacterial infection, SBP, nephrotoxic
   durg use, post-renal obstruction), urine red cell excretion of less
   than 50 cells per HPF, and lack of improvement in renal function after
   volume expansion with IV albumin for at least two days. Given that she
   has a good story for other causes of ARF (i.e. SBP and some component
   of hypotension), the fact that her renal function did not improve with
   IV albumin is not as suggestive of hepatorenal syndrome, because she
   likely has ATN which will take at least a few days to recover.
   Therefore, we will trend her creatinine and we do not expect to see a
   fall until at least 3-5 days (approximately [**Date range (1) 7721**]).
   -          Continue trending creatinine daily
   -          IV albumin tomorrow
   -          Nephrology consult
   -          Urine lytes, UA
   -          Close monitoring of urine output
   -          Hold diuretics
   # ANEMIA.  The patient had a drop in hematocrit from 32 to 25 today.
   This is worrying because it could suggest a GI bleed. She was put on a
   PPI and a type and screen was sent. We will guaiac her stools to check
   for GI bleed.
   -          guaiac stool
   # HYPOTENSION.  The patient
s hypotension has now resolved. She is no
   longer on dopamine. She may have been dehydrated and/or overmedicated.
   Although septic shock was initially suspected given her leukocytosis,
   her WBC has now dropped to 19 and she has no fever. Furthermore, her
   liver disease may play a role in dropping her blood pressure in the
   context of decreased production of albumin.
   -          Hold anti-hypertensives
   -          On ceftriaxone now
   #. CORONARIES:  CAD s/p CABG. Anatomy as listed previously. No chest
   pain currently or prior to OSH admission, although this is not
   necessarily reassuring in this female, diabetic patient. By report,
   cardiac biomarkers were negative at outside hospital.
   - Continue aspirin 325mg PO daily
   - Hold beta-blocker given recent bradycardia, hypotension
   - Continue simvastatin 20mg PO daily
   .
   #. PUMP:  Per signout, patient was thought to be fluid overloaded at
   OSH, BNP 741 with anasarca, net fluid balance +300ml yesterday, +500ml
   today prior to transfer. TTE there showed preserved EF 65-70% but new
   finding of severe AS with valve area of 0.7. Patient with hypotension
   requiring initation of dopamine gtt.
   - Hold beta-blocker given recent bradycardia, hypotension.
   - Hold lasix
   #. Diabetes melliitus, type II:
   - Continue Humalog sliding scale per home regimen
   ICU Care
   FEN:  Diabetic, heart healthy, low-salt diet, kidney-friendly (low
   protein), and liver healthy diet; fluid restriction 1.5L; replete lytes
   as needed
   ACCESS:  PIV x2
   PROPHYLAXIS:  Heparin SC TID; pneumoboots; home PPI; bowel regimen
   CONTACT:  [**Name (NI) 1125**] ([**Name2 (NI) 2685**], HCP), ([**Telephone/Fax (1) 7698**]
   CODE:  FULL CODE. Patient wishes to discuss this with family before
   making any other decisions.
   DISPO: CCU for now
   16:36
   ------ Protected Section ------
   Agree with findings and plan as outline in excellent MS4 note by
   Dryzmalski.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 4058**], MD
   on:[**2134-5-23**] 08:06 ------

2134-05-22 07:17:00 Physician Resident Progress Note
TITLE: SUB-INTERN PROGRESS NOTE
   24 Hour Events:
   - Ultrasound-guided paracentesis (1.4L removed); peritoneal fluid
   consistent with SBP; ceftriaxone 1g IV daily x5 days, albumin 1.5g/kg
   - SAAG = serum albumin - peritoneal fluid albumin = 3.4-1.1 = 2.3,
   consistent with transudate; total protein ascites 1.7 vs. serum 6.5
   - TTE with AS, valve area 0.9cm2; mild LVH with presernved EF;
   PCWP>18mmHg; 2+ MR; mild pulmonary artery systolic hypertension; no
   pericardial effusion
   - UA with blood, mod leuk est, 35 WBC; Foley removed
   - RUQ duplex u/s:  Normal Doppler patency and flow of the hepatic
   veins, portal vein
   - Fe urea nitrogen 27.5%, urine sodium 20; prerenal, does not exclude
   hepatorenal
   - Right shoulder pain x1 week; written for Tylenol, 2g maximum
   Allergies:
   Amoxicillin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Iodine; Iodine Containing
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2134-5-21**] 08:12 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-22**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (98.9
   HR: 51 (44 - 65) bpm
   BP: 113/46(63) {92/21(45) - 125/81(89)} mmHg
   RR: 21 (16 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 61 Inch
                  Total In:
                                                                  1,389 mL
                                                                    165 mL
   PO:
                                                                    240 mL
                  TF:
   IVF:
                                                                     94 mL
   Blood products:
                                                                    235 mL
                                                                    165 mL
   Total out:
                                                                  2,062 mL
                                                                      0 mL
   Urine:
                                                                    347 mL
   NG:
   Stool:
   Drains:
                                                                  1,400 mL
   Balance:
                                                                   -673 mL
                                                                    165 mL
   Respiratory support
   O2 Delivery Device: ROOM AIR
   SpO2: 96%
   Physical Examination
   GENERAL:  Resting comfortably with head of bed elevated 30 degrees.
   Oriented x3.
   SKIN:  Not jaundiced. Mild erythema at nasal bridge, cheeks. No palmar
   erythema. No spider angiomata. No caput.
   HEENT:  NCAT. Sclera anicteric. EOMI. Conjunctiva pale.
   NECK:  Supple. No appreciable JVD (exam limited [**2-1**] body habitus)
   CARDIAC:  RRR, normal S1, quiet S2; III/VI holosystolic murmur loudest
   at LUSB
   LUNGS:  Diffuse expiratory wheezes; no crackles, rhonchi appreciated
   ABDOMEN:  Obese; visible hernia below right breast, periumbilical;
   soft, nontender. Dull to percussion, unable to appreciate fluid wave.
   EXTREMITIES:  No lower extremity edema. Radial, DP pulses 2+.
   Neuro:  No asterixis; CNII-XII intact; EOMI; upper and lower extremity
   strength 5/5 and equal bilaterally.
   Labs / Radiology
   114 K/uL
   8.8 g/dL
   133 mg/dL
   3.5 mg/dL
   16 mEq/L
   4.7 mEq/L
   70 mg/dL
   107 mEq/L
   135 mEq/L
   25.9 %
   9.4 K/uL
        [image002.jpg]
                             [**2134-5-21**]  02:05 PM
                             [**2134-5-22**]  03:26 AM
   WBC
   19.0
   9.4
   Hct
   32.6
   25.9
   Plt
   172
   114
   Cr
   3.3
   3.5
   Glucose
   160
   133
   Other labs: PT / PTT / INR:18.7/33.3/1.7, ALT / AST:[**12-11**], Alk Phos / T
   Bili:54/0.7, Differential-Neuts:91.2 %, Lymph:6.5 %, Mono:2.2 %,
   Eos:0.1 %, Albumin:3.7 g/dL, LDH:141 IU/L, Ca++:8.2 mg/dL, Mg++:2.1
   mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   77F with CAD s/p triple CABG, cirrhosis, DMII, HTN, CRI transferred
   from OSH with new finding of severe AS, bradycardia, hypotension,
   leukocytosis, and ARF on CRI, in the setting of increasing shortness of
   breath and abdominal girth.
   # ASCITES. The patient
s increasing abdominal girth is due to
   increasing peritoneal ascites. Her shortness of breath was probably
   related to the ascites in two ways: (a) via a restrictive process where
   it is harder for her to inhale due to the pressure against her lungs
   and chest wall; and (b) via SBP, which increases her white count,
   causing anion-gap metabolic acidosis due to increased CO2 production,
   causing tachypnea to blow off excess CO2, causing discomfort of
   breathing.
   Yesterday
s ultrasound-guided paracentesis showed ~5L of ascites.
   Approximately 1.4L of peritoneal fluid was removed and showed WBC of
   >2900 with 92% poly
s, and ascitic fluid total protein 1.7 vs serum
   total protein 6.5.
   Measurement of the ascetic fluid total protein concentration assists in
   differentiating SBP from secondary bacterial peritonitis, where lowest
   protein concentration correlates with a highest risk of developing SBP
   because of low concentrations of opsonins.
   most consistent with spontaneous bacterial peritonitis (SBP).
   (
   Low-protein-concentration ascitic fluid is predisposed to spontaneous
   bacterial peritonitis.
   [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) 7710**] BA
   SO
   Gastroenterology [**2110**] [**Month (only) **];91(6):1343-6.
   TI
   Patients with deficient ascitic fluid opsonic activity are predisposed
   to spontaneous bacterial peritonitis.
   [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) 7710**] BA
   SO
   Hepatology [**2112**] [**Month (only) 51**]-[**Month (only) **];8(3):632-5.
   )
   The patient was started on ceftriaxone 1g IV daily x5 days (day
   1=[**2134-5-21**]) and albumin 1.5g/kg. She will need albumin 1.0g/kg on day 3
   ([**2134-5-23**]). Afterwards, she will need to regular cipro for the rest of
   her life to prevent recurrence.
   The etiology of her ascites is portal hypertension as evidenced by her
   high gradient SAAG (serum albumin - peritoneal fluid albumin = 3.4-1.1
   = 2.3, where high gradient is >1.1, which has 97% accuracy for
   predicting portal hypertension [see [**Last Name (un) 7710**] et [**Doctor Last Name **]. in Annals of Internal
   Medicine [**2116**]]). In general, top of the differential diagnosis for
   portal hypertension includes cirrhosis, CHF, and alcoholic hepatitis.
   Because the vast majority of patients with SBP have portal hypertension
   secondary to cirrhosis, it is most likely that cirrhosis is the cause
   in our patient.
    AFTP of most spontaneously infected ascites is usually low,
   The vast majority of patients with SBP have portal hypertension
   secondary to cirrhosis. Patients with a serum-ascites albumin gradient
   below 1.1 g/dL (ie, without portal hypertension) rarely develop SBP.
   Measurement of the ascitic fluid total protein concentration assists in
   separating SBP from secondary bacterial peritonitis ([1]see
   "Distinction of spontaneous from secondary bacterial peritonitis"
   below). It correlates inversely with the risk of developing SBP
   [[2]15]. Patients with the most dilute ascites (ie, protein
   concentration less than 1 gm/dL) have the lowest concentration of
   opsonins in the ascitic fluid and are at the highest risk for SBP
   Please note that high vs. low gradient SAAG is not the same as
   transudative/exudative ascites, which refers specifically to ascetic
   fluid total protein concentration, not just the albumin.
   consistent with transudate; total protein ascites 1.7 vs. serum 6.5
   77F with CAD s/p triple CABG, cirrhosis, DMII, HTN, CRI transferred
   from OSH with new finding of severe AS and recent episodes of
   bradycardia, hypotension. History also significant for leukocytosis,
   acute on chronic renal failure.
   .
   #. CORONARIES:  CAD s/p CABG. Anatomy as listed above. No chest pain
   currently or prior to OSH admission, although this is not necessarily
   reassuring in this female, diabetic patient. By report, cardiac
   biomarkers were negative at outside hospital.
   - Continue aspirin 325mg PO daily
   - Hold beta-blocker given recent bradycardia, hypotension
   - Continue simvastatin 20mg PO daily
   .
   #. PUMP:  Per signout, patient was thought to be fluid overloaded at
   OSH, BNP 741 with anasarca, net fluid balance +300ml yesterday, +500ml
   today prior to transfer. TTE there showed preserved EF 65-70% but new
   finding of severe AS with valve area of 0.7. Patient with hypotension
   requiring initation of dopamine gtt.
   - TTE to evaluate for diastolic dysfunction, severity of AS
   - Hold beta-blocker given recent bradycardia, hypotension. Hold
   hypotension given recent hypotension; unclear if patient needs to be on
   ACE inhibitor as she is not known to have heart failure.
   - Will restart furosemide as renal function improves
   .
   #. Aortic stenosis:  Reported as severe at OSH with valve area 0.7,
   peak gradient 100mgHg. Interestingly, patient has had TTE in past
   (records unavailable at this time) without mention of aortic stenosis.
   Aortic stenosis likely contributes to this patient's dyspnea.
   - TTE to evaluate valve function
   - If severe, consider intervention. Valvuloplasty would be a temporary
   solution. AVR is more permanent, but given cirrhosis, risk of surgery
   may be high.
   .
   # RHYTHM:  Bradycardic to mid-30s at OSH. EKG with junctional rhythm.
   Could this have been in context of decreased clearance of beta-blocker?
   Currently in NSR with rate in 60s. No evidence of AV block. No ischemic
   changes seen in RCA territory to suggest sinus node dysfunction.
   - EP consulted for evaluation for pacemaker placement
   - Hold beta-blocker, calcium-channel blocker
   - Atropine at bedside
   - Monitor on telemetry
   .
   #. Hypotension:  Noted with onset of bradycardia. Transferred on
   dopamine at 5mcg/kg/min. Patient with hypertension at baseline. Appears
   to be cardiogenic in origin given bradycardia; it is unclear whether
   attempt was made to wean patient off of dopamine once bradycardia
   resolved. Given leukocytosis, sepsis is also on differential.
   - Continue to wean dopamine
   - Hold antihypertensives
   - Will cater antibiotics (if needed) based on infectious work-up below
   .
   # h/o liver cirrhosis:  Underlying etiology unknown. Followed by Dr.
   [**First Name (STitle) 2578**] at [**Hospital1 19**]. Previously attributed to steatohepatitis. Complicated by
   portal hypertension, ascites. MELD 24, CHILDS B.
   - Abdominal ultrasound with doppler
   - Ultrasound-guided paracentesis (diagnostic)
   - Liver recs (Dr. [**First Name (STitle) 2578**]
   - Low salt diet, fluid restriction
   .
   #. Leukocytosis:  No clear source of infection. Differential diagnosis
   includes aspiration pneumonia, SBP, UTI. Was given levofloxacin IV at
   OSH given suspicion for aspiration pneumonia.
   - CXR
   - UA
   - Urine culture, blood cultures
   - Diagnostic paracentesis
   .
   #. Acute on chronic renal failure:  Baseline 1.7. Creatinine now 3.3.
   Differential includes ATN secondary to respond hypotensive episode
   (although patient was with renal failure prior to episode yesterday),
   prerenal etiology given poor cardiac output secondary to aortic
   stenosis. [**Month (only) 51**] also be secondary to medications - recently started on
   HCTZ.
   - Urine lytes, UA
   - Close monitoring of urine output
   - Hold diuretics
   .
   #. Diabetes melliitus, type II:
   - Continue Humalog sliding scale per home regimen
   ICU Care
   FEN:  Diabetic, heart healthy, low-salt diet; fluid restriction 1.5L;
   replete lytes as needed
   ACCESS:  PIV x2
   PROPHYLAXIS:  Heparin SC TID; pneumoboots; home PPI; bowel regimen
   CONTACT:  [**Name (NI) 1125**] ([**Name2 (NI) 2685**], HCP), ([**Telephone/Fax (1) 7698**]
   CODE:  FULL CODE. Discussions regarding code status are ongoing.
   DISPO: CCU for now
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DIABETES MELLITUS (DM), TYPE II
 AORTIC STENOSIS
 ASCITES
 KNOWLEDGE DEFICIT
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-5-21**] 09:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
References
   1. [**URL 7713**]
   2. [**URL 7713**]

2134-05-22 07:17:00 Physician Resident Progress Note
TITLE: SUB-INTERN PROGRESS NOTE
   24 Hour Events:
   - Ultrasound-guided paracentesis (1.4L removed); peritoneal fluid
   consistent with SBP; ceftriaxone 1g IV daily x5 days, albumin 1.5g/kg
   - SAAG = serum albumin - peritoneal fluid albumin = 3.4-1.1 = 2.3,
   consistent with transudate; total protein ascites 1.7 vs. serum 6.5
   - TTE with AS, valve area 0.9cm2; mild LVH with presernved EF;
   PCWP>18mmHg; 2+ MR; mild pulmonary artery systolic hypertension; no
   pericardial effusion
   - UA with blood, mod leuk est, 35 WBC; Foley removed
   - RUQ duplex u/s:  Normal Doppler patency and flow of the hepatic
   veins, portal vein
   - Fe urea nitrogen 27.5%, urine sodium 20; prerenal, does not exclude
   hepatorenal
   - Right shoulder pain x1 week; written for Tylenol, 2g maximum
   Allergies:
   Amoxicillin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Iodine; Iodine Containing
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2134-5-21**] 08:12 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-22**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (98.9
   HR: 51 (44 - 65) bpm
   BP: 113/46(63) {92/21(45) - 125/81(89)} mmHg
   RR: 21 (16 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 61 Inch
                  Total In:
                                                                  1,389 mL
                                                                    165 mL
   PO:
                                                                    240 mL
                  TF:
   IVF:
                                                                     94 mL
   Blood products:
                                                                    235 mL
                                                                    165 mL
   Total out:
                                                                  2,062 mL
                                                                      0 mL
   Urine:
                                                                    347 mL
   NG:
   Stool:
   Drains:
                                                                  1,400 mL
   Balance:
                                                                   -673 mL
                                                                    165 mL
   Respiratory support
   O2 Delivery Device: ROOM AIR
   SpO2: 96%
   Physical Examination
   GENERAL:  Resting comfortably with head of bed elevated 30 degrees.
   Oriented x3.
   SKIN:  Not jaundiced. Mild erythema at nasal bridge, cheeks. No palmar
   erythema. No spider angiomata. No caput.
   HEENT:  NCAT. Sclera anicteric. EOMI. Conjunctiva pale.
   NECK:  Supple. No appreciable JVD (exam limited [**2-1**] body habitus)
   CARDIAC:  RRR, normal S1, quiet S2; III/VI holosystolic murmur loudest
   at LUSB
   LUNGS:  Diffuse expiratory wheezes; no crackles, rhonchi appreciated
   ABDOMEN:  Obese; visible hernia below right breast, periumbilical;
   soft, nontender. Dull to percussion, unable to appreciate fluid wave.
   EXTREMITIES:  No lower extremity edema. Radial, DP pulses 2+.
   Neuro:  No asterixis; CNII-XII intact; EOMI; upper and lower extremity
   strength 5/5 and equal bilaterally.
   Labs / Radiology
   114 K/uL
   8.8 g/dL
   133 mg/dL
   3.5 mg/dL
   16 mEq/L
   4.7 mEq/L
   70 mg/dL
   107 mEq/L
   135 mEq/L
   25.9 %
   9.4 K/uL
        [image002.jpg]
                             [**2134-5-21**]  02:05 PM
                             [**2134-5-22**]  03:26 AM
   WBC
   19.0
   9.4
   Hct
   32.6
   25.9
   Plt
   172
   114
   Cr
   3.3
   3.5
   Glucose
   160
   133
   Other labs: PT / PTT / INR:18.7/33.3/1.7, ALT / AST:[**12-11**], Alk Phos / T
   Bili:54/0.7, Differential-Neuts:91.2 %, Lymph:6.5 %, Mono:2.2 %,
   Eos:0.1 %, Albumin:3.7 g/dL, LDH:141 IU/L, Ca++:8.2 mg/dL, Mg++:2.1
   mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   77F with CAD s/p triple CABG, cirrhosis, DMII, HTN, CRI transferred
   from OSH with new finding of severe AS, bradycardia, hypotension,
   leukocytosis, and ARF on CRI, in the setting of increasing shortness of
   breath and abdominal girth.
   # ASCITES.
   The patient
s increasing abdominal girth is due to increasing
   peritoneal ascites. Her shortness of breath was probably related to the
   ascites in two ways: (a) via a restrictive process where it is harder
   for her to inhale due to the pressure against her lungs and chest wall;
   and (b) via SBP, which increases her white count, causing anion-gap
   metabolic acidosis due to increased CO2 production, causing tachypnea
   to blow off excess CO2, causing discomfort of breathing.
   Yesterday
s ultrasound-guided paracentesis showed ~5L of ascites.
   Approximately 1.4L of peritoneal fluid was removed and showed WBC of
   >2900 with 92% poly
s (absolute ~2600 polys) and ascitic fluid total
   protein (AFTP) 1.7. The high number of polys (>250) with low AFTP
   (<2.5) suggests SBP. It is the measurement of the ascetic fluid total
   protein concentration that assists in differentiating SBP from
   secondary bacterial peritonitis, because lowest protein concentration
   correlates with the highest risk of developing SBP. It is thought that
   the low protein concentration correlates with low concentrations of
   opsonins, which decreases the efficacy of innate immunity in the
   peritoneum and thus predisposes to infection (see [**Last Name (un) 7710**],
   Gastrooenterology [**2110**]; and [**Last Name (un) 7710**], Hepatology [**2112**]). We know that most
   cases of SBP are due to gut bacteria (E. coli, Klebsiella) and that
   sometimes even streptococcus and infrequently staphylococcus can be the
   culprit, so treatment with somewhat broad-spectrum antibiotics is
   warranted at least initially. Therefore, our patient was started on
   ceftriaxone 1g IV daily x5 days (day 1=[**2134-5-21**]). Furthermore, patients
   with cirrhosis and SBP frequently have impaired renal function, which
   often results in increased morbidity and mortality. By administering IV
   albumin (which expands plasma volume and increases blood flow to the
   kidneys), one reduces morality rates at three months from 41% to 22%
   (see Sort et [**Doctor Last Name **], NEJM [**2123**]). Therefore, our patient was also given
   albumin 1.5g/kg yesterday, and will receive an additional 1.0g/kg on
   day 3 ([**2134-5-23**]). In terms of long-term prophylaxis, the patient will
   require a weekly dose of 750 mg ciprofloxacin for the rest of her life
   because it decreases incidence of SBP from 22% to 3.6% (see Rolachon et
   [**Doctor Last Name **], Hepatology [**2119**]).
   The etiology of her cirrhosis, on the other hand, is much more
   mysterious. The two most common causes in the USA are alcohol and
   Hepatitis C, and nonalcoholic steatohepatitis is also common.
   The etiology of her ascites is portal hypertension as evidenced by her
   high gradient SAAG (serum albumin - peritoneal fluid albumin = 3.4-1.1
   = 2.3, where high gradient is >1.1, which has 97% accuracy for
   predicting portal hypertension [see [**Last Name (un) 7710**] et [**Doctor Last Name **]. in Annals of Internal
   Medicine [**2116**]]). In general, top of the differential diagnosis for
   portal hypertension includes cirrhosis, CHF, and alcoholic hepatitis.
   In our patient, cirrhosis is the most likely etiology because the vast
   majority of patients with SBP have portal hypertension secondary to
   cirrhosis. Furthermore, CHF is an unlikely cause given her low AFTP
   (CHF is associated with high AFTP), and
   , especially since she does not have have a history of alcohol abuse.
   it is most likely that cirrhosis is the cause in our patient.
   In terms of diagnosis of ascites, high vs. low gradient SAAG is not the
   same as transudative/exudative ascites, which refers specifically to
   ascetic fluid total protein concentration, not just the albumin.
   77F with CAD s/p triple CABG, cirrhosis, DMII, HTN, CRI transferred
   from OSH with new finding of severe AS and recent episodes of
   bradycardia, hypotension. History also significant for leukocytosis,
   acute on chronic renal failure.
   .
   #. CORONARIES:  CAD s/p CABG. Anatomy as listed above. No chest pain
   currently or prior to OSH admission, although this is not necessarily
   reassuring in this female, diabetic patient. By report, cardiac
   biomarkers were negative at outside hospital.
   - Continue aspirin 325mg PO daily
   - Hold beta-blocker given recent bradycardia, hypotension
   - Continue simvastatin 20mg PO daily
   .
   #. PUMP:  Per signout, patient was thought to be fluid overloaded at
   OSH, BNP 741 with anasarca, net fluid balance +300ml yesterday, +500ml
   today prior to transfer. TTE there showed preserved EF 65-70% but new
   finding of severe AS with valve area of 0.7. Patient with hypotension
   requiring initation of dopamine gtt.
   - TTE to evaluate for diastolic dysfunction, severity of AS
   - Hold beta-blocker given recent bradycardia, hypotension. Hold
   hypotension given recent hypotension; unclear if patient needs to be on
   ACE inhibitor as she is not known to have heart failure.
   - Will restart furosemide as renal function improves
   .
   #. Aortic stenosis:  Reported as severe at OSH with valve area 0.7,
   peak gradient 100mgHg. Interestingly, patient has had TTE in past
   (records unavailable at this time) without mention of aortic stenosis.
   Aortic stenosis likely contributes to this patient's dyspnea.
   - TTE to evaluate valve function
   - If severe, consider intervention. Valvuloplasty would be a temporary
   solution. AVR is more permanent, but given cirrhosis, risk of surgery
   may be high.
   .
   # RHYTHM:  Bradycardic to mid-30s at OSH. EKG with junctional rhythm.
   Could this have been in context of decreased clearance of beta-blocker?
   Currently in NSR with rate in 60s. No evidence of AV block. No ischemic
   changes seen in RCA territory to suggest sinus node dysfunction.
   - EP consulted for evaluation for pacemaker placement
   - Hold beta-blocker, calcium-channel blocker
   - Atropine at bedside
   - Monitor on telemetry
   .
   #. Hypotension:  Noted with onset of bradycardia. Transferred on
   dopamine at 5mcg/kg/min. Patient with hypertension at baseline. Appears
   to be cardiogenic in origin given bradycardia; it is unclear whether
   attempt was made to wean patient off of dopamine once bradycardia
   resolved. Given leukocytosis, sepsis is also on differential.
   - Continue to wean dopamine
   - Hold antihypertensives
   - Will cater antibiotics (if needed) based on infectious work-up below
   .
   # h/o liver cirrhosis:  Underlying etiology unknown. Followed by Dr.
   [**First Name (STitle) 2578**] at [**Hospital1 19**]. Previously attributed to steatohepatitis. Complicated by
   portal hypertension, ascites. MELD 24, CHILDS B.
   - Abdominal ultrasound with doppler
   - Ultrasound-guided paracentesis (diagnostic)
   - Liver recs (Dr. [**First Name (STitle) 2578**]
   - Low salt diet, fluid restriction
   .
   #. Leukocytosis:  No clear source of infection. Differential diagnosis
   includes aspiration pneumonia, SBP, UTI. Was given levofloxacin IV at
   OSH given suspicion for aspiration pneumonia.
   - CXR
   - UA
   - Urine culture, blood cultures
   - Diagnostic paracentesis
   .
   #. Acute on chronic renal failure:  Baseline 1.7. Creatinine now 3.3.
   Differential includes ATN secondary to respond hypotensive episode
   (although patient was with renal failure prior to episode yesterday),
   prerenal etiology given poor cardiac output secondary to aortic
   stenosis. [**Month (only) 51**] also be secondary to medications - recently started on
   HCTZ.
   - Urine lytes, UA
   - Close monitoring of urine output
   - Hold diuretics
   .
   #. Diabetes melliitus, type II:
   - Continue Humalog sliding scale per home regimen
   ICU Care
   FEN:  Diabetic, heart healthy, low-salt diet; fluid restriction 1.5L;
   replete lytes as needed
   ACCESS:  PIV x2
   PROPHYLAXIS:  Heparin SC TID; pneumoboots; home PPI; bowel regimen
   CONTACT:  [**Name (NI) 1125**] ([**Name2 (NI) 2685**], HCP), ([**Telephone/Fax (1) 7698**]
   CODE:  FULL CODE. Discussions regarding code status are ongoing.
   DISPO: CCU for now
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DIABETES MELLITUS (DM), TYPE II
 AORTIC STENOSIS
 ASCITES
 KNOWLEDGE DEFICIT
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-5-21**] 09:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2134-05-22 07:17:00 Physician Resident Progress Note
TITLE: SUB-INTERN PROGRESS NOTE
   24 Hour Events:
   - Ultrasound-guided paracentesis (1.4L removed); peritoneal fluid
   consistent with SBP; ceftriaxone 1g IV daily x5 days, albumin 1.5g/kg
   - SAAG = serum albumin - peritoneal fluid albumin = 3.4-1.1 = 2.3,
   consistent with transudate; total protein ascites 1.7 vs. serum 6.5
   - TTE with AS, valve area 0.9cm2; mild LVH with presernved EF;
   PCWP>18mmHg; 2+ MR; mild pulmonary artery systolic hypertension; no
   pericardial effusion
   - UA with blood, mod leuk est, 35 WBC; Foley removed
   - RUQ duplex u/s:  Normal Doppler patency and flow of the hepatic
   veins, portal vein
   - Fe urea nitrogen 27.5%, urine sodium 20; prerenal, does not exclude
   hepatorenal
   - Right shoulder pain x1 week; written for Tylenol, 2g maximum
   Allergies:
   Amoxicillin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Iodine; Iodine Containing
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2134-5-21**] 08:12 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-22**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (98.9
   HR: 51 (44 - 65) bpm
   BP: 113/46(63) {92/21(45) - 125/81(89)} mmHg
   RR: 21 (16 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 61 Inch
                  Total In:
                                                                  1,389 mL
                                                                    165 mL
   PO:
                                                                    240 mL
                  TF:
   IVF:
                                                                     94 mL
   Blood products:
                                                                    235 mL
                                                                    165 mL
   Total out:
                                                                  2,062 mL
                                                                      0 mL
   Urine:
                                                                    347 mL
   NG:
   Stool:
   Drains:
                                                                  1,400 mL
   Balance:
                                                                   -673 mL
                                                                    165 mL
   Respiratory support
   O2 Delivery Device: ROOM AIR
   SpO2: 96%
   Physical Examination
   GENERAL:  Resting comfortably with head of bed elevated 30 degrees.
   Oriented x3.
   SKIN:  Not jaundiced. Mild erythema at nasal bridge, cheeks. No palmar
   erythema. No spider angiomata. No caput.
   HEENT:  NCAT. Sclera anicteric. EOMI. Conjunctiva pale.
   NECK:  Supple. No appreciable JVD (exam limited [**2-1**] body habitus)
   CARDIAC:  RRR, normal S1, quiet S2; III/VI holosystolic murmur loudest
   at LUSB
   LUNGS:  Diffuse expiratory wheezes; no crackles, rhonchi appreciated
   ABDOMEN:  Obese; visible hernia below right breast, periumbilical;
   soft, nontender. Dull to percussion, unable to appreciate fluid wave.
   EXTREMITIES:  No lower extremity edema. Radial, DP pulses 2+.
   Neuro:  No asterixis; CNII-XII intact; EOMI; upper and lower extremity
   strength 5/5 and equal bilaterally.
   Labs / Radiology
   114 K/uL
   8.8 g/dL
   133 mg/dL
   3.5 mg/dL
   16 mEq/L
   4.7 mEq/L
   70 mg/dL
   107 mEq/L
   135 mEq/L
   25.9 %
   9.4 K/uL
        [image002.jpg]
                             [**2134-5-21**]  02:05 PM
                             [**2134-5-22**]  03:26 AM
   WBC
   19.0
   9.4
   Hct
   32.6
   25.9
   Plt
   172
   114
   Cr
   3.3
   3.5
   Glucose
   160
   133
   Other labs: PT / PTT / INR:18.7/33.3/1.7, ALT / AST:[**12-11**], Alk Phos / T
   Bili:54/0.7, Differential-Neuts:91.2 %, Lymph:6.5 %, Mono:2.2 %,
   Eos:0.1 %, Albumin:3.7 g/dL, LDH:141 IU/L, Ca++:8.2 mg/dL, Mg++:2.1
   mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   77F with CAD s/p triple CABG, cirrhosis, DMII, HTN, CRI transferred
   from OSH with new finding of severe AS, bradycardia, hypotension,
   leukocytosis, and ARF on CRI, in the setting of increasing shortness of
   breath and abdominal girth.
   # ASCITES. The patient
s increasing abdominal girth is due to
   increasing peritoneal ascites. Her shortness of breath was probably
   related to the ascites in two ways: (a) via a restrictive process where
   it is harder for her to inhale due to the pressure against her lungs
   and chest wall; and (b) via SBP, which increases her white count,
   causing anion-gap metabolic acidosis due to increased CO2 production,
   causing tachypnea to blow off excess CO2, causing discomfort of
   breathing.
   Yesterday
s ultrasound-guided paracentesis showed ~5L of ascites.
   Approximately 1.4L of peritoneal fluid was removed and showed WBC of
   >2900 with 92% poly
s (absolute ~2600 polys) and ascitic fluid total
   protein (AFTP) 1.7. The high number of polys (>250) with low AFTP
   (<2.5) suggests SBP. It is the measurement of the ascetic fluid total
   protein concentration that assists in differentiating SBP from
   secondary bacterial peritonitis, because lowest protein concentration
   correlates with the highest risk of developing SBP. It is thought that
   the low protein concentration correlates with low concentrations of
   opsonins, which decreases the efficacy of innate immunity in the
   peritoneum and thus predisposes to infection (see [**Last Name (un) 7710**],
   Gastrooenterology [**2110**]; and [**Last Name (un) 7710**], Hepatology [**2112**]). We know that most
   cases of SBP are due to gut bacteria (E. coli, Klebsiella) and that
   sometimes even streptococcus and infrequently staphylococcus can be the
   culprit, so treatment with somewhat broad-spectrum antibiotics is
   warranted at least initially. Therefore, our patient was started on
   ceftriaxone 1g IV daily x5 days (day 1=[**2134-5-21**]). Furthermore, patients
   with cirrhosis and SBP frequently have impaired renal function, which
   often results in increased morbidity and mortality. By administering IV
   albumin (which expands plasma volume and increases blood flow to the
   kidneys), one reduces morality rates at three months from 41% to 22%
   (see Sort et [**Doctor Last Name **], NEJM [**2123**]). Therefore, our patient was also given
   albumin 1.5g/kg yesterday, and will receive an additional 1.0g/kg on
   day 3 ([**2134-5-23**]). In terms of long-term prophylaxis, the patient will
   require a weekly dose of 750 mg ciprofloxacin for the rest of her life
   because it decreases incidence of SBP from 22% to 3.6%, without
   development of acquired resistance to ciprofloxacin (see Rolachon et
   [**Doctor Last Name **], Hepatology [**2119**]).
   The etiology of her ascites is portal hypertension as evidenced by her
   high gradient SAAG (serum albumin - peritoneal fluid albumin = 3.4-1.1
   = 2.3, where high gradient is >1.1, which has 97% accuracy for
   predicting portal hypertension [see [**Last Name (un) 7710**] et [**Doctor Last Name **]. in Annals of Internal
   Medicine [**2116**]]). In general, top of the differential diagnosis for
   portal hypertension includes cirrhosis, CHF, and alcoholic hepatitis.
   In our patient, cirrhosis is the most likely etiology because the vast
   majority of patients with SBP have portal hypertension secondary to
   cirrhosis. Furthermore, CHF is an unlikely cause given her low AFTP
   (CHF is associated with high AFTP), and
   , especially since she does not have have a history of alcohol abuse.
   it is most likely that cirrhosis is the cause in our patient.
   In terms of diagnosis of ascites, high vs. low gradient SAAG is not the
   same as transudative/exudative ascites, which refers specifically to
   ascetic fluid total protein concentration, not just the albumin.
   77F with CAD s/p triple CABG, cirrhosis, DMII, HTN, CRI transferred
   from OSH with new finding of severe AS and recent episodes of
   bradycardia, hypotension. History also significant for leukocytosis,
   acute on chronic renal failure.
   .
   #. CORONARIES:  CAD s/p CABG. Anatomy as listed above. No chest pain
   currently or prior to OSH admission, although this is not necessarily
   reassuring in this female, diabetic patient. By report, cardiac
   biomarkers were negative at outside hospital.
   - Continue aspirin 325mg PO daily
   - Hold beta-blocker given recent bradycardia, hypotension
   - Continue simvastatin 20mg PO daily
   .
   #. PUMP:  Per signout, patient was thought to be fluid overloaded at
   OSH, BNP 741 with anasarca, net fluid balance +300ml yesterday, +500ml
   today prior to transfer. TTE there showed preserved EF 65-70% but new
   finding of severe AS with valve area of 0.7. Patient with hypotension
   requiring initation of dopamine gtt.
   - TTE to evaluate for diastolic dysfunction, severity of AS
   - Hold beta-blocker given recent bradycardia, hypotension. Hold
   hypotension given recent hypotension; unclear if patient needs to be on
   ACE inhibitor as she is not known to have heart failure.
   - Will restart furosemide as renal function improves
   .
   #. Aortic stenosis:  Reported as severe at OSH with valve area 0.7,
   peak gradient 100mgHg. Interestingly, patient has had TTE in past
   (records unavailable at this time) without mention of aortic stenosis.
   Aortic stenosis likely contributes to this patient's dyspnea.
   - TTE to evaluate valve function
   - If severe, consider intervention. Valvuloplasty would be a temporary
   solution. AVR is more permanent, but given cirrhosis, risk of surgery
   may be high.
   .
   # RHYTHM:  Bradycardic to mid-30s at OSH. EKG with junctional rhythm.
   Could this have been in context of decreased clearance of beta-blocker?
   Currently in NSR with rate in 60s. No evidence of AV block. No ischemic
   changes seen in RCA territory to suggest sinus node dysfunction.
   - EP consulted for evaluation for pacemaker placement
   - Hold beta-blocker, calcium-channel blocker
   - Atropine at bedside
   - Monitor on telemetry
   .
   #. Hypotension:  Noted with onset of bradycardia. Transferred on
   dopamine at 5mcg/kg/min. Patient with hypertension at baseline. Appears
   to be cardiogenic in origin given bradycardia; it is unclear whether
   attempt was made to wean patient off of dopamine once bradycardia
   resolved. Given leukocytosis, sepsis is also on differential.
   - Continue to wean dopamine
   - Hold antihypertensives
   - Will cater antibiotics (if needed) based on infectious work-up below
   .
   # h/o liver cirrhosis:  Underlying etiology unknown. Followed by Dr.
   [**First Name (STitle) 2578**] at [**Hospital1 19**]. Previously attributed to steatohepatitis. Complicated by
   portal hypertension, ascites. MELD 24, CHILDS B.
   - Abdominal ultrasound with doppler
   - Ultrasound-guided paracentesis (diagnostic)
   - Liver recs (Dr. [**First Name (STitle) 2578**]
   - Low salt diet, fluid restriction
   .
   #. Leukocytosis:  No clear source of infection. Differential diagnosis
   includes aspiration pneumonia, SBP, UTI. Was given levofloxacin IV at
   OSH given suspicion for aspiration pneumonia.
   - CXR
   - UA
   - Urine culture, blood cultures
   - Diagnostic paracentesis
   .
   #. Acute on chronic renal failure:  Baseline 1.7. Creatinine now 3.3.
   Differential includes ATN secondary to respond hypotensive episode
   (although patient was with renal failure prior to episode yesterday),
   prerenal etiology given poor cardiac output secondary to aortic
   stenosis. [**Month (only) 51**] also be secondary to medications - recently started on
   HCTZ.
   - Urine lytes, UA
   - Close monitoring of urine output
   - Hold diuretics
   .
   #. Diabetes melliitus, type II:
   - Continue Humalog sliding scale per home regimen
   ICU Care
   FEN:  Diabetic, heart healthy, low-salt diet; fluid restriction 1.5L;
   replete lytes as needed
   ACCESS:  PIV x2
   PROPHYLAXIS:  Heparin SC TID; pneumoboots; home PPI; bowel regimen
   CONTACT:  [**Name (NI) 1125**] ([**Name2 (NI) 2685**], HCP), ([**Telephone/Fax (1) 7698**]
   CODE:  FULL CODE. Discussions regarding code status are ongoing.
   DISPO: CCU for now
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DIABETES MELLITUS (DM), TYPE II
 AORTIC STENOSIS
 ASCITES
 KNOWLEDGE DEFICIT
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-5-21**] 09:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2134-05-22 07:17:00 Physician Resident Progress Note
TITLE: SUB-INTERN PROGRESS NOTE
   24 Hour Events:
   - Ultrasound-guided paracentesis (1.4L removed); peritoneal fluid
   consistent with SBP; ceftriaxone 1g IV daily x5 days, albumin 1.5g/kg
   - SAAG = serum albumin - peritoneal fluid albumin = 3.4-1.1 = 2.3,
   consistent with transudate; total protein ascites 1.7 vs. serum 6.5
   - TTE with AS, valve area 0.9cm2; mild LVH with presernved EF;
   PCWP>18mmHg; 2+ MR; mild pulmonary artery systolic hypertension; no
   pericardial effusion
   - UA with blood, mod leuk est, 35 WBC; Foley removed
   - RUQ duplex u/s:  Normal Doppler patency and flow of the hepatic
   veins, portal vein
   - Fe urea nitrogen 27.5%, urine sodium 20; prerenal, does not exclude
   hepatorenal
   - Right shoulder pain x1 week; written for Tylenol, 2g maximum
   Allergies:
   Amoxicillin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Iodine; Iodine Containing
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2134-5-21**] 08:12 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-22**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (98.9
   HR: 51 (44 - 65) bpm
   BP: 113/46(63) {92/21(45) - 125/81(89)} mmHg
   RR: 21 (16 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 61 Inch
                  Total In:
                                                                  1,389 mL
                                                                    165 mL
   PO:
                                                                    240 mL
                  TF:
   IVF:
                                                                     94 mL
   Blood products:
                                                                    235 mL
                                                                    165 mL
   Total out:
                                                                  2,062 mL
                                                                      0 mL
   Urine:
                                                                    347 mL
   NG:
   Stool:
   Drains:
                                                                  1,400 mL
   Balance:
                                                                   -673 mL
                                                                    165 mL
   Respiratory support
   O2 Delivery Device: ROOM AIR
   SpO2: 96%
   Physical Examination
   GENERAL:  Resting comfortably with head of bed elevated 30 degrees.
   Oriented x3.
   SKIN:  Not jaundiced. Mild erythema at nasal bridge, cheeks. No palmar
   erythema. No spider angiomata. No caput.
   HEENT:  NCAT. Sclera anicteric. EOMI. Conjunctiva pale.
   NECK:  Supple. No appreciable JVD (exam limited [**2-1**] body habitus)
   CARDIAC:  RRR, normal S1, quiet S2; III/VI holosystolic murmur loudest
   at LUSB
   LUNGS:  Diffuse expiratory wheezes; no crackles, rhonchi appreciated
   ABDOMEN:  Obese; visible hernia below right breast, periumbilical;
   soft, nontender. Dull to percussion, unable to appreciate fluid wave.
   EXTREMITIES:  No lower extremity edema. Radial, DP pulses 2+.
   Neuro:  No asterixis; CNII-XII intact; EOMI; upper and lower extremity
   strength 5/5 and equal bilaterally.
   Labs / Radiology
   114 K/uL
   8.8 g/dL
   133 mg/dL
   3.5 mg/dL
   16 mEq/L
   4.7 mEq/L
   70 mg/dL
   107 mEq/L
   135 mEq/L
   25.9 %
   9.4 K/uL
        [image002.jpg]
                             [**2134-5-21**]  02:05 PM
                             [**2134-5-22**]  03:26 AM
   WBC
   19.0
   9.4
   Hct
   32.6
   25.9
   Plt
   172
   114
   Cr
   3.3
   3.5
   Glucose
   160
   133
   Other labs: PT / PTT / INR:18.7/33.3/1.7, ALT / AST:[**12-11**], Alk Phos / T
   Bili:54/0.7, Differential-Neuts:91.2 %, Lymph:6.5 %, Mono:2.2 %,
   Eos:0.1 %, Albumin:3.7 g/dL, LDH:141 IU/L, Ca++:8.2 mg/dL, Mg++:2.1
   mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   77F with CAD s/p triple CABG, cirrhosis, DMII, HTN, CRI transferred
   from OSH with new finding of severe AS, bradycardia, hypotension,
   leukocytosis, and ARF on CRI, in the setting of increasing shortness of
   breath and abdominal girth.
   # ASCITES. The patient
s increasing abdominal girth is due to
   increasing peritoneal ascites. Her shortness of breath was probably
   related to the ascites in two ways: (a) via a restrictive process where
   it is harder for her to inhale due to the pressure against her lungs
   and chest wall; and (b) via SBP, which increases her white count,
   causing anion-gap metabolic acidosis due to increased CO2 production,
   causing tachypnea to blow off excess CO2, causing discomfort of
   breathing.
   Yesterday
s ultrasound-guided paracentesis showed ~5L of ascites.
   Approximately 1.4L of peritoneal fluid was removed and showed WBC of
   >2900 with 92% poly
s (absolute ~2600 polys) and ascitic fluid total
   protein (AFTP) 1.7. The high number of polys (>250) with low AFTP
   (<2.5) suggests SBP. It is the measurement of the ascetic fluid total
   protein concentration that assists in differentiating SBP from
   secondary bacterial peritonitis, because lowest protein concentration
   correlates with the highest risk of developing SBP. It is thought that
   the low protein concentration correlates with low concentrations of
   opsonins, which decreases the efficacy of innate immunity in the
   peritoneum and thus predisposes to infection (see [**Last Name (un) 7710**],
   Gastrooenterology [**2110**]; and [**Last Name (un) 7710**], Hepatology [**2112**]). We know that most
   cases of SBP are due to [**Male First Name (un) **] bacteria (E. coli, Klebsiella) and that
   sometimes even streptococcus and infrequently staphylococcus can be the
   culprit. Therefore, treatment with somewhat broad-spectrum antibiotics
   is warranted unless further susceptibility can be found. Therefore, our
   patient was started on ceftriaxone 1g IV daily x5 days (day 1=[**2134-5-21**]).
   She was also started on albumin 1.5g/kg, because
. (look this up)
   She will need albumin 1.0g/kg on day 3 ([**2134-5-23**]). Afterwards, she will
   need to continue regular cipro for the rest of her life to prevent
   recurrence.
   In terms of long-term prophylaxis, there was astudy (below
   single weekly dose of 750 mg of [1]ciprofloxacin [[2]32]. In this
   trial, 60 patients with cirrhosis and a low ascitic fluid protein
   concentration (
1.5 g/dL) were randomly assigned to weekly
   ciprofloxacin or placebo for six months. There was a significant
   decrease in the incidence of SBP with ciprofloxacin (3.6 versus 22
   percent) without the development of acquired resistance to
   ciprofloxacin.
   Ciprofloxacin and long-term prevention of spontaneous bacterial
   peritonitis: results of a prospective controlled trial.
   [**Name Prefix (Prefixes) **]
   [**Last Name (Prefixes) 7713**] A; [**Last Name (un) 7714**] L; Bacq Y; Nousbaum JB; [**Last Name (un) 7715**] A; [**First Name8 (NamePattern2) 7697**] [**Last Name (NamePattern1) 561**]; Fratte
   S; [**Last Name (un) 7716**] B; Kitmacher P; [**Last Name (un) 7717**] JP; et [**Doctor Last Name **].
   SO
   Hepatology [**2119**] [**Month (only) **];22(4 Pt 1):1171-4.
   The etiology of her ascites is portal hypertension as evidenced by her
   high gradient SAAG (serum albumin - peritoneal fluid albumin = 3.4-1.1
   = 2.3, where high gradient is >1.1, which has 97% accuracy for
   predicting portal hypertension [see [**Last Name (un) 7710**] et [**Doctor Last Name **]. in Annals of Internal
   Medicine [**2116**]]). In general, top of the differential diagnosis for
   portal hypertension includes cirrhosis, CHF, and alcoholic hepatitis.
   Because the vast majority of patients with SBP have portal hypertension
   secondary to cirrhosis, it is most likely that cirrhosis is the cause
   in our patient.
    AFTP of most spontaneously infected ascites is usually low,
   The vast majority of patients with SBP have portal hypertension
   secondary to cirrhosis. Patients with a serum-ascites albumin gradient
   below 1.1 g/dL (ie, without portal hypertension) rarely develop SBP.
   Measurement of the ascitic fluid total protein concentration assists in
   separating SBP from secondary bacterial peritonitis ([3]see
   "Distinction of spontaneous from secondary bacterial peritonitis"
   below). It correlates inversely with the risk of developing SBP
   [[4]15]. Patients with the most dilute ascites (ie, protein
   concentration less than 1 gm/dL) have the lowest concentration of
   opsonins in the ascitic fluid and are at the highest risk for SBP
   Please note that high vs. low gradient SAAG is not the same as
   transudative/exudative ascites, which refers specifically to ascetic
   fluid total protein concentration, not just the albumin.
   consistent with transudate; total protein ascites 1.7 vs. serum 6.5
   77F with CAD s/p triple CABG, cirrhosis, DMII, HTN, CRI transferred
   from OSH with new finding of severe AS and recent episodes of
   bradycardia, hypotension. History also significant for leukocytosis,
   acute on chronic renal failure.
   .
   #. CORONARIES:  CAD s/p CABG. Anatomy as listed above. No chest pain
   currently or prior to OSH admission, although this is not necessarily
   reassuring in this female, diabetic patient. By report, cardiac
   biomarkers were negative at outside hospital.
   - Continue aspirin 325mg PO daily
   - Hold beta-blocker given recent bradycardia, hypotension
   - Continue simvastatin 20mg PO daily
   .
   #. PUMP:  Per signout, patient was thought to be fluid overloaded at
   OSH, BNP 741 with anasarca, net fluid balance +300ml yesterday, +500ml
   today prior to transfer. TTE there showed preserved EF 65-70% but new
   finding of severe AS with valve area of 0.7. Patient with hypotension
   requiring initation of dopamine gtt.
   - TTE to evaluate for diastolic dysfunction, severity of AS
   - Hold beta-blocker given recent bradycardia, hypotension. Hold
   hypotension given recent hypotension; unclear if patient needs to be on
   ACE inhibitor as she is not known to have heart failure.
   - Will restart furosemide as renal function improves
   .
   #. Aortic stenosis:  Reported as severe at OSH with valve area 0.7,
   peak gradient 100mgHg. Interestingly, patient has had TTE in past
   (records unavailable at this time) without mention of aortic stenosis.
   Aortic stenosis likely contributes to this patient's dyspnea.
   - TTE to evaluate valve function
   - If severe, consider intervention. Valvuloplasty would be a temporary
   solution. AVR is more permanent, but given cirrhosis, risk of surgery
   may be high.
   .
   # RHYTHM:  Bradycardic to mid-30s at OSH. EKG with junctional rhythm.
   Could this have been in context of decreased clearance of beta-blocker?
   Currently in NSR with rate in 60s. No evidence of AV block. No ischemic
   changes seen in RCA territory to suggest sinus node dysfunction.
   - EP consulted for evaluation for pacemaker placement
   - Hold beta-blocker, calcium-channel blocker
   - Atropine at bedside
   - Monitor on telemetry
   .
   #. Hypotension:  Noted with onset of bradycardia. Transferred on
   dopamine at 5mcg/kg/min. Patient with hypertension at baseline. Appears
   to be cardiogenic in origin given bradycardia; it is unclear whether
   attempt was made to wean patient off of dopamine once bradycardia
   resolved. Given leukocytosis, sepsis is also on differential.
   - Continue to wean dopamine
   - Hold antihypertensives
   - Will cater antibiotics (if needed) based on infectious work-up below
   .
   # h/o liver cirrhosis:  Underlying etiology unknown. Followed by Dr.
   [**First Name (STitle) 2578**] at [**Hospital1 19**]. Previously attributed to steatohepatitis. Complicated by
   portal hypertension, ascites. MELD 24, CHILDS B.
   - Abdominal ultrasound with doppler
   - Ultrasound-guided paracentesis (diagnostic)
   - Liver recs (Dr. [**First Name (STitle) 2578**]
   - Low salt diet, fluid restriction
   .
   #. Leukocytosis:  No clear source of infection. Differential diagnosis
   includes aspiration pneumonia, SBP, UTI. Was given levofloxacin IV at
   OSH given suspicion for aspiration pneumonia.
   - CXR
   - UA
   - Urine culture, blood cultures
   - Diagnostic paracentesis
   .
   #. Acute on chronic renal failure:  Baseline 1.7. Creatinine now 3.3.
   Differential includes ATN secondary to respond hypotensive episode
   (although patient was with renal failure prior to episode yesterday),
   prerenal etiology given poor cardiac output secondary to aortic
   stenosis. [**Month (only) 51**] also be secondary to medications - recently started on
   HCTZ.
   - Urine lytes, UA
   - Close monitoring of urine output
   - Hold diuretics
   .
   #. Diabetes melliitus, type II:
   - Continue Humalog sliding scale per home regimen
   ICU Care
   FEN:  Diabetic, heart healthy, low-salt diet; fluid restriction 1.5L;
   replete lytes as needed
   ACCESS:  PIV x2
   PROPHYLAXIS:  Heparin SC TID; pneumoboots; home PPI; bowel regimen
   CONTACT:  [**Name (NI) 1125**] ([**Name2 (NI) 2685**], HCP), ([**Telephone/Fax (1) 7698**]
   CODE:  FULL CODE. Discussions regarding code status are ongoing.
   DISPO: CCU for now
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DIABETES MELLITUS (DM), TYPE II
 AORTIC STENOSIS
 ASCITES
 KNOWLEDGE DEFICIT
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-5-21**] 09:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
References
   1. [**Numeric Identifier 7718**]
   2. [**URL 7719**]
   3. [**URL 7720**]
   4. [**URL 7720**]

2134-05-22 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Ultrasound-guided paracentesis (1.4L removed); peritoneal fluid
   consistent with SBP; ceftriaxone 1g IV daily x5 days, albumin 1.5g/kg
   - SAAG = serum albumin - peritoneal fluid albumin = 3.4-1.1 = 2.3,
   consistent with transudate; total protein ascites 1.7 vs. serum 6.5
   - TTE with AS, valve area 0.9cm2; mild LVH with presernved EF;
   PCWP>18mmHg; 2+ MR; mild pulmonary artery systolic hypertension; no
   pericardial effusion
   - UA with blood, mod leuk est, 35 WBC; Foley removed
   - RUQ duplex u/s:  Normal Doppler patency and flow of the hepatic
   veins, portal vein
   - Fe urea nitrogen 27.5%, urine sodium 20; prerenal, does not exclude
   hepatorenal
   - Right shoulder pain x1 week; written for Tylenol, 2g maximum
   Allergies:
   Amoxicillin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Iodine; Iodine Containing
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2134-5-21**] 08:12 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-22**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (98.9
   HR: 51 (44 - 65) bpm
   BP: 113/46(63) {92/21(45) - 125/81(89)} mmHg
   RR: 21 (16 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 61 Inch
                  Total In:
                                                                  1,389 mL
                                                                    165 mL
   PO:
                                                                    240 mL
                  TF:
   IVF:
                                                                     94 mL
   Blood products:
                                                                    235 mL
                                                                    165 mL
   Total out:
                                                                  2,062 mL
                                                                      0 mL
   Urine:
                                                                    347 mL
   NG:
   Stool:
   Drains:
                                                                  1,400 mL
   Balance:
                                                                   -673 mL
                                                                    165 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///16/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   114 K/uL
   8.8 g/dL
   133 mg/dL
   3.5 mg/dL
   16 mEq/L
   4.7 mEq/L
   70 mg/dL
   107 mEq/L
   135 mEq/L
   25.9 %
   9.4 K/uL
        [image002.jpg]
                             [**2134-5-21**]  02:05 PM
                             [**2134-5-22**]  03:26 AM
   WBC
   19.0
   9.4
   Hct
   32.6
   25.9
   Plt
   172
   114
   Cr
   3.3
   3.5
   Glucose
   160
   133
   Other labs: PT / PTT / INR:18.7/33.3/1.7, ALT / AST:[**12-11**], Alk Phos / T
   Bili:54/0.7, Differential-Neuts:91.2 %, Lymph:6.5 %, Mono:2.2 %,
   Eos:0.1 %, Albumin:3.7 g/dL, LDH:141 IU/L, Ca++:8.2 mg/dL, Mg++:2.1
   mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DIABETES MELLITUS (DM), TYPE II
 AORTIC STENOSIS
 ASCITES
 KNOWLEDGE DEFICIT
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-5-21**] 09:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2134-05-22 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   Amoxicillin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Iodine; Iodine Containing
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2134-5-21**] 08:12 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-22**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (98.9
   HR: 51 (44 - 65) bpm
   BP: 113/46(63) {92/21(45) - 125/81(89)} mmHg
   RR: 21 (16 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 61 Inch
                  Total In:
                                                                  1,389 mL
                                                                    165 mL
   PO:
                                                                    240 mL
                  TF:
   IVF:
                                                                     94 mL
   Blood products:
                                                                    235 mL
                                                                    165 mL
   Total out:
                                                                  2,062 mL
                                                                      0 mL
   Urine:
                                                                    347 mL
   NG:
   Stool:
   Drains:
                                                                  1,400 mL
   Balance:
                                                                   -673 mL
                                                                    165 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///16/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   114 K/uL
   8.8 g/dL
   133 mg/dL
   3.5 mg/dL
   16 mEq/L
   4.7 mEq/L
   70 mg/dL
   107 mEq/L
   135 mEq/L
   25.9 %
   9.4 K/uL
        [image002.jpg]
                             [**2134-5-21**]  02:05 PM
                             [**2134-5-22**]  03:26 AM
   WBC
   19.0
   9.4
   Hct
   32.6
   25.9
   Plt
   172
   114
   Cr
   3.3
   3.5
   Glucose
   160
   133
   Other labs: PT / PTT / INR:18.7/33.3/1.7, ALT / AST:[**12-11**], Alk Phos / T
   Bili:54/0.7, Differential-Neuts:91.2 %, Lymph:6.5 %, Mono:2.2 %,
   Eos:0.1 %, Albumin:3.7 g/dL, LDH:141 IU/L, Ca++:8.2 mg/dL, Mg++:2.1
   mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DIABETES MELLITUS (DM), TYPE II
 AORTIC STENOSIS
 ASCITES
 KNOWLEDGE DEFICIT
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-5-21**] 09:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2134-05-22 07:17:00 Physician Resident Progress Note
TITLE: SUB-INTERN PROGRESS NOTE
   24 Hour Events:
   - Ultrasound-guided paracentesis (1.4L removed); peritoneal fluid
   consistent with SBP; ceftriaxone 1g IV daily x5 days, albumin 1.5g/kg
   - SAAG = serum albumin - peritoneal fluid albumin = 3.4-1.1 = 2.3,
   consistent with transudate; total protein ascites 1.7 vs. serum 6.5
   - TTE with AS, valve area 0.9cm2; mild LVH with presernved EF;
   PCWP>18mmHg; 2+ MR; mild pulmonary artery systolic hypertension; no
   pericardial effusion
   - UA with blood, mod leuk est, 35 WBC; Foley removed
   - RUQ duplex u/s:  Normal Doppler patency and flow of the hepatic
   veins, portal vein
   - Fe urea nitrogen 27.5%, urine sodium 20; prerenal, does not exclude
   hepatorenal
   - Right shoulder pain x1 week; written for Tylenol, 2g maximum
   Allergies:
   Amoxicillin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Iodine; Iodine Containing
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2134-5-21**] 08:12 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-22**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (98.9
   HR: 51 (44 - 65) bpm
   BP: 113/46(63) {92/21(45) - 125/81(89)} mmHg
   RR: 21 (16 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 61 Inch
                  Total In:
                                                                  1,389 mL
                                                                    165 mL
   PO:
                                                                    240 mL
                  TF:
   IVF:
                                                                     94 mL
   Blood products:
                                                                    235 mL
                                                                    165 mL
   Total out:
                                                                  2,062 mL
                                                                      0 mL
   Urine:
                                                                    347 mL
   NG:
   Stool:
   Drains:
                                                                  1,400 mL
   Balance:
                                                                   -673 mL
                                                                    165 mL
   Respiratory support
   O2 Delivery Device: ROOM AIR
   SpO2: 96%
   Physical Examination
   GENERAL:  Resting comfortably with head of bed elevated 30 degrees.
   Oriented x3.
   SKIN:  Not jaundiced. Mild erythema at nasal bridge, cheeks. No palmar
   erythema. No spider angiomata. No caput.
   HEENT:  NCAT. Sclera anicteric. EOMI. Conjunctiva pale.
   NECK:  Supple. No appreciable JVD (exam limited [**2-1**] body habitus)
   CARDIAC:  RRR, normal S1, quiet S2; III/VI holosystolic murmur loudest
   at LUSB
   LUNGS:  Diffuse expiratory wheezes; no crackles, rhonchi appreciated
   ABDOMEN:  Obese; visible hernia below right breast, periumbilical;
   soft, nontender. Dull to percussion, unable to appreciate fluid wave.
   EXTREMITIES:  No lower extremity edema. Radial, DP pulses 2+.
   Neuro:  No asterixis; CNII-XII intact; EOMI; upper and lower extremity
   strength 5/5 and equal bilaterally.
   Labs / Radiology
   114 K/uL
   8.8 g/dL
   133 mg/dL
   3.5 mg/dL
   16 mEq/L
   4.7 mEq/L
   70 mg/dL
   107 mEq/L
   135 mEq/L
   25.9 %
   9.4 K/uL
        [image002.jpg]
                             [**2134-5-21**]  02:05 PM
                             [**2134-5-22**]  03:26 AM
   WBC
   19.0
   9.4
   Hct
   32.6
   25.9
   Plt
   172
   114
   Cr
   3.3
   3.5
   Glucose
   160
   133
   Other labs: PT / PTT / INR:18.7/33.3/1.7, ALT / AST:[**12-11**], Alk Phos / T
   Bili:54/0.7, Differential-Neuts:91.2 %, Lymph:6.5 %, Mono:2.2 %,
   Eos:0.1 %, Albumin:3.7 g/dL, LDH:141 IU/L, Ca++:8.2 mg/dL, Mg++:2.1
   mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DIABETES MELLITUS (DM), TYPE II
 AORTIC STENOSIS
 ASCITES
 KNOWLEDGE DEFICIT
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-5-21**] 09:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2134-05-22 07:17:00 Physician Resident Progress Note
TITLE: SUB-INTERN PROGRESS NOTE
   24 Hour Events:
   - Ultrasound-guided paracentesis (1.4L removed); peritoneal fluid
   consistent with SBP; ceftriaxone 1g IV daily x5 days, albumin 1.5g/kg
   - SAAG = serum albumin - peritoneal fluid albumin = 3.4-1.1 = 2.3,
   consistent with portal hypertension; total protein ascites 1.7 vs.
   serum 6.5
   - TTE with AS, valve area 0.9cm2; mild LVH with presernved EF;
   PCWP>18mmHg; 2+ MR; mild pulmonary artery systolic hypertension; no
   pericardial effusion
   - UA with blood, mod leuk est, 35 WBC; Foley removed
   - RUQ duplex u/s:  Normal Doppler patency and flow of the hepatic
   veins, portal vein
   - Fe urea nitrogen 27.5%, urine sodium 20; prerenal, does not exclude
   hepatorenal
   - Right shoulder pain x1 week; written for Tylenol, 2g maximum
   Allergies:
   Amoxicillin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Iodine; Iodine Containing
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2134-5-21**] 08:12 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-22**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (98.9
   HR: 51 (44 - 65) bpm
   BP: 113/46(63) {92/21(45) - 125/81(89)} mmHg
   RR: 21 (16 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 61 Inch
                  Total In:
                                                                  1,389 mL
                                                                    165 mL
   PO:
                                                                    240 mL
                  TF:
   IVF:
                                                                     94 mL
   Blood products:
                                                                    235 mL
                                                                    165 mL
   Total out:
                                                                  2,062 mL
                                                                      0 mL
   Urine:
                                                                    347 mL
   NG:
   Stool:
   Drains:
                                                                  1,400 mL
   Balance:
                                                                   -673 mL
                                                                    165 mL
   Respiratory support
   O2 Delivery Device: ROOM AIR
   SpO2: 96%
   Physical Examination
   GENERAL:  Resting comfortably with head of bed elevated 30 degrees.
   Oriented x3.
   SKIN:  Not jaundiced. Mild erythema at nasal bridge, cheeks. No palmar
   erythema. No spider angiomata. No caput.
   HEENT:  NCAT. Sclera anicteric. EOMI. Conjunctiva pale.
   NECK:  Supple. No appreciable JVD (exam limited [**2-1**] body habitus)
   CARDIAC:  RRR, normal S1, quiet S2; III/VI holosystolic murmur loudest
   at LUSB
   LUNGS:  Diffuse expiratory wheezes; no crackles, rhonchi appreciated
   ABDOMEN:  Obese; visible hernia below right breast, periumbilical;
   soft, nontender. Dull to percussion, unable to appreciate fluid wave.
   EXTREMITIES:  No lower extremity edema. Radial, DP pulses 2+.
   Neuro:  No asterixis; CNII-XII intact; EOMI; upper and lower extremity
   strength 5/5 and equal bilaterally.
   Labs / Radiology
   114 K/uL
   8.8 g/dL
   133 mg/dL
   3.5 mg/dL
   16 mEq/L
   4.7 mEq/L
   70 mg/dL
   107 mEq/L
   135 mEq/L
   25.9 %
   9.4 K/uL
        [image002.jpg]
                             [**2134-5-21**]  02:05 PM
                             [**2134-5-22**]  03:26 AM
   WBC
   19.0
   9.4
   Hct
   32.6
   25.9
   Plt
   172
   114
   Cr
   3.3
   3.5
   Glucose
   160
   133
   Other labs: PT / PTT / INR:18.7/33.3/1.7, ALT / AST:[**12-11**], Alk Phos / T
   Bili:54/0.7, Differential-Neuts:91.2 %, Lymph:6.5 %, Mono:2.2 %,
   Eos:0.1 %, Albumin:3.7 g/dL, LDH:141 IU/L, Ca++:8.2 mg/dL, Mg++:2.1
   mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   77F with CAD s/p triple CABG, cirrhosis, DMII, HTN, CRI transferred
   from OSH with new finding of severe AS, bradycardia, hypotension,
   leukocytosis, and ARF on CRI, in the setting of increasing shortness of
   breath and abdominal girth.
   # SBP / ASCITES / CIRRHOSIS.
        The patient
s increasing abdominal girth is due to increasing
   peritoneal ascites. Her shortness of breath was probably caused by the
   accumulation of ascites in two ways: (a) via a restrictive process
   where the pressure of the fluid against her lungs and chest wall
   increases the work of breathing; and (b) via the spontaneous bacterial
   peritonitis (SBP) that is present in the ascites, which increases her
   white count, and her non-gap acidosis which causes increased CO2
   production, causes tachypnea to blow off excess CO2, resulting in
   discomfort of breathing.
        In order to evaluate the patient
s ascites, an ultrasound-guided
   paracentesis was performed yesterday. The scan showed ~5L of peritoneal
   fluid, of which approximately 1.4L was removed and showed WBC of >2900
   with 92% poly
s (absolute ~2600 polys) and ascitic fluid total protein
   (AFTP) 1.7. The high number of polys (>250) with low AFTP (<2.5)
   suggests SBP. Measurement of the AFTP assists in differentiating SBP
   from secondary bacterial peritonitis, because lowest protein
   concentration correlates with the highest risk of developing SBP. It is
   thought that the low protein concentration correlates with low
   concentrations of opsonins, which decreases the response of innate
   immunity in the peritoneum and thus predisposes to infection (see
   [**Last Name (un) 7710**], Gastrooenterology [**2110**]; and [**Last Name (un) 7710**], Hepatology [**2112**]). We know
   that most cases of SBP are due to gut bacteria (E. coli, Klebsiella)
   and that sometimes even streptococcus and infrequently staphylococcus
   can be the culprit, so treatment with somewhat broad-spectrum
   antibiotics is warranted at least initially. Therefore, our patient was
   started on ceftriaxone 1g IV daily x5 days (day 1=[**2134-5-21**]).
   Furthermore, patients with cirrhosis and SBP frequently have impaired
   renal function, which often results in increased morbidity and
   mortality. By administering IV albumin (which expands plasma volume and
   increases blood flow to the kidneys), one reduces morality rates at
   three months from 41% to 22% (see Sort et [**Doctor Last Name **], NEJM [**2123**]). Therefore,
   our patient was also given albumin 1.5g/kg yesterday and will receive
   an additional 1.0g/kg on day 3 ([**2134-5-23**]). In terms of long-term
   prophylaxis, the patient will require a weekly dose of 750 mg
   ciprofloxacin for the rest of her life, which will decrease the
   incidence of recurrent SBP from 22% to 3.6% (see Rolachon et [**Doctor Last Name **],
   Hepatology [**2119**]).
        The etiology of her ascites is portal hypertension as evidenced by
   her high gradient SAAG (serum albumin - peritoneal fluid albumin =
   3.4-1.1 = 2.3, where high gradient is >1.1, which has 97% accuracy for
   predicting portal hypertension [see [**Last Name (un) 7710**] et [**Doctor Last Name **], Annals of Internal
   Medicine [**2116**]]). Importantly, high vs. low gradient SAAG is not the
   same as transudative/exudative ascites, which refers specifically to
   AFTP concentration (not albumin). In general, top of the differential
   diagnosis for portal hypertension includes cirrhosis, CHF, and
   alcoholic hepatitis. In our patient, cirrhosis is the most likely
   etiology because the vast majority of patients with SBP have portal
   hypertension secondary to cirrhosis. Furthermore, CHF is an unlikely
   cause (even in the setting of her aortic stenosis) because her EF is
   normal at ~60% and she has low AFTP (CHF is associated with high AFTP).
   Lastly, alcoholic hepatitis is unlikely because she denies a history of
   extensive alcohol abuse.
        The etiology of her cirrhosis, on the other hand, is much more
   elusive. The two most common causes in the USA are alcohol and
   Hepatitis C. Again, a lack of history of alcohol abuse and elicit drug
   abuse make these less likely etiologies. Another possibility is
   nonalcoholic steatohepatitis, but only a biopsy can offer a more
   definitive diagnosis. Given her Cr = 3.5, Tbili = 0.7, INR = 1.7, her
   calculated MELD score is 23, which is associated with ~90% survival at
   3 months (see Kamath et [**Doctor Last Name **], Hepatology [**2125**]).
   -          Continue on ceftriaxone 1 g qd for 5 days (day 1 = [**2134-5-21**])
   -          Albumin 1.0g/kg on [**2134-5-23**]
   -          Will consider Cipro 750 mg qweek after ceftriaxone is
   discontinued
   -          Appreciate recommendation from Dr. [**First Name (STitle) 2578**] (hepatology)
   -          Low salt diet, fluid restriction
   # AORTIC STENOSIS.  The patient has what we believe to be new-onset
   aortic stenosis, with our TTE showing aortic valve area of 0.9cm^2,
   peak gradient ~80 and mean gradient ~50. Given her current infection
   with SBP and lack of severe symptoms related to AS, aggressive
   intervention should be delayed until her infection is cleared.
   Afterwards, she may be evaluated for valvuloplasty (a temporary
   solution) or aortic valve replacement (a more permanent solution). The
   usual indications for AVR surgery include dyspnea on exertion (5 year
   survival from time of diagnosis), angina with exertion (3 year
   survival), or syncope with exertion (1 year survival), or severe LV
   dysfunction from AVR. Given that the running hypothesis is that her
   dyspnea over the past couple of days is due to SBP and the resultant
   tachypnea, she does not have any of these indications for surgery.
   # BRADYCARDIA.  The patient becomes bradycardic during the night to the
   low 40s. This was consistent with what happened at the outside
   hospital, where EKGs suggest junctional rhythm given the lack of P
   waves. This is most likely due to carvedilol
toxicity.
 Given that the
   patient has cirrhosis, she has decreased hepatic metabolism of
   carvedilol, which effectively enhances the doses she receives. Since
   carvedilol is a beta-blocker, she is probably experiencing
   supra-therapeutic effects of the drug that are causing her to become
   bradycardic. We have discontinued her carvedilol and hypothesize that
   her bradycardia should resolve soon. In the future she will need to be
   on a smaller dose, if at all. Given that she also has chronic renal
   failure, switching to a drug that is renally metabolized will probably
   not be a feasible alternative.
   -          hold carvedilol given cirrhosis/ascites
   -          EP consulted for evaluation for pacemaker placement
   -          Hold beta-blocker, calcium-channel blocker
   -          Atropine at bedside
   -          Monitor on telemetry
   # ACUTE ON CHRONIC RENAL FAILURE.  The patient most likely has acute
   (Cr 3.5) on chronic renal failure (baseline Cr 1.7) due to ATN that
   occurred during her episodes of supra-therapeutic drug action causing
   hypotension. Differential also includes ATN secondary to prerenal
   etiology given poor cardiac output secondary to aortic stenosis. [**Month (only) 51**]
   also be secondary to medications - recently started on HCTZ. We will
   send for urine-lytes/osmolarity/Na to further assess.
        The most feared etiology would be hepatorenal syndrome
   (development of acute renal failure in a patient who has advanced liver
   disease due to cirrhosis) because prognosis for these patients is poor,
   with a median survival of 3.3 months (see Alessandria et [**Doctor Last Name **], Hepatology
   [**2129**]). ARF in these patients occurs due to splanchnic vasodilatation
   and increases in nitric oxide circulation, which eventually reduces GFR
   and damages the kidneys. Diagnostic criteria for hepatorenal syndrome
   include a rise in creatinine above 1.5, absence of other causes for
   renal disease (including shock, bacterial infection, SBP, nephrotoxic
   durg use, post-renal obstruction), urine red cell excretion of less
   than 50 cells per HPF, and lack of improvement in renal function after
   volume expansion with IV albumin for at least two days. Given that she
   has a good story for other causes of ARF (i.e. SBP and some component
   of hypotension), the fact that her renal function did not improve with
   IV albumin is not as suggestive of hepatorenal syndrome, because she
   likely has ATN which will take at least a few days to recover.
   Therefore, we will trend her creatinine and we do not expect to see a
   fall until at least 3-5 days (approximately [**Date range (1) 7721**]).
   -          Continue trending creatinine daily
   -          IV albumin tomorrow
   -          Nephrology consult
   -          Urine lytes, UA
   -          Close monitoring of urine output
   -          Hold diuretics
   # ANEMIA.  The patient had a drop in hematocrit from 32 to 25 today.
   This is worrying because it could suggest a GI bleed. She was put on a
   PPI and a type and screen was sent. We will guaiac her stools to check
   for GI bleed.
   -          guaiac stool
   # HYPOTENSION.  The patient
s hypotension has now resolved. She is no
   longer on dopamine. She may have been dehydrated and/or overmedicated.
   Although septic shock was initially suspected given her leukocytosis,
   her WBC has now dropped to 19 and she has no fever. Furthermore, her
   liver disease may play a role in dropping her blood pressure in the
   context of decreased production of albumin.
   -          Hold anti-hypertensives
   -          On ceftriaxone now
   #. CORONARIES:  CAD s/p CABG. Anatomy as listed previously. No chest
   pain currently or prior to OSH admission, although this is not
   necessarily reassuring in this female, diabetic patient. By report,
   cardiac biomarkers were negative at outside hospital.
   - Continue aspirin 325mg PO daily
   - Hold beta-blocker given recent bradycardia, hypotension
   - Continue simvastatin 20mg PO daily
   .
   #. PUMP:  Per signout, patient was thought to be fluid overloaded at
   OSH, BNP 741 with anasarca, net fluid balance +300ml yesterday, +500ml
   today prior to transfer. TTE there showed preserved EF 65-70% but new
   finding of severe AS with valve area of 0.7. Patient with hypotension
   requiring initation of dopamine gtt.
   - Hold beta-blocker given recent bradycardia, hypotension.
   - Hold lasix
   #. Diabetes melliitus, type II:
   - Continue Humalog sliding scale per home regimen
   ICU Care
   FEN:  Diabetic, heart healthy, low-salt diet, kidney-friendly (low
   protein), and liver healthy diet; fluid restriction 1.5L; replete lytes
   as needed
   ACCESS:  PIV x2
   PROPHYLAXIS:  Heparin SC TID; pneumoboots; home PPI; bowel regimen
   CONTACT:  [**Name (NI) 1125**] ([**Name2 (NI) 2685**], HCP), ([**Telephone/Fax (1) 7698**]
   CODE:  FULL CODE. Patient wishes to discuss this with family before
   making any other decisions.
   DISPO: CCU for now
   16:36

2134-05-23 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Shock - cardiogenic
   24 Hour Events:
   - Hct drop to 25.9 with am labs. Guaiac neg. Repeat Hct 28.2
   - Fena 0.3
   - Code status confirmed as FULL
   - Renal c/s - More c/w Pre-renal azotemia. Urine sediment with many
   casts more c/w ATN. Less likely HRS given normal BPs and active
   sediment. Added on Urine Eos.
   - Liver c/s - Did not see patient, but suggested midodrine and
   octreotide. Decision deferrred until Liver team can see the patient in
   person
   - EP recs none
   History obtained from Patient
   Allergies:
   History obtained from PatientAmoxicillin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Iodine; Iodine Containing
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2134-5-21**] 08:12 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2134-5-22**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2134-5-22**] 11:19 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-23**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 57 (53 - 60) bpm
   BP: 151/55(77) {102/40(62) - 154/77(90)} mmHg
   RR: 15 (15 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 77 kg (admission): 79.8 kg
   Height: 61 Inch
                  Total In:
                                                                  1,515 mL
                                                                    260 mL
   PO:
                                                                    840 mL
                                                                    260 mL
   TF:
   IVF:
                                                                    510 mL
   Blood products:
                                                                    165 mL
   Total out:
                                                                    328 mL
                                                                    285 mL
   Urine:
                                                                    328 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,187 mL
                                                                    -25 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///17/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   131 K/uL
   9.2 g/dL
   132 mg/dL
   3.4 mg/dL
   17 mEq/L
   4.5 mEq/L
   79 mg/dL
   108 mEq/L
   134 mEq/L
   27.7 %
   8.2 K/uL
        [image002.jpg]
                             [**2134-5-21**]  02:05 PM
                             [**2134-5-22**]  03:26 AM
                             [**2134-5-22**]  03:00 PM
                             [**2134-5-23**]  05:42 AM
   WBC
   19.0
   9.4
   8.2
   Hct
   32.6
   25.9
   28.2
   27.7
   Plt
   172
   114
   131
   Cr
   3.3
   3.5
   3.7
   3.4
   Glucose
   160
   133
   140
   132
   Other labs: PT / PTT / INR:16.3/31.2/1.5, ALT / AST:15/18, Alk Phos / T
   Bili:73/0.6, Differential-Neuts:84.6 %, Lymph:11.4 %, Mono:2.6 %,
   Eos:1.1 %, Albumin:3.6 g/dL, LDH:157 IU/L, Ca++:8.2 mg/dL, Mg++:2.3
   mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DIABETES MELLITUS (DM), TYPE II
 AORTIC STENOSIS
 ASCITES
 KNOWLEDGE DEFICIT
   77F with CAD s/p triple CABG, cirrhosis, DMII, HTN, CRI transferred
   from OSH with new finding of severe AS, bradycardia, hypotension,
   leukocytosis, and ARF on CRI, in the setting of increasing shortness of
   breath and abdominal girth.
   # SBP / ASCITES / CIRRHOSIS.  Unknown etiology.  On CTX for 5 day
   course.
   -          Continue on ceftriaxone 1 g qd for 5 days (day 1 = [**2134-5-21**])
   -          Albumin 1.0g/kg today
   -          Will consider Cipro 750 mg qweek after ceftriaxone is
   discontinued
   -          Transfer to liver service now that pt is stable
   -          Low salt diet, fluid restriction
   # AORTIC STENOSIS.  Severe, new dx.
   - CT [**Doctor First Name 213**] c/s for non-emergent intervention
   - cards will continue to follow while on floor
   # BRADYCARDIA.  Down to 50
s while sleeping.
   -          holding anti HTN
   -          EP consult, appreciate recs
   -          Atropine at bedside
   -          Monitor on telemetry
   # ACUTE ON CHRONIC RENAL FAILURE.  Cr at 3.4, down from 3.7.  Baseline
   1.7.  Sediment suggestive of ATN given casts, and hypotension at OSH.
   Also consdiered HRS though less likely.   UOP improving over last 24
   hours, 400 since MN.
   - renal following, appreciate recs
   -  Continue trending creatinine [**Last Name (un) **]
   -          IV albumin today
   -          monitor UOP
   -          Hold diuretics
   # ANEMIA.  Stable at 27 this morning.  The patient had a drop in
   hematocrit from 32 to 25 yesterday.  Guaiac neg.  Pt reportedly on
   epogen 10,000u qSaturday.
   - trend daiy
   - will ask renal about why pt on epogen
   # HYPOTENSION:  Resolved.  Likely in setting of SBP.
   -          Hold anti-hypertensives
   -          On ceftriaxone as abov
   #. CORONARIES:  CAD s/p CABG. Anatomy as listed previously. No chest
   pain currently or prior to OSH admission, although this is not
   necessarily reassuring in this female, diabetic patient. By report,
   cardiac biomarkers were negative at outside hospital.
   - decrease ASA to 81mg
   - Holding anti HTN as above
   - Continue simvastatin 20mg PO daily
   #. PUMP:  EF 65-70%.  AS as above.
   - Hold beta-blocker given recent bradycardia, hypotension.
   - Hold lasix
   #. Diabetes melliitus, type II:
   - Continue Humalog sliding scale per home regimen
   ICU Care
   Nutrition:  low salt
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-5-21**] 09:41 PM
   22 Gauge - [**2134-5-22**] 02:40 PM
   Prophylaxis:
   DVT:  heparin sq
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  FULL
   Disposition: call out to [**Doctor Last Name 976**] [**Doctor Last Name 2578**] service

2134-05-23 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Shock - cardiogenic
   24 Hour Events:
   - Hct drop to 25.9 with am labs. Guaiac neg. Repeat Hct 28.2
   - Fena 0.3
   - Code status confirmed as FULL
   - Renal c/s - More c/w Pre-renal azotemia. Urine sediment with many
   casts more c/w ATN. Less likely HRS given normal BPs and active
   sediment. Added on Urine Eos.
   - Liver c/s - Did not see patient, but suggested midodrine and
   octreotide. Decision deferrred until Liver team can see the patient in
   person
   - EP recs none
   History obtained from Patient
   Allergies:
   History obtained from PatientAmoxicillin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Iodine; Iodine Containing
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2134-5-21**] 08:12 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2134-5-22**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2134-5-22**] 11:19 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-23**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 57 (53 - 60) bpm
   BP: 151/55(77) {102/40(62) - 154/77(90)} mmHg
   RR: 15 (15 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 77 kg (admission): 79.8 kg
   Height: 61 Inch
                  Total In:
                                                                  1,515 mL
                                                                    260 mL
   PO:
                                                                    840 mL
                                                                    260 mL
   TF:
   IVF:
                                                                    510 mL
   Blood products:
                                                                    165 mL
   Total out:
                                                                    328 mL
                                                                    285 mL
   Urine:
                                                                    328 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,187 mL
                                                                    -25 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///17/
   Physical Examination
   GENERAL:  a/o x3, comfortable
   SKIN:  mild jaundice, no stigmata of liver disease
   HEENT:  NCAT. Sclera anicteric. EOMI. Conjunctiva pale.
   NECK:  Supple. No appreciable JVD (exam limited [**2-1**] body habitus)
   CARDIAC:  RRR, normal S1, quiet S2; III/VI holosystolic murmur loudest
   at LUSB
   LUNGS:  Diffuse expiratory wheezes trace crackles
   ABDOMEN:  Obese; mild distension but soft non-tender. Dull to
   percussion, unable to appreciate fluid wave.
   EXTREMITIES:  No lower extremity edema. Radial, DP pulses 2+.
   Neuro:  No asterixis; CNII-XII intact; EOMI; upper and lower extremity
   strength 5/5 and equal bilaterally.
   Labs / Radiology
   131 K/uL
   9.2 g/dL
   132 mg/dL
   3.4 mg/dL
   17 mEq/L
   4.5 mEq/L
   79 mg/dL
   108 mEq/L
   134 mEq/L
   27.7 %
   8.2 K/uL
        [image002.jpg]
                             [**2134-5-21**]  02:05 PM
                             [**2134-5-22**]  03:26 AM
                             [**2134-5-22**]  03:00 PM
                             [**2134-5-23**]  05:42 AM
   WBC
   19.0
   9.4
   8.2
   Hct
   32.6
   25.9
   28.2
   27.7
   Plt
   172
   114
   131
   Cr
   3.3
   3.5
   3.7
   3.4
   Glucose
   160
   133
   140
   132
   Other labs: PT / PTT / INR:16.3/31.2/1.5, ALT / AST:15/18, Alk Phos / T
   Bili:73/0.6, Differential-Neuts:84.6 %, Lymph:11.4 %, Mono:2.6 %,
   Eos:1.1 %, Albumin:3.6 g/dL, LDH:157 IU/L, Ca++:8.2 mg/dL, Mg++:2.3
   mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DIABETES MELLITUS (DM), TYPE II
 AORTIC STENOSIS
 ASCITES
 KNOWLEDGE DEFICIT
   77F with CAD s/p triple CABG, cirrhosis, DMII, HTN, CRI transferred
   from OSH with new finding of severe AS, bradycardia, hypotension,
   leukocytosis, and ARF on CRI, in the setting of increasing shortness of
   breath and abdominal girth.
   # SBP / ASCITES / CIRRHOSIS.  Unknown etiology.  On CTX for 5 day
   course.
   -          Continue on ceftriaxone 1 g qd for 5 days (day 1 = [**2134-5-21**])
   -          Albumin 1.0g/kg today
   -          Will consider Cipro 750 mg qweek after ceftriaxone is
   discontinued
   -          Transfer to liver service now that pt is stable
   -          Low salt diet, fluid restriction
   # AORTIC STENOSIS.  Severe, new dx.
   - CT [**Doctor First Name 213**] c/s for non-emergent intervention
   - cards will continue to follow while on floor
   # BRADYCARDIA.  Down to 50
s while sleeping.
   -          holding anti HTN
   -          EP consult, appreciate recs
   -          Atropine at bedside
   -          Monitor on telemetry
   # ACUTE ON CHRONIC RENAL FAILURE.  Cr at 3.4, down from 3.7.  Baseline
   1.7.  Sediment suggestive of ATN given casts, and hypotension at OSH.
   Also consdiered HRS though less likely.   UOP improving over last 24
   hours, 400 since MN.
   - renal following, appreciate recs
   -  Continue trending creatinine [**Last Name (un) **]
   -          IV albumin today
   -          monitor UOP
   -          Hold diuretics
   # ANEMIA.  Stable at 27 this morning.  The patient had a drop in
   hematocrit from 32 to 25 yesterday.  Guaiac neg.  Pt reportedly on
   epogen 10,000u qSaturday.
   - trend daiy
   - will ask renal about why pt on epogen
   # HYPOTENSION:  Resolved.  Likely in setting of SBP.
   -          Hold anti-hypertensives
   -          On ceftriaxone as abov
   #. CORONARIES:  CAD s/p CABG. Anatomy as listed previously. No chest
   pain currently or prior to OSH admission, although this is not
   necessarily reassuring in this female, diabetic patient. By report,
   cardiac biomarkers were negative at outside hospital.
   - decrease ASA to 81mg
   - Holding anti HTN as above
   - Continue simvastatin 20mg PO daily
   #. PUMP:  EF 65-70%.  AS as above.
   - Hold beta-blocker given recent bradycardia, hypotension.
   - Hold lasix
   #. Diabetes melliitus, type II:
   - Continue Humalog sliding scale per home regimen
   ICU Care
   Nutrition:  low salt
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-5-21**] 09:41 PM
   22 Gauge - [**2134-5-22**] 02:40 PM
   Prophylaxis:
   DVT:  heparin sq
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  FULL
   Disposition: call out to [**Doctor Last Name 976**] [**Doctor Last Name 2578**] service

2134-05-23 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Shock - cardiogenic
   24 Hour Events:
   - Hct drop to 25.9 with am labs. Guaiac neg. Repeat Hct 28.2
   - Fena 0.3
   - Code status confirmed as FULL
   - Renal c/s - More c/w Pre-renal azotemia. Urine sediment with many
   casts more c/w ATN. Less likely HRS given normal BPs and active
   sediment. Added on Urine Eos.
   - Liver c/s - Did not see patient, but suggested midodrine and
   octreotide. Decision deferrred until Liver team can see the patient in
   person
   - EP recs none
   History obtained from Patient
   Allergies:
   History obtained from PatientAmoxicillin
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Iodine; Iodine Containing
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2134-5-21**] 08:12 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2134-5-22**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2134-5-22**] 11:19 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-23**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 57 (53 - 60) bpm
   BP: 151/55(77) {102/40(62) - 154/77(90)} mmHg
   RR: 15 (15 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 77 kg (admission): 79.8 kg
   Height: 61 Inch
                  Total In:
                                                                  1,515 mL
                                                                    260 mL
   PO:
                                                                    840 mL
                                                                    260 mL
   TF:
   IVF:
                                                                    510 mL
   Blood products:
                                                                    165 mL
   Total out:
                                                                    328 mL
                                                                    285 mL
   Urine:
                                                                    328 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,187 mL
                                                                    -25 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///17/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   131 K/uL
   9.2 g/dL
   132 mg/dL
   3.4 mg/dL
   17 mEq/L
   4.5 mEq/L
   79 mg/dL
   108 mEq/L
   134 mEq/L
   27.7 %
   8.2 K/uL
        [image002.jpg]
                             [**2134-5-21**]  02:05 PM
                             [**2134-5-22**]  03:26 AM
                             [**2134-5-22**]  03:00 PM
                             [**2134-5-23**]  05:42 AM
   WBC
   19.0
   9.4
   8.2
   Hct
   32.6
   25.9
   28.2
   27.7
   Plt
   172
   114
   131
   Cr
   3.3
   3.5
   3.7
   3.4
   Glucose
   160
   133
   140
   132
   Other labs: PT / PTT / INR:16.3/31.2/1.5, ALT / AST:15/18, Alk Phos / T
   Bili:73/0.6, Differential-Neuts:84.6 %, Lymph:11.4 %, Mono:2.6 %,
   Eos:1.1 %, Albumin:3.6 g/dL, LDH:157 IU/L, Ca++:8.2 mg/dL, Mg++:2.3
   mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DIABETES MELLITUS (DM), TYPE II
 AORTIC STENOSIS
 ASCITES
 KNOWLEDGE DEFICIT
   77F with CAD s/p triple CABG, cirrhosis, DMII, HTN, CRI transferred
   from OSH with new finding of severe AS, bradycardia, hypotension,
   leukocytosis, and ARF on CRI, in the setting of increasing shortness of
   breath and abdominal girth.
   # SBP / ASCITES / CIRRHOSIS.
        The patient
s increasing abdominal girth is due to increasing
   peritoneal ascites. Her shortness of breath was probably caused by the
   accumulation of ascites in two ways: (a) via a restrictive process
   where the pressure of the fluid against her lungs and chest wall
   increases the work of breathing; and (b) via the spontaneous bacterial
   peritonitis (SBP) that is present in the ascites, which increases her
   white count, and her non-gap acidosis which causes increased CO2
   production, causes tachypnea to blow off excess CO2, resulting in
   discomfort of breathing.
        In order to evaluate the patient
s ascites, an ultrasound-guided
   paracentesis was performed yesterday. The scan showed ~5L of peritoneal
   fluid, of which approximately 1.4L was removed and showed WBC of >2900
   with 92% poly
s (absolute ~2600 polys) and ascitic fluid total protein
   (AFTP) 1.7. The high number of polys (>250) with low AFTP (<2.5)
   suggests SBP. Measurement of the AFTP assists in differentiating SBP
   from secondary bacterial peritonitis, because lowest protein
   concentration correlates with the highest risk of developing SBP. It is
   thought that the low protein concentration correlates with low
   concentrations of opsonins, which decreases the response of innate
   immunity in the peritoneum and thus predisposes to infection (see
   [**Last Name (un) 7710**], Gastrooenterology [**2110**]; and [**Last Name (un) 7710**], Hepatology [**2112**]). We know
   that most cases of SBP are due to gut bacteria (E. coli, Klebsiella)
   and that sometimes even streptococcus and infrequently staphylococcus
   can be the culprit, so treatment with somewhat broad-spectrum
   antibiotics is warranted at least initially. Therefore, our patient was
   started on ceftriaxone 1g IV daily x5 days (day 1=[**2134-5-21**]).
   Furthermore, patients with cirrhosis and SBP frequently have impaired
   renal function, which often results in increased morbidity and
   mortality. By administering IV albumin (which expands plasma volume and
   increases blood flow to the kidneys), one reduces morality rates at
   three months from 41% to 22% (see Sort et [**Doctor Last Name **], NEJM [**2123**]). Therefore,
   our patient was also given albumin 1.5g/kg yesterday and will receive
   an additional 1.0g/kg on day 3 ([**2134-5-23**]). In terms of long-term
   prophylaxis, the patient will require a weekly dose of 750 mg
   ciprofloxacin for the rest of her life, which will decrease the
   incidence of recurrent SBP from 22% to 3.6% (see Rolachon et [**Doctor Last Name **],
   Hepatology [**2119**]).
        The etiology of her ascites is portal hypertension as evidenced by
   her high gradient SAAG (serum albumin - peritoneal fluid albumin =
   3.4-1.1 = 2.3, where high gradient is >1.1, which has 97% accuracy for
   predicting portal hypertension [see [**Last Name (un) 7710**] et [**Doctor Last Name **], Annals of Internal
   Medicine [**2116**]]). Importantly, high vs. low gradient SAAG is not the
   same as transudative/exudative ascites, which refers specifically to
   AFTP concentration (not albumin). In general, top of the differential
   diagnosis for portal hypertension includes cirrhosis, CHF, and
   alcoholic hepatitis. In our patient, cirrhosis is the most likely
   etiology because the vast majority of patients with SBP have portal
   hypertension secondary to cirrhosis. Furthermore, CHF is an unlikely
   cause (even in the setting of her aortic stenosis) because her EF is
   normal at ~60% and she has low AFTP (CHF is associated with high AFTP).
   Lastly, alcoholic hepatitis is unlikely because she denies a history of
   extensive alcohol abuse.
        The etiology of her cirrhosis, on the other hand, is much more
   elusive. The two most common causes in the USA are alcohol and
   Hepatitis C. Again, a lack of history of alcohol abuse and elicit drug
   abuse make these less likely etiologies. Another possibility is
   nonalcoholic steatohepatitis, but only a biopsy can offer a more
   definitive diagnosis. Given her Cr = 3.5, Tbili = 0.7, INR = 1.7, her
   calculated MELD score is 23, which is associated with ~90% survival at
   3 months (see Kamath et [**Doctor Last Name **], Hepatology [**2125**]).
   -          Continue on ceftriaxone 1 g qd for 5 days (day 1 = [**2134-5-21**])
   -          Albumin 1.0g/kg on [**2134-5-23**]
   -          Will consider Cipro 750 mg qweek after ceftriaxone is
   discontinued
   -          Appreciate recommendation from Dr. [**First Name (STitle) 2578**] (hepatology)
   -          Low salt diet, fluid restriction
   # AORTIC STENOSIS.  The patient has what we believe to be new-onset
   aortic stenosis, with our TTE showing aortic valve area of 0.9cm^2,
   peak gradient ~80 and mean gradient ~50. Given her current infection
   with SBP and lack of severe symptoms related to AS, aggressive
   intervention should be delayed until her infection is cleared.
   Afterwards, she may be evaluated for valvuloplasty (a temporary
   solution) or aortic valve replacement (a more permanent solution). The
   usual indications for AVR surgery include dyspnea on exertion (5 year
   survival from time of diagnosis), angina with exertion (3 year
   survival), or syncope with exertion (1 year survival), or severe LV
   dysfunction from AVR. Given that the running hypothesis is that her
   dyspnea over the past couple of days is due to SBP and the resultant
   tachypnea, she does not have any of these indications for surgery.
   # BRADYCARDIA.  The patient becomes bradycardic during the night to the
   low 40s. This was consistent with what happened at the outside
   hospital, where EKGs suggest junctional rhythm given the lack of P
   waves. This is most likely due to carvedilol
toxicity.
 Given that the
   patient has cirrhosis, she has decreased hepatic metabolism of
   carvedilol, which effectively enhances the doses she receives. Since
   carvedilol is a beta-blocker, she is probably experiencing
   supra-therapeutic effects of the drug that are causing her to become
   bradycardic. We have discontinued her carvedilol and hypothesize that
   her bradycardia should resolve soon. In the future she will need to be
   on a smaller dose, if at all. Given that she also has chronic renal
   failure, switching to a drug that is renally metabolized will probably
   not be a feasible alternative.
   -          hold carvedilol given cirrhosis/ascites
   -          EP consulted for evaluation for pacemaker placement
   -          Hold beta-blocker, calcium-channel blocker
   -          Atropine at bedside
   -          Monitor on telemetry
   # ACUTE ON CHRONIC RENAL FAILURE.  The patient most likely has acute
   (Cr 3.5) on chronic renal failure (baseline Cr 1.7) due to ATN that
   occurred during her episodes of supra-therapeutic drug action causing
   hypotension. Differential also includes ATN secondary to prerenal
   etiology given poor cardiac output secondary to aortic stenosis. [**Month (only) 51**]
   also be secondary to medications - recently started on HCTZ. We will
   send for urine-lytes/osmolarity/Na to further assess.
        The most feared etiology would be hepatorenal syndrome
   (development of acute renal failure in a patient who has advanced liver
   disease due to cirrhosis) because prognosis for these patients is poor,
   with a median survival of 3.3 months (see Alessandria et [**Doctor Last Name **], Hepatology
   [**2129**]). ARF in these patients occurs due to splanchnic vasodilatation
   and increases in nitric oxide circulation, which eventually reduces GFR
   and damages the kidneys. Diagnostic criteria for hepatorenal syndrome
   include a rise in creatinine above 1.5, absence of other causes for
   renal disease (including shock, bacterial infection, SBP, nephrotoxic
   durg use, post-renal obstruction), urine red cell excretion of less
   than 50 cells per HPF, and lack of improvement in renal function after
   volume expansion with IV albumin for at least two days. Given that she
   has a good story for other causes of ARF (i.e. SBP and some component
   of hypotension), the fact that her renal function did not improve with
   IV albumin is not as suggestive of hepatorenal syndrome, because she
   likely has ATN which will take at least a few days to recover.
   Therefore, we will trend her creatinine and we do not expect to see a
   fall until at least 3-5 days (approximately [**Date range (1) 7721**]).
   -          Continue trending creatinine daily
   -          IV albumin tomorrow
   -          Nephrology consult
   -          Urine lytes, UA
   -          Close monitoring of urine output
   -          Hold diuretics
   # ANEMIA.  The patient had a drop in hematocrit from 32 to 25 today.
   This is worrying because it could suggest a GI bleed. She was put on a
   PPI and a type and screen was sent. We will guaiac her stools to check
   for GI bleed.
   -          guaiac stool
   # HYPOTENSION.  The patient
s hypotension has now resolved. She is no
   longer on dopamine. She may have been dehydrated and/or overmedicated.
   Although septic shock was initially suspected given her leukocytosis,
   her WBC has now dropped to 19 and she has no fever. Furthermore, her
   liver disease may play a role in dropping her blood pressure in the
   context of decreased production of albumin.
   -          Hold anti-hypertensives
   -          On ceftriaxone now
   #. CORONARIES:  CAD s/p CABG. Anatomy as listed previously. No chest
   pain currently or prior to OSH admission, although this is not
   necessarily reassuring in this female, diabetic patient. By report,
   cardiac biomarkers were negative at outside hospital.
   - Continue aspirin 325mg PO daily
   - Hold beta-blocker given recent bradycardia, hypotension
   - Continue simvastatin 20mg PO daily
   .
   #. PUMP:  Per signout, patient was thought to be fluid overloaded at
   OSH, BNP 741 with anasarca, net fluid balance +300ml yesterday, +500ml
   today prior to transfer. TTE there showed preserved EF 65-70% but new
   finding of severe AS with valve area of 0.7. Patient with hypotension
   requiring initation of dopamine gtt.
   - Hold beta-blocker given recent bradycardia, hypotension.
   - Hold lasix
   #. Diabetes melliitus, type II:
   - Continue Humalog sliding scale per home regimen
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-5-21**] 09:41 PM
   22 Gauge - [**2134-5-22**] 02:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: